2126-09-20 09:27:00 Physician Attending Progress Note
Chief Complaint: arm fracture, PEA arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Respiratory arrest overnight likely related to mucous plug. Failing to
   respond since arrest. Some rhythmic quivering of the lips, tongue and
   throat. Tonic activity with hyperemia of face responded to 4mg of
   ativan. EEG and neurology consult pending.
   PMH:
   Multidrug resistant pseudomonas,
   Tracheomalacia + stenosis s/p dilation by rigid bronch and s/p
   tracheosomy
   COPD
   Patient unable to provide history: Unresponsive
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.28 mcg/Kg/min
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2126-9-20**] 05:30 AM
   Other medications:
   pantoprazole, tylenol, atrovent, RISS, calcium carbonate, ferrous
   sulfate, celexa, bactrim, prednisone 15-20, aspirin 325 po dialy,
   colace, vitamin D, lasix [**Hospital1 **], mirapex, senna I [**Hospital1 **].
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-20**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 117 (43 - 192) bpm
   BP: 126/91(99) {40/20(25) - 174/104(119)} mmHg
   RR: 24 (12 - 35) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             2,218 mL
   PO:
             TF:
   IVF:
   2,218 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    680 mL
   Urine:
   680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,538 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 29 cmH2O
   Plateau: 19 cmH2O
   SpO2: 93%
   ABG: 7.24/89.[**Numeric Identifier 128**]/48/35/6
   Ve: 10.6 L/min
   PaO2 / FiO2: 48
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: No(t) PERRL, pupils fixed in mid position
   Head, Ears, Nose, Throat: Normocephalic, trach tube, rythmic movement
   of lips and throat
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful, Tone:
   Increased
   Labs / Radiology
   10.2 g/dL
   350 K/uL
   208 mg/dL
   0.8 mg/dL
   35 mEq/L
   3.8 mEq/L
   19 mg/dL
   102 mEq/L
   144 mEq/L
   35.4 %
   24.0 K/uL
        [image002.jpg]
                             [**2126-9-19**]  11:58 PM
                             [**2126-9-20**]  03:25 AM
                             [**2126-9-20**]  04:07 AM
                             [**2126-9-20**]  04:18 AM
                             [**2126-9-20**]  05:35 AM
                             [**2126-9-20**]  06:27 AM
   WBC
   15.2
   24.0
   Hct
   36.8
   35.4
   Plt
   278
   350
   Cr
   0.7
   0.8
   TropT
   0.05
   TCO2
   44
   33
   40
   40
   Glucose
   114
   112
   202
   208
   Other labs: PT / PTT / INR:11.4/25.0/0.9, CK / CKMB /
   Troponin-T:175/11/0.05, Lactic Acid:5.6 mmol/L, Ca++:8.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR with elevated Right hemidaiphragm
   Microbiology: none new
   ECG: reviewed sinus tach
   Assessment and Plan
 CARDIAC ARREST:
   Ddx includes PE, mucous plug, no evidence for PTX, no hypoglycemia, no
   evidence for significant cardiac event (currently elevated cardiac
   markers more consistent with demand). Will perform CT PE, bronchoscopy.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   continue vent support, will eventually need trach change but will hold
   off on this today given event's overnight, will perform bronchoscopy
   and lavage to assess for plugging. Follow up ABG
 Seizure/unresponsiveness:
   Seizure this morning, getting EEG, neurology to see,also to be
   evaluated for cooling for neurological preservation.
 Hemodynamics: Requiring high dose pressors, but weaning down likely
   post arrest SIRS, trend lactate. change steroids to 100mg iv of
   hydrocort q8h. will give 500 iv saline and r/a monitor U/o and BP.
   Replace Central line, replace A-line. Start Vanco, cefepime, history of
   pseudomonas sensitive only to amikacin will hold off on this due to
   post arrest status and concern for renal failure.
 FRACTURE, OTHER
   Complex fracture s/p closed reduction and casting. Requires further
   reduction by ortho at risk for ulnar and median nerve entrapment.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-9-20**] 12:09 AM
   18 Gauge - [**2126-9-20**] 12:09 AM
   Multi Lumen - [**2126-9-20**] 04:30 AM
   20 Gauge - [**2126-9-20**] 04:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(s/c fondaprinux.)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 90 minutes
   Patient is critically ill

2126-09-21 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 OR RECEIVED - At [**2126-9-20**] 09:55 AM
   Bedside OR wrist fracture reduction, cast reapplied by ortho
 EEG - At [**2126-9-20**] 02:00 PM
   continuous
 BRONCHOSCOPY - At [**2126-9-20**] 02:26 PM
 ARTERIAL LINE - START [**2126-9-20**] 04:14 PM
 MULTI LUMEN - START [**2126-9-20**] 05:41 PM
 FEVER - 101.2
F - [**2126-9-20**] 12:00 PM
   - on Arctic Sun protocol for s/p PEA arrest
   - bronch'ed yesterday - cleared mucous plug, sputum with 1+ GNR, 3+ GPC
   in pairs
   - Is on continuous EEG monitoring for ? seizure - had some activity
   that looked like possible seziure - called neuro to see, they didn't
   feel that is was c/w seizure, def not status
   - started Keppra given concern for seizure though neuro c/s didn't
   recommend anti-epileptic
   - was overbreathing vent with high pressures (up to 50) and a worsening
   resp acidosis - unable to increase MV [**2-11**] high pressures.  Added
   propfol to increase sedation and repeat gas 7.36/54
   - unable to adequately cool to goal of 34 degrees - probably from
   internal shivering, deepening sedation helped - over shot to 33.5,
   added [**Doctor Last Name 824**] Hugger and increaesed to 34
   - pressors weaned off, got 500cc bolus x1 for pressures in mid 80's
   Patient unable to provide history: Sedated
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2126-9-20**] 08:40 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2126-9-20**] 11:45 AM
   Midazolam (Versed) - [**2126-9-20**] 08:10 PM
   Propofol - [**2126-9-21**] 12:20 AM
   Pantoprazole (Protonix) - [**2126-9-21**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-21**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.3
C (101
   HR: 80 (66 - 140) bpm
   BP: 110/81(93) {86/66(-4) - 135/93(110)} mmHg
   RR: 26 (0 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  4,196 mL
                                                                    869 mL
   PO:
             TF:
   IVF:
                                                                  4,106 mL
                                                                    869 mL
   Blood products:
   Total out:
                                                                  1,851 mL
                                                                    264 mL
   Urine:
                                                                  1,851 mL
                                                                    264 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,345 mL
                                                                    605 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (400 - 500) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 45 cmH2O
   Plateau: 29 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.45/43/130/29/5
   Ve: 12.7 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Generalin tubated sedated with arctic sun on, skin cold to touch, e/o
   shivering
   HEENT: ETT in place
   Lungs: rhonchi bilaterally
   CV: regular rate, no mrg
   Abdomen:  +bs, tense, does not appear tender
   Ext: cold to touch, pulses present, erythema on lower extremities, 1+
   edema to knees, venous statsis changes
   Labs / Radiology
   230 K/uL
   9.2 g/dL
   100 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.6 mEq/L
   18 mg/dL
   104 mEq/L
   143 mEq/L
   30.6 %
   14.3 K/uL
        [image002.jpg]
                             [**2126-9-20**]  09:37 AM
                             [**2126-9-20**]  09:44 AM
                             [**2126-9-20**]  01:51 PM
                             [**2126-9-20**]  06:02 PM
                             [**2126-9-20**]  07:05 PM
                             [**2126-9-20**]  10:29 PM
                             [**2126-9-21**]  01:05 AM
                             [**2126-9-21**]  01:09 AM
                             [**2126-9-21**]  03:54 AM
                             [**2126-9-21**]  04:01 AM
   WBC
   14.3
   Hct
   30.6
   Plt
   230
   Cr
   0.8
   0.5
   TropT
   0.05
   0.03
   TCO2
   36
   38
   36
   36
   32
   31
   Glucose
   196
   100
   Other labs: PT / PTT / INR:12.7/28.0/1.1, CK / CKMB /
   Troponin-T:396/18/0.03, Lactic Acid:1.2 mmol/L, Ca++:7.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 CARDIAC ARREST
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 FRACTURE, OTHER
   53 yo m admitted to MICU for respiratory distress and now s/p PEA
   arrest yesterday morning on Arctic Sun cooling protocol.
   # S/P PEA Arrest:
   - Arctic Sun protocol
 have been at 34 degress since MN last night
   per protocol, should rewarm at [**Last Name (LF) **], [**First Name3 (LF) 178**] touch base with team leader
   re protocol
   - touch base with neuro when warming
   - continuous EEG monitoring
   # Respiratory Acidosis/Hypercarbia/Hypoxia: Acidosis resolved with more
   sedation
 added propofol.  Last gas: 7.45/43/130/29 on 500x26 PEEP of
   10 FiO2 of 50%.  Bronch with GNR 1+ and GPC 2+, no speciation yet. Has
   severe COPD at baseline..
   - AC on vent for now
   - continue vanoc/ cefepime
 need ID approval
   - f/u sputum cx
   - albuterol, ipratropium nebs
   - continue iv hydrocort in setting of PEA arrest can decrease tomorrow,
   on bactrim ppx
   # Fever: 101.2 max yesterday prior to cooling, infection vs from acute
   stress/brain injury
   - abx as above, f/u cx as above
   # Question of Seizure:  in setting of arrest, on cont EEG, neuro
   following
   - f/u neuro recs, touch [**Doctor Last Name **] prior to warming
   - had started keppra overnight
   # Chronic Diastolic HF:  Stable
   - cont lasix 40iv [**Hospital1 **]
   - I/O goal: even
   # Wrist fracture/Osteoperosis: Pt had a traumatic mechanical fall at
   rehab prior to admission. Fracture of radius and ulna, reduced by ortho
   in ER. Has risk of bone fracture due to chronic high dose steriods.
   - ortho recs appreciated
   - dilaudid IV
   - tylenol 1g Q6H standing
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   # DM, type II:
   - continue SSI from nursing home
   # Anemia of iron def: stable
   - monitor hct
   - continue iron tablets
   # Depression: stable
   - continue celexa
   # Hx of ulcers: no evidence of GI bleed at this time, no abd pain
   - increase PPI to protonix 40mg IV BID for now, since may benifit from
   NASID
   # Hx of recent cellulitis: completed course of vanco
   - monitor for infection
   # FEN: No IVF, replete electrolytes, NPO for now
   # Prophylaxis: pneumoboots
   # Access: peripherals
   # Code:  Full presumed, will need to discuss more with pt once awake
   # Communication: Patient
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2126-9-20**] 12:09 AM
   18 Gauge - [**2126-9-20**] 12:09 AM
   20 Gauge - [**2126-9-20**] 04:30 AM
   Arterial Line - [**2126-9-20**] 04:14 PM
   Multi Lumen - [**2126-9-20**] 05:41 PM
   Prophylaxis:
   DVT:  none for now given cooling
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-09-21 08:49:00 Physician Attending Progress Note
Chief Complaint: Right arm fracture, PEA arrest [**2-11**] to bronchospasm vs
   tracheomalacia.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Worsening respiratory acidosis improved on propofol. KUb obtained due
   to tense abdomen, and was wnl. s/p reduction of right wrist fracture by
   ortho. ? seizure activity on the EEG monitor improved s/p propofol
   infusion.
   Cooling initiated yesterday
 propofol started
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2126-9-20**] 08:40 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2126-9-20**] 11:45 AM
   Midazolam (Versed) - [**2126-9-20**] 08:10 PM
   Propofol - [**2126-9-21**] 12:20 AM
   Pantoprazole (Protonix) - [**2126-9-21**] 12:30 AM
   Other medications:
   tyelnol q6 (on hold), atrovent 2puffs q4h, insulin sliding scale,
   calcium carobonate, ferrous sulfate, celexa, bactrim 1 tab MWF, colace,
   vitain D, lasix 40mg po bid, mirapex qhs, senna, pantorpazole,
   hydrocortizone, midazolam, keppra,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-21**] 08:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.3
C (101
   HR: 86 (66 - 140) bpm
   BP: 115/81(96) {86/66(-4) - 135/93(110)} mmHg
   RR: 24 (0 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  4,196 mL
                                                                    895 mL
   PO:
             TF:
   IVF:
                                                                  4,106 mL
                                                                    895 mL
   Blood products:
   Total out:
                                                                  1,851 mL
                                                                    329 mL
   Urine:
                                                                  1,851 mL
                                                                    329 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,345 mL
                                                                    566 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (400 - 500) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 29 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.45/43/130/29/5
   Ve: 14 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: shivering
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: No(t) Soft, Distended, slightly distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Cool
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Increased
   Labs / Radiology
   9.2 g/dL
   230 K/uL
   100 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.6 mEq/L
   18 mg/dL
   104 mEq/L
   143 mEq/L
   30.6 %
   14.3 K/uL
        [image002.jpg]
                             [**2126-9-20**]  09:37 AM
                             [**2126-9-20**]  09:44 AM
                             [**2126-9-20**]  01:51 PM
                             [**2126-9-20**]  06:02 PM
                             [**2126-9-20**]  07:05 PM
                             [**2126-9-20**]  10:29 PM
                             [**2126-9-21**]  01:05 AM
                             [**2126-9-21**]  01:09 AM
                             [**2126-9-21**]  03:54 AM
                             [**2126-9-21**]  04:01 AM
   WBC
   14.3
   Hct
   30.6
   Plt
   230
   Cr
   0.8
   0.5
   TropT
   0.05
   0.03
   TCO2
   36
   38
   36
   36
   32
   31
   Glucose
   196
   100
   Other labs: PT / PTT / INR:12.7/28.0/1.1, CK / CKMB /
   Troponin-T:396/18/0.03, Lactic Acid:1.2 mmol/L, Ca++:7.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR with likely right sided pelural effusion, elevated right
   hemidiphragm.
   Microbiology: BAL with 1+ GNR, 2+ GPC in pairs and clusters
   blood and urine culture
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS: discuss with epilepsy team
   regarding wavefrom on EEg monitor if this is consistent with seizure vs
   other process.  Getting cooled.  Keppra restarted.
 CARDIAC ARREST: PEA arrest on cooling protocol, will rewarm starting
   at 6PM (after 18 hrs total at 34 degrees). Will hold off on paralytics
   for now.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): history of COPD,
   tracheomalacia, elevated right hemidiaphragm, with sigificnat autopeep
   will drop his RR rate. ill follow up repeat ABG. On Hydrocort for COPD
   exacerbation. Follow up sputum culture. On vanco, get ID approval for
   Cefepime.
 FRACTURE, OTHER: follow up ortho recommendations
 Hypotension: improved, off pressors with excellent blood pressure,
   will resume home lasix for goal TBB even.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2126-9-20**] 12:09 AM
   18 Gauge - [**2126-9-20**] 12:09 AM
   20 Gauge - [**2126-9-20**] 04:30 AM
   Arterial Line - [**2126-9-20**] 04:14 PM
   Multi Lumen - [**2126-9-20**] 05:41 PM
   Prophylaxis:
   DVT: Boots
 adding fonaparinux
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments: will contact his sister HCP today
   [**Name2 (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2126-09-22 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2126-9-21**] 08:02 AM
   Inserted during code blue
 EKG - At [**2126-9-21**] 09:45 AM
 URINE CULTURE - At [**2126-9-21**] 10:00 AM
   - Rewarming completed aroun 1AM
   - ck lytes q6hrs
   - Started fondiparenox 2.5mg qdaily
   - Neuro started
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2126-9-21**] 08:00 PM
   Cefipime - [**2126-9-21**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-9-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-22**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 113 (73 - 120) bpm
   BP: 102/66(78) {91/59(71) - 120/81(96)} mmHg
   RR: 20 (9 - 24) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    CVP: 9 (8 - 9)mmHg
   Total In:
                                                                  2,296 mL
                                                                  1,291 mL
   PO:
   TF:
   IVF:
                                                                  2,176 mL
                                                                  1,231 mL
   Blood products:
   Total out:
                                                                  2,063 mL
                                                                    345 mL
   Urine:
                                                                  2,063 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    233 mL
                                                                    946 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 18 cmH2O
   Compliance: 250 cmH2O/mL
   SpO2: 93%
   ABG: 7.48/41/103/28/6
   Ve: 11.5 L/min
   PaO2 / FiO2: 206
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   237 K/uL
   8.3 g/dL
   92 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.2 mEq/L
   16 mg/dL
   105 mEq/L
   143 mEq/L
   27.6 %
   12.4 K/uL
        [image002.jpg]
                             [**2126-9-21**]  03:54 AM
                             [**2126-9-21**]  04:01 AM
                             [**2126-9-21**]  10:11 AM
                             [**2126-9-21**]  12:21 PM
                             [**2126-9-21**]  02:14 PM
                             [**2126-9-21**]  07:58 PM
                             [**2126-9-21**]  08:03 PM
                             [**2126-9-22**]  12:13 AM
                             [**2126-9-22**]  04:08 AM
                             [**2126-9-22**]  04:11 AM
   WBC
   14.3
   12.4
   Hct
   30.6
   27.6
   Plt
   230
   237
   Cr
   0.5
   0.5
   0.5
   0.6
   TCO2
   31
   32
   31
   33
   31
   Glucose
   100
   99
   116
   138
   92
   Other labs: PT / PTT / INR:12.0/28.0/1.0, CK / CKMB /
   Troponin-T:396/18/0.03, Lactic Acid:1.0 mmol/L, Ca++:7.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.5 mg/dL
   Imaging: CXR [**9-21**]: The tracheostomy tip is approximately 4.5 cm above
   the carina. The right
   internal jugular line is at the level of mid SVC. The right PICC line
   tip is
   at the level of superior SVC.
   The NG tube tip passes below the diaphragm, most likely terminating in
   the
   stomach. Bilateral pleural effusions and bibasilar consolidations are
   unchanged.
   Microbiology: [**2126-9-20**] 1:50 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2126-9-20**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
         MODERATE GROWTH OROPHARYNGEAL FLORA.
         GRAM NEGATIVE ROD(S).    MODERATE GROWTH.
   [**2126-9-20**] 4:04 pm BRONCHOALVEOLAR LAVAGE
      GRAM STAIN (Final [**2126-9-20**]):
         3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):    RESULTS PENDING.
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 CARDIAC ARREST
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 FRACTURE, OTHER
   53 yo m admitted to MICU for respiratory distress and now s/p PEA
   arrest yesterday morning on Arctic Sun cooling protocol.
   # S/P PEA Arrest: Completed rewarming. Had monitored lytes q6 with lyte
   repleteion. Concern for anxoic brain injury.
   - weaning sedation to assess MS
   - Lytes TID for monitoring
   - monitor on tele
   - continue EEG moitoring
   # Respiratory Alkalosis/Hypercarbia/Hypoxia: This AM had a metabolic
   aklalosis, vent adjusted with lower rate and now with improved pH.
   Bronch with GNR 1+ and GPC 2+, no speciation yet. Has severe COPD at
   baseline.  CXR with low lung volumes and concern for infiltrate.
   - monitor ABGs
   - AC on vent for now, will wean as tolerated
   - continue vanoc/ cefepime
   - f/u sputum cx
   - albuterol, ipratropium nebs
   - change to home steriods
   - continue bactrim ppx
   # Fever: Had a fever priro to cooling, infection vs from acute
   stress/brain injury. Has GNRs in lungs.
   - abx as above
   - f/u cx as above
   # Tachycarida: had on admission, now returned after rewarming. Is a
   sinus tach. Concern for volume depletion vs pain related (but was tachy
   on fentanyl). Does not show evidence of bleeding. No PE on CTA. Concern
   for infection as cause, but on abx
   - goal to keep even I/Os today
   - given 500ml bolus NS now
   - hold lasix for now
   # Question of Seizure:  in setting of arrest, on cont EEG, neuro
   following. Per yesterday's eval, no evidence of seizure activity on
   EEG, but was on sedation
   - f/u neuro recs
   - EEG results
   - continue keppra for now
   # Chronic Diastolic HF:  Stable
   - hold lasix of now due to tachycarida
   - I/O goal: even
   # Wrist fracture/Osteoperosis: Pt had a traumatic mechanical fall at
   rehab prior to admission. Fracture of radius and ulna, reduced by ortho
   in ER. Has risk of bone fracture due to chronic high dose steriods.
   - ortho recs appreciated
   - dilaudid IV
   - tylenol 1g Q6H standing
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   # DM, type II:
   - continue SSI from nursing home
   # Anemia of iron def: stable
   - monitor hct
   - continue iron tablets
   # Depression: stable
   - continue celexa
   # Hx of  gastric ulcers: no evidence of GI bleed at this time, no abd
   pain
   - increase PPI to protonix 40mg IV BID for now, since may benifit from
   NASID
   # Hx of recent cellulitis: completed course of vanco
   - monitor for infection
   # FEN: No IVF, replete electrolytes, nutritoin c/s for tube feeds
   # Prophylaxis: pneumoboots
   # Access: peripherals
   # Code:  Full presumed, will need to discuss more with pt once awake
   # Communication: Patient; left message with Mother yesterday
   # Disposition: ICU for now
   ICU Care
   Nutrition: will start tube feeds today
   Glycemic Control:
   Lines:
   PICC Line - [**2126-9-20**] 12:09 AM
   18 Gauge - [**2126-9-20**] 12:09 AM
   20 Gauge - [**2126-9-20**] 04:30 AM
   Arterial Line - [**2126-9-20**] 04:14 PM
   Multi Lumen - [**2126-9-20**] 05:41 PM
   Prophylaxis:
   DVT: fondaparinux
   Stress ulcer: PPI IV
   VAP:  protocol
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition: ICU for now

2126-09-22 09:08:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, PEA arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53yo M with severe TBM, COPD, chronic trach and diastolic heart
   failure, Parkinsonism, now s/p PEA arrest [**2-11**] hypoxemia on trach mask,
   s/p cooling protocol.+
   24 Hour Events:
 COOLING: rewarmed overnight without any complication
   History obtained from Medical records
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2126-9-21**] 08:00 PM
   Cefipime - [**2126-9-21**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-9-22**] 12:00 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-22**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 114 (73 - 120) bpm
   BP: 100/65(77) {91/59(71) - 120/79(93)} mmHg
   RR: 16 (9 - 21) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
   CVP: 9 (8 - 9)mmHg
   Total In:
                                                                  2,296 mL
                                                                  1,392 mL
   PO:
   TF:
   IVF:
                                                                  2,176 mL
                                                                  1,272 mL
   Blood products:
   Total out:
                                                                  2,063 mL
                                                                    345 mL
   Urine:
                                                                  2,063 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    233 mL
                                                                  1,047 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 94%
   ABG: 7.39/46/71/28/1
   Ve: 8.4 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General Appearance: sedated, non-responsive
   Eyes / Conjunctiva: pupils constricted, minimally responsive
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic, regular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   w/transmitted vent sounds, Diminished: at bases bilaterall)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, ecchymosis of L hand
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Tone: Not assessed, no blink to threat, (+) corneal reflex
   Labs / Radiology
   8.3 g/dL
   237 K/uL
   92 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.2 mEq/L
   16 mg/dL
   105 mEq/L
   143 mEq/L
   27.6 %
   12.4 K/uL
        [image002.jpg]
                             [**2126-9-21**]  04:01 AM
                             [**2126-9-21**]  10:11 AM
                             [**2126-9-21**]  12:21 PM
                             [**2126-9-21**]  02:14 PM
                             [**2126-9-21**]  07:58 PM
                             [**2126-9-21**]  08:03 PM
                             [**2126-9-22**]  12:13 AM
                             [**2126-9-22**]  04:08 AM
                             [**2126-9-22**]  04:11 AM
                             [**2126-9-22**]  07:40 AM
   WBC
   12.4
   Hct
   27.6
   Plt
   237
   Cr
   0.5
   0.5
   0.6
   TCO2
   31
   32
   31
   33
   31
   29
   Glucose
   99
   116
   138
   92
   Other labs: PT / PTT / INR:12.0/28.0/1.0, CK / CKMB /
   Troponin-T:396/18/0.03, Lactic Acid:1.0 mmol/L, Ca++:7.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
 SEIZURE/CHANGE IN MENTAL STATUS
   - no seizure activity on EEG per neuro
   - continue [**Last Name (LF) **], [**First Name3 (LF) 178**] monitor carefully while weaning sedation
   - s/p cooling, weaning sedation, still unresponsive with brain stem
   reflexes intact
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   - doing well on current settings
   - continue ventilation awaiting mental status improvement
   - resume home dose steroids
 CARDIAC ARREST
   - [**2-11**] hypoxemia
   - now stable, not requiring pressors
   - d'c stress dose steroids
PNEUMONIA: day 3 vanc/cefepime today, awaiting speciation of BAL
   - f/u sputum culture
TACHYCARDIA
   - unclear etiology, ? responsive to fluid bolus overnight
   - 500cc bolus and will follow HR
   - consider fentanyl bolus for ? pain if no imprvmnt with fluids
 FRACTURE, OTHER
   - ecchymosis of L hand, stable from prior per team
   - followed by Ortho
   ICU Care
   Nutrition:
   Comments: will start TF today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-9-20**] 12:09 AM
   18 Gauge - [**2126-9-20**] 12:09 AM
   20 Gauge - [**2126-9-20**] 04:30 AM
   Arterial Line - [**2126-9-20**] 04:14 PM
   Multi Lumen - [**2126-9-20**] 05:41 PM
   Prophylaxis:
   DVT: (fondaparinux)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 20 minutes
   Patient is critically ill

2126-09-23 07:40:00 Physician Resident Progress Note
MICU RESIDENT PROGRESS NOTE
   Chief Complaint: s/p PEA arrest
   24 Hour Events:
   - neuro was concerned about decreased withdrawal from pain in UEs, head
   CT was ordered
   - EEG without sz activity
   - updated his sister and mother
   - started tube feeds
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2126-9-22**] 08:00 PM
   Cefipime - [**2126-9-22**] 10:00 PM
   Ciprofloxacin - [**2126-9-23**] 02:04 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-9-23**] 12:00 AM
   Fentanyl - [**2126-9-23**] 01:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-23**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.7
C (99.9
   HR: 99 (97 - 124) bpm
   BP: 119/79(94) {103/71(85) - 144/98(111)} mmHg
   RR: 18 (10 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 14 (11 - 16)mmHg
   Total In:
                                                                  4,424 mL
                                                                    570 mL
   PO:
   TF:
                                                                    200 mL
                                                                    297 mL
   IVF:
                                                                  3,714 mL
                                                                     92 mL
   Blood products:
   Total out:
                                                                  1,425 mL
                                                                    390 mL
   Urine:
                                                                  1,425 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,999 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 19 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 96%
   ABG: 7.41/51/84.[**Numeric Identifier 1625**]/34/5
   Ve: 9 L/min
   PaO2 / FiO2: 210
   Physical Examination
   GEN: intermittently responsive to commands, trached on vent
   HEENT: PERRL, able to open  mouth
   CHEST: poor air movement
   CV: tachy, no m/r/g
   ABD: NDNT, soft, NABS
   EXT: no c/c/e
   NEURO: able to smile, does not wiggle fingers, does not respond to
   pain, toes upgoing
   Labs / Radiology
   256 K/uL
   8.9 g/dL
   135 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.7 mEq/L
   15 mg/dL
   107 mEq/L
   144 mEq/L
   29.3 %
   11.5 K/uL
        [image002.jpg]
                             [**2126-9-22**]  12:13 AM
                             [**2126-9-22**]  04:08 AM
                             [**2126-9-22**]  04:11 AM
                             [**2126-9-22**]  07:40 AM
                             [**2126-9-22**]  01:36 PM
                             [**2126-9-22**]  01:54 PM
                             [**2126-9-22**]  06:26 PM
                             [**2126-9-22**]  06:41 PM
                             [**2126-9-23**]  04:02 AM
                             [**2126-9-23**]  04:07 AM
   WBC
   12.4
   11.5
   Hct
   27.6
   29.3
   Plt
   237
   256
   Cr
   0.5
   0.6
   0.6
   0.6
   0.6
   TCO2
   31
   29
   31
   32
   33
   Glucose
   138
   92
   145
   160
   135
   Other labs: PT / PTT / INR:11.2/26.1/0.9, CK / CKMB /
   Troponin-T:396/18/0.03, ALT / AST:33/50, Alk Phos / T Bili:35/0.2,
   Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, Ca++:8.1 mg/dL, Mg++:2.1
   mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   53 yo m admitted to MICU for respiratory distress and now s/p PEA
   arrest [**2126-9-20**] on Arctic Sun cooling protocol.
   # S/P PEA Arrest: Likely secondary to hypoxic event, mucus plug.
   Completed rewarming. Concern for anxoic brain injury. Pt off sedation
   and not arousing to command.
   - f/u final head ct; Repeat head CT on [**9-22**], prelim read without
   changes.
   - monitor mental status off sedation
   - monitor on tele
   - continue EEG moitoring
   # Respiratory Alkalosis/Hypercarbia/Hypoxia: ABG improved. Bronch with
   pseudomonas, sensitivity pending. Has severe COPD at baseline.  CXR
   with low lung volumes and concern for infiltrate.
   - monitor ABGs
   - AC on vent for now, will wean as tolerated
   - continue vanco/ cefepime
 d/c cipro as cefepime should cover
   pseudomonas adequately
   - f/u sputum sensitivities (likely need to change to meropenem)
   - albuterol, ipratropium nebs
   - change to home steriods
   - continue bactrim ppx
   - change to PS today
   # Fever: Had a fever priro to cooling, infection vs from acute
   stress/brain injury. Has pseudomonas in lungs.
   - continue vanco/cefepime
   - f/u cx as above
   - start aminoglycoslide if spikes
   # Tachycarida: had on admission, now returned after rewarming. Is a
   sinus tach. Concern for volume depletion vs pain related (but was tachy
   on fentanyl). Does not show evidence of bleeding. No PE on CTA. Concern
   for infection as cause, but on abx.  Slight improvement with fluid
   bolus.
   - goal to keep even to -500 cc today
   - start 40 lasix [**Hospital1 **]
   # Question of Seizure:  in setting of arrest, on cont EEG, neuro
   following. Per yesterday's eval, no evidence of seizure activity on
   EEG, but was on sedation
   - f/u neuro recs
   - f/u eeg
   - continue keppra for now
   # Chronic Diastolic HF:  Stable
   - start lasix 40 [**Hospital1 **]
   - I/O goal even to
 500 cc
   # Wrist fracture/Rib fracture/Osteoperosis: Pt had a traumatic
   mechanical fall at rehab prior to admission. Fracture of radius and
   ulna, reduced by ortho in ER. Has risk of bone fracture due to chronic
   high dose steriods.
   - ortho recs appreciated
 not planning on surgery.
   - dilaudid IV
   - tylenol 1g Q6H standing
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   # DM, type II:
   - continue SSI from nursing home
   # Anemia of iron def: stable
   - monitor hct
   - continue iron tablets
   # Depression: stable
   - continue celexa
   # Hx of  gastric ulcers: no evidence of GI bleed at this time, no abd
   pain
   - can change to PPI once a day since now on home steriods dose
   # Hx of recent cellulitis: completed course of vanco
   - monitor for infection
   # FEN: No IVF, replete electrolytes, tube feeds
   # Code:  Full per HCP
   ICU [**Name (NI) **]
   Nutrition:
   [**Name (NI) 7471**] HN (Full) - [**2126-9-22**] 02:00 PM 40 mL/hour
   Glycemic Control:
   Lines:  D/C PICC today
   PICC Line - [**2126-9-20**] 12:09 AM
   18 Gauge - [**2126-9-20**] 12:09 AM
   20 Gauge - [**2126-9-20**] 04:30 AM
   Arterial Line - [**2126-9-20**] 04:14 PM
   Multi Lumen - [**2126-9-20**] 05:41 PM
   Prophylaxis:
   DVT: fondaparinux
   Stress ulcer: PPI
   VAP:  protocol
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2126-09-23 11:46:00 Physician Attending Progress Note
Chief Complaint: Right arm fracture, s/p induced hypothermia for PEA
   arrest.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Starting to turn head, grimace to pain in upperextremities, + corneal
   reflexes. Continues on keppra for seizure prophylaxis, no further
   seizure acitvity. Started on tube feeds. Repeat head CT prelim read
   unchanged from previous.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Cefipime - [**2126-9-22**] 10:00 PM
   Ciprofloxacin - [**2126-9-23**] 02:04 AM
   Vancomycin - [**2126-9-23**] 08:24 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-9-23**] 12:00 AM
   Fentanyl - [**2126-9-23**] 01:02 AM
   Other medications:
   HISS, vanco, cefepime, cipro, keppra, fondaparinux, colace, prednisone
   15-20 alternating, senna, mirapex, vitamin D, asa 325, tylenol,
   bactrim, ferrous sulfate, calcium carbonate, atrovent q6, pantoprazole,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-23**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.5
C (99.5
   HR: 103 (97 - 124) bpm
   BP: 131/90(107) {103/71(85) - 138/116(124)} mmHg
   RR: 16 (15 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 86.2 kg (admission): 78 kg
   Height: 65 Inch
   CVP: 11 (11 - 16)mmHg
   Total In:
                                                                  4,424 mL
                                                                  1,139 mL
   PO:
   TF:
                                                                    200 mL
                                                                    464 mL
   IVF:
                                                                  3,714 mL
                                                                    435 mL
   Blood products:
   Total out:
                                                                  1,425 mL
                                                                    720 mL
   Urine:
                                                                  1,425 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,999 mL
                                                                    419 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: 7.41/51/84.[**Numeric Identifier 1625**]/34/5
   Ve: 8.9 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Increased, smiles on verbal command, opens mouth on verbal
   command
   Labs / Radiology
   8.9 g/dL
   256 K/uL
   135 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.7 mEq/L
   15 mg/dL
   107 mEq/L
   144 mEq/L
   29.3 %
   11.5 K/uL
         [image002.jpg]
                             [**2126-9-22**]  12:13 AM
                             [**2126-9-22**]  04:08 AM
                             [**2126-9-22**]  04:11 AM
                             [**2126-9-22**]  07:40 AM
                             [**2126-9-22**]  01:36 PM
                             [**2126-9-22**]  01:54 PM
                             [**2126-9-22**]  06:26 PM
                             [**2126-9-22**]  06:41 PM
                             [**2126-9-23**]  04:02 AM
                             [**2126-9-23**]  04:07 AM
   WBC
   12.4
   11.5
   Hct
   27.6
   29.3
   Plt
   237
   256
   Cr
   0.5
   0.6
   0.6
   0.6
   0.6
   TCO2
   31
   29
   31
   32
   33
   Glucose
   138
   92
   145
   160
   135
   Other labs: PT / PTT / INR:11.2/26.1/0.9, CK / CKMB /
   Troponin-T:396/18/0.03, ALT / AST:33/50, Alk Phos / T Bili:35/0.2,
   Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, Ca++:8.1 mg/dL, Mg++:2.1
   mg/dL, PO4:2.0 mg/dL
   Imaging: CXR: stable.
   Microbiology: sputum with pseudomonas in sputum and BAL.
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS;
   no further episodes, contineu keppra.
 CARDIAC ARREST:
   s/p induced hypothermia, more responsive this am. continue keprra,
   follow up neurology reqs. continues on EEG monitoring.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):
   right lower lobe pneumonia, on vanco/cefepime. follow up sputum
   cultures final senses. afebrile currently if spike again will start
   amikacin for pseudomonas. Continue albuterol/ipratropium, continue home
   steroid dose. Attempt to switch to PS today.
 FRACTURE, OTHER
   Right wrist, ortho following, fracture adequately reduced for now.
   Continue to monitor pulses and perfusion to the arm.
Tachycardia:
   No evidence of volume dpletion, on fentanyl for pain, may be [**2-11**] to
   infection. Will monitor. Will need echo down the line.
Diastolic heart failure:
   resume home lasix.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-9-23**] 07:31 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-9-20**] 12:09 AM
   18 Gauge - [**2126-9-20**] 12:09 AM
   20 Gauge - [**2126-9-20**] 04:30 AM
   Arterial Line - [**2126-9-20**] 04:14 PM
   Multi Lumen - [**2126-9-20**] 05:41 PM
   Comments: will pull PICC catheter.
   Prophylaxis:
   DVT: Boots(s/c fondaparinux)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Some improvement in mental status. Remains on vent.
   Exam notable for Tmax: 37.8
C (100
F)   Tcurrent: 37.5
C (99.5
   HR: 103 (97 - 124) bpm  BP: 131/90(107) {103/71(85) - 138/116(124)}
   mmHg  RR: 16 (15 - 25) insp/min  SpO2: 95%
   Balance:   2,999 mL   419 mL
   CMV 16/500/10/40%  PIP: 28 cmH2O  Plateau: 19 cmH2O
   ABG: 7.41/51/84.[**Numeric Identifier 1625**]/34/5     Ve: 8.9 L/min   PaO2 / FiO2: 210
   Vented through trach, arousable, following simple commands
   Neck supple
   breath sounds rhonchorous
   hrt rrr
   abd benign
   no edema
   Labs reviewed, recorded above
   Imaging: CXR stable bilateral effusions, atelectasis
   Problems: resp failure, cardiac arrest, neurological impaiment
   post-arrest, seizure, COPD, wrist fracture
   Agree with plan to continue vent support, wean as tolerated, cont
   serial neuro assessments, cont keppra, cont splint for wrist
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 37 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2126-9-23**] 16:30 ------

2126-09-24 07:34:00 Physician Resident Progress Note
Chief Complaint: wrist pain
   24 Hour Events:
 PICC LINE - STOP [**2126-9-23**] 01:00 PM
   - final head CT negative
   - EEG from neuro note: slow background but no epileptiform discharges
   - Neuro recs: discontinued EEG monitoring, continue keppra 500 mg po
   BID for now, MRI in future to assess for infracts, but unlikely to
   change plan at time, defer until more stable
   - started lasix 40 mg po BID (home dose)
   - D/C PICC
   - 45 min of PS with RR 20s, diaphoretic --> back to AC --> ABG PO2 116
   --> decreased Fi O2 to 30%
   - sputum / BAL susceptibilities --> changed cefepime to meropenem
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2126-9-23**] 02:04 AM
   Bactrim (SMX/TMP) - [**2126-9-23**] 08:04 AM
   Cefipime - [**2126-9-23**] 10:03 AM
   Vancomycin - [**2126-9-23**] 08:00 PM
   Meropenem - [**2126-9-24**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Fondaparinux - [**2126-9-23**] 04:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-24**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 102 (92 - 114) bpm
   BP: 145/88(108) {109/73(92) - 145/116(263)} mmHg
   RR: 17 (13 - 28) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 86.2 kg (admission): 78 kg
   Height: 65 Inch
    CVP: 2 (2 - 20)mmHg
   Total In:
                                                                  2,547 mL
                                                                    952 mL
   PO:
   TF:
                                                                  1,223 mL
                                                                    453 mL
   IVF:
                                                                    964 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                  3,860 mL
                                                                    580 mL
   Urine:
                                                                  3,860 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,313 mL
                                                                    372 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 644 (644 - 644) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 30%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 15 cmH2O
   Compliance: 125 cmH2O/mL
   SpO2: 94%
   ABG: 7.44/56/91/36/11
   Ve: 7.1 L/min
   PaO2 / FiO2: 303
   Physical Examination
   GEN
   HEENT
   CHEST
   CV
   ABD
   EXT
   NEURO
   Labs / Radiology
   293 K/uL
   9.2 g/dL
   148 mg/dL
   0.6 mg/dL
   36 mEq/L
   3.6 mEq/L
   16 mg/dL
   103 mEq/L
   144 mEq/L
   30.2 %
   11.7 K/uL
        [image002.jpg]
                             [**2126-9-22**]  01:54 PM
                             [**2126-9-22**]  06:26 PM
                             [**2126-9-22**]  06:41 PM
                             [**2126-9-23**]  04:02 AM
                             [**2126-9-23**]  04:07 AM
                             [**2126-9-23**]  04:01 PM
                             [**2126-9-23**]  05:32 PM
                             [**2126-9-23**]  07:55 PM
                             [**2126-9-24**]  04:21 AM
                             [**2126-9-24**]  04:35 AM
   WBC
   11.5
   11.7
   Hct
   29.3
   30.2
   Plt
   256
   293
   Cr
   0.6
   0.6
   0.4
   0.6
   TCO2
   31
   32
   33
   36
   35
   39
   Glucose
   160
   135
   130
   148
   Other labs: PT / PTT / INR:11.2/26.1/0.9, CK / CKMB /
   Troponin-T:396/18/0.03, ALT / AST:35/45, Alk Phos / T Bili:37/0.2,
   Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, Ca++:8.3 mg/dL, Mg++:2.1
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   53 yo m admitted to MICU for respiratory distress and now s/p PEA
   arrest [**2126-9-20**] s/p Arctic Sun cooling protocol.
   # S/P PEA Arrest: Likely secondary to hypoxic event, mucus plug.
   Completed rewarming. Concern for anxoic brain injury. Pt off sedation
   and somewhat responsive to commands. [**9-22**] head Ct with no pathology.
   EEG completed per neuro and without epileptiform discharges. Not
   following commands. Not responding to pain, verbal stimuli.
   - monitor mental status off sedation
   - monitor on tele
   - continue keppra for now
   # Respiratory Alkalosis/Hypercarbia/Hypoxia: ABG improved. Bronch with
   pseudomonas and sensitive to meropenem. Has severe COPD at baseline.
   CXR with low lung volumes and concern for infiltrate. Also with
   evidence of bilateral effusions on CXR. Did not tolerate PS yesterday.
   Became tachpneic. O2 sats well. Desatted in setting of turn yesterday.
   Required recruitment maneuver. [**Month (only) 60**] still have component of of volume
   overload. Will further diurese prior to weaning down PEEP.
   - monitor ABGs
   - AC on vent for now, FiO2 slightly decreased to 30%
   - diurese with goal of
 2L today
   - continue meropenem x 8 day course
   - albuterol, ipratropium nebs
   - continue home steroids
   - continue bactrim ppx
   -
   # Fever: Had a fever prior to cooling, infection vs from acute
   stress/brain injury. Has pseudomonas in lungs.
   - given sputum susceptibilities, continue meropenem x 8 days, Day [**2-17**]
   today
   - monitor fever curve
   - d/c vanco
   # Tachycardia: had on admission, now returned after rewarming. Is a
   sinus tach. Does not show evidence of bleeding. No PE on CTA. Concern
   for infection as cause, but on abx.  Bolused  without improvement. No
   improvement with fentanyl.
   - monitor for now
   # Question of Seizure:  in setting of arrest, on cont EEG, neuro
   following. Per yesterday's eval, no evidence of seizure activity on
   EEG, but was on sedation
   - f/u neuro recs
   - continue keppra for now
   - MRI in future
   # Chronic Diastolic HF:  Stable
   - started lasix 40 [**Hospital1 **]
   - I/O goal: -1-2L
   # Wrist fracture/Rib fracture/Osteoperosis: Pt had a traumatic
   mechanical fall at rehab prior to admission. Fracture of radius and
   ulna, reduced by ortho in ER. Has risk of bone fracture due to chronic
   high dose steriods.
   - ortho recs appreciated
 not planning on surgery.
   - dilaudid IV
   - tylenol 1g Q6H standing
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   # DM, type II:
   - continue SSI from nursing home
   # Anemia of iron def: stable
   - monitor hct
   - continue iron tablets
   # Depression: stable
   - continue celexa
   # Hx of  gastric ulcers: no evidence of GI bleed at this time, no abd
   pain
   - can change to PPI once a day since now on home steroids dose
   # Hx of recent cellulitis: completed course of vanco
   - monitor for infection
   # FEN: No IVF, replete electrolytes, tube feeds
   # Code:  Full per HCP
   ICU [**Name (NI) **]
   Nutrition:
   [**Name (NI) 7471**] HN (Full) - [**2126-9-24**] 01:10 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-9-20**] 04:14 PM
   Multi Lumen - [**2126-9-20**] 05:41 PM
   Prophylaxis:
   DVT: Fondaparinux
   Stress ulcer: Pantoprazole
   VAP:  HOB
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2126-09-24 10:15:00 Physician Attending Progress Note
Chief Complaint: Right arm fracture, hypercarbia, PEA arrest.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   PICC line removed, EEG no epileptiform activity, continuous EEG
   stopped. Trial ofPS with developed of tachypnea and diphoresis, sputum
   BAL suseptibilty  with pseudomonas sensitive to meropenem and resistant
   to cefepime. S/p disimpaction, no further bowel movements.
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2126-9-23**] 02:04 AM
   Bactrim (SMX/TMP) - [**2126-9-23**] 08:04 AM
   Cefipime - [**2126-9-23**] 10:03 AM
   Vancomycin - [**2126-9-24**] 08:00 AM
   Meropenem - [**2126-9-24**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Fondaparinux - [**2126-9-23**] 04:20 PM
   Other medications:
   fentanyl drip, prednisone 15-20, senna, mirapex, vitaimin D,
   citalopram, atroven, pantoprazole, lasix 40 [**Hospital1 **].
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-24**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.7
   HR: 100 (92 - 114) bpm
   BP: 110/93(101) {106/73(92) - 145/119(263)} mmHg
   RR: 15 (13 - 29) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 86.2 kg (admission): 78 kg
   Height: 65 Inch
   CVP: 2 (2 - 20)mmHg
   Total In:
                                                                  2,547 mL
                                                                  1,627 mL
   PO:
   TF:
                                                                  1,223 mL
                                                                    570 mL
   IVF:
                                                                    964 mL
                                                                    707 mL
   Blood products:
   Total out:
                                                                  3,860 mL
                                                                    770 mL
   Urine:
                                                                  3,860 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,313 mL
                                                                    857 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 644 (644 - 644) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 30%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 18 cmH2O
   Compliance: 71.4 cmH2O/mL
   SpO2: 94%
   ABG: 7.44/56/91/36/11
   Ve: 5.7 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: Overweight / Obese, No(t) Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , Rhonchorous: bilaterally )
   Abdominal: Soft, Non-tender, Distended, mildly distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to:
   Unresponsive, Oriented (to): , Movement: Non -purposeful, Tone:
   Increased
   Labs / Radiology
   9.2 g/dL
   293 K/uL
   148 mg/dL
   0.6 mg/dL
   36 mEq/L
   3.6 mEq/L
   16 mg/dL
   103 mEq/L
   144 mEq/L
   30.2 %
   11.7 K/uL
        [image002.jpg]
                             [**2126-9-22**]  01:54 PM
                             [**2126-9-22**]  06:26 PM
                             [**2126-9-22**]  06:41 PM
                             [**2126-9-23**]  04:02 AM
                             [**2126-9-23**]  04:07 AM
                             [**2126-9-23**]  04:01 PM
                             [**2126-9-23**]  05:32 PM
                             [**2126-9-23**]  07:55 PM
                             [**2126-9-24**]  04:21 AM
                             [**2126-9-24**]  04:35 AM
   WBC
   11.5
   11.7
   Hct
   29.3
   30.2
   Plt
   256
   293
   Cr
   0.6
   0.6
   0.4
   0.6
   TCO2
   31
   32
   33
   36
   35
   39
   Glucose
   160
   135
   130
   148
   Other labs: PT / PTT / INR:11.2/26.1/0.9, CK / CKMB /
   Troponin-T:396/18/0.03, ALT / AST:35/45, Alk Phos / T Bili:37/0.2,
   Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, Ca++:8.3 mg/dL, Mg++:2.1
   mg/dL, PO4:2.2 mg/dL
   Imaging: CXR bilateral pleural effusion R>L stable, Lines in good
   position.
   Microbiology: Sputum with pseudomona.
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   no recurrence on keppra, continue to monitor.
 CARDIAC ARREST
   s/p cooling protocol. Still without consistent reponse, not following
   any commands today. Doesnot withdraw left arm, head CT with no clear
   stroke, will need MRI, but will not alter managment now. Will di/c
   fentanyl and continue frequent assessment of responsivness.  Continue
   to monitor, appreciate neuro's recommendations. Will contact sister
   today.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Volume overload, + baseline severe COPD. Will diurese -1-2L, will
   perform ultrasoudn of bases to assess for size of effusions. Treating
   RLL pseudomonal pneumonia, continue meropenem x14days, will d/c
   vancomcyin.
 FRACTURE, OTHER
   R wrist, appreciate ortho's recommendations. Will likely need
   bisphosphonate before discharge.
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-9-20**] 04:14 PM
   Multi Lumen - [**2126-9-20**] 05:41 PM
   Prophylaxis:
   DVT: Boots(s/c fondaparinux)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   Mr. [**Known lastname 6115**] again had an episode of respiratory distress this morning
   as his sedation was being weaned. He developed a significant leak
   around his trach and was exhaling most of each tidal volume through his
   mouth. We replaced the trach once to a similar size and the problem was
   not corrected. We contact[**Name (NI) **] the IP service and the trach was changed to
   a Bovona 6 and the leak has improved though is persistent. Efforts at
   correcting this are ongoing. Otherwise the plan remains vent support,
   antibiotics, COPD treatment and close following of his mental status.
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2126-9-24**] 15:25 ------
   cc time 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2126-9-24**] 15:27 ------

2126-09-25 07:44:00 Physician Resident Progress Note
24 Hour Events:
 NASAL SWAB - At [**2126-9-24**] 10:30 AM
 EKG - At [**2126-9-24**] 11:10 AM
 BRONCHOSCOPY - At [**2126-9-24**] 11:50 AM
   trach exchange d/t cuff consistantly loosing pressure.
 BRONCHOSCOPY - At [**2126-9-24**] 01:00 PM
   IP performed another trach exchange w/ longer 6mm adjustable trach.
 EKG - At [**2126-9-24**] 04:00 PM
   Persistent cuff leak; Changed ETT without improvement.
   Decreased PEEP to 5 to minimize leak. Repeat ABG with drop in p02
   therefore increased FI02.
   Repleted K.
   Updated family
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2126-9-23**] 02:04 AM
   Bactrim (SMX/TMP) - [**2126-9-23**] 08:04 AM
   Cefipime - [**2126-9-23**] 10:03 AM
   Vancomycin - [**2126-9-24**] 08:00 AM
   Meropenem - [**2126-9-25**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2126-9-24**] 11:20 AM
   Fentanyl - [**2126-9-24**] 12:50 PM
   Fondaparinux - [**2126-9-24**] 04:00 PM
   Pantoprazole (Protonix) - [**2126-9-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-25**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 100 (92 - 145) bpm
   BP: 112/65(81) {89/62(72) - 172/160(341)} mmHg
   RR: 14 (11 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 86.4 kg (admission): 78 kg
   Height: 65 Inch
    CVP: 17 (8 - 109)mmHg
   Total In:
                                                                  2,999 mL
                                                                    405 mL
   PO:
   TF:
                                                                    670 mL
   IVF:
                                                                  1,709 mL
                                                                    285 mL
   Blood products:
   Total out:
                                                                  2,971 mL
                                                                    585 mL
   Urine:
                                                                  2,971 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     28 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 305 (305 - 305) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 21 cmH2O
   Plateau: 9 cmH2O
   SpO2: 98%
   ABG: 7.42/65/96.[**Numeric Identifier 244**]/37/13
   Ve: 2.9 L/min
   PaO2 / FiO2: 242
   Physical Examination
   GEN: intermittently responsive to commands, trached on vent
   HEENT: PERRL, able to open  mouth
   CHEST: poor air movement
   CV: tachy, no m/r/g
   ABD: NDNT, soft, NABS
   EXT: no c/c/e
   NEURO: able to smile, does not wiggle fingers, does not respond to
   pain, toes upgoing
   Labs / Radiology
   293 K/uL
   8.7 g/dL
   88 mg/dL
   0.5 mg/dL
   37 mEq/L
   3.6 mEq/L
   15 mg/dL
   104 mEq/L
   147 mEq/L
   29.0 %
   15.2 K/uL
        [image002.jpg]
                             [**2126-9-24**]  04:35 AM
                             [**2126-9-24**]  11:05 AM
                             [**2126-9-24**]  11:16 AM
                             [**2126-9-24**]  12:11 PM
                             [**2126-9-24**]  03:15 PM
                             [**2126-9-24**]  05:25 PM
                             [**2126-9-24**]  06:45 PM
                             [**2126-9-25**]  12:14 AM
                             [**2126-9-25**]  04:37 AM
                             [**2126-9-25**]  04:47 AM
   WBC
   15.2
   Hct
   29.0
   Plt
   293
   Cr
   0.5
   0.5
   TropT
   0.03
   0.03
   TCO2
   39
   37
   39
   41
   41
   41
   45
   44
   Glucose
   153
   88
   Other labs: PT / PTT / INR:11.2/26.1/0.9, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:35/45, Alk Phos / T Bili:37/0.2,
   Lactic Acid:1.9 mmol/L, Albumin:2.9 g/dL, Ca++:8.1 mg/dL, Mg++:1.9
   mg/dL, PO4:2.9 mg/dL
[**2126-9-24**] 5:42 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2126-9-24**]):
      [**11-3**] PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):
[**2126-9-20**] 4:04 pm BRONCHOALVEOLAR LAVAGE
                            **FINAL REPORT [**2126-9-24**]**
   GRAM STAIN (Final [**2126-9-20**]):
      3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Final [**2126-9-24**]):
      ~5000/ML OROPHARYNGEAL FLORA.
      PSEUDOMONAS AERUGINOSA.    10,000-100,000 ORGANISMS/ML..
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |
CEFEPIME--------------    16 I
CEFTAZIDIME-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------     2 S
MEROPENEM-------------     4 S
PIPERACILLIN---------- =>128 R
PIPERACILLIN/TAZO-----       R
   TOBRAMYCIN------------   <=1 S
   CXR [**9-24**]
   FINDINGS: In comparison to the previous study of the same date there
   are low
   lung volumes. Significant respiratory motion artifact is limiting
   evaluation;
   large bilateral pleural effusions are probably unchanged. The
   tracheostomy
   tube and right central venous line are unchanged. Accurate evaluation
   of the
   NG tube below the level of the diaphragm is not possible.
   Assessment and Plan
   53 yo m admitted to MICU for respiratory distress and now s/p PEA
   arrest [**2126-9-20**] s/p Arctic Sun cooling protocol.
   # Respiratory Distress: Had acute respiratory distress yesterday AM
   with hypertension, tachycardia in setting of shutting off Fentanyl
   gtt.  Wheezing on exam.  CXR did not show much change from previous of
   known large bilateral pleural effusions.  ABG throughout was unchanged,
   but pt continued to have increased WOB and forced expiration. Bronch
   without large mucus plug or secretions.  Found to have cuff leak and
   changed ETT without improvement; pt without much tracheal cartilage
   left and appears will have residual cuff leak.  Per RT last night,
   applied PEEP 0, and concern that PEEP is not having much effect.
   - continue current vent settings
   - continue sedation with Fentanyl and will wean propofol
   - continue to diurese with goal -1 to -2 L
   - continue meropenem x 8 day course, day 3
   - RTC albuterol, ipratroprium nebs
   - continue home steroids
   - continue bactrim ppx
   - start fentanyl patch
   # S/P PEA Arrest: Likely secondary to hypoxic event, mucus plug.
   Completed rewarming. Concern for anxoic brain injury.   [**9-22**] head Ct
   with no pathology. EEG completed per neuro and without epileptiform
   discharges. Follows simple commands- would stick out tounge and smile
   today. Not responding to pain, verbal stimuli today.
   - daily wake ups off sedation to monitor mental status
   - monitor on tele
   - continue keppra for now
   # Fever: Had a fever prior to cooling, infection vs from acute
   stress/brain injury. Has pseudomonas in lungs.
   - given sputum susceptibilities, continue meropenem x 8 days, Day [**3-17**]
   today
   - monitor fever curve
   - blood, urine, sptutum cx today (may not mount fever since on steriods
   and tylenol)
   # Leukocytosis: elevated today.  s/p complete course of abx for
   cellulitis; on meropenem for probably pna
   - continue abx
   - monitor fever curve
   - CIS
   # Hypernatremia: elevated to 147 today
   - increase free water flushes to 100 q6 hours
   - [**Hospital1 **] lytes
   # Sinus Tachycardia: had on admission, now returned after rewarming.
   Does not show evidence of bleeding. No PE on CTA. Concern for infection
   as cause, but on abx.  Bolused without improvement. No improvement with
   fentanyl.
   - monitor for now
   # Question of Seizure:  in setting of arrest, neuro following.
   - f/u neuro recs
   - continue keppra for now
   - MRI in future
   # Chronic Diastolic HF:  Stable
   - continue lasix 40 [**Hospital1 **] and IV PRN
   - I/O goal: -1-2L
   # Wrist fracture/Rib fracture/Osteoperosis: Pt had a traumatic
   mechanical fall at rehab prior to admission. Fracture of radius and
   ulna, reduced by ortho in ER. Has risk of bone fracture due to chronic
   high dose steriods.
   - ortho recs appreciated
 not planning on surgery.
   - on fentanyl, will start patch
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   # DM, type II:
   - continue SSI from nursing home
   # Anemia of iron def: stable
   - monitor hct
   - continue iron tablets
   - active T&S
   # Depression: stable
   - continue celexa
   # Hx of  gastric ulcers: no evidence of GI bleed at this time, no abd
   pain
   - can change to PPI once a day since now on home steroids dose
   # Hx of recent cellulitis: completed course of vanco
   - monitor for infection
   # FEN: No IVF, replete electrolytes, tube feeds
   # Code:  Full per HCP
   ICU [**Name (NI) **]
   Nutrition: TF will increase free water flushes
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-9-20**] 04:14 PM
   Multi Lumen - [**2126-9-20**] 05:41 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:  HOB
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2126-09-25 11:40:00 Physician Attending Progress Note
Chief Complaint: COPD, osteoporosis, wrist fracture, PEA arrest.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Echocardiogram with RV failure and stable pulmonary pressures compared
   to prior imaging, Cardiology in process of comparing current echo
   imaging to prior imaging, to assess if RV failure is new. Episode of
   tachypnea, tachycardia, and hypertension yesterday s/p weaning of
   sedation, with significant Autopeep. Started back on sedation. Had
   variable leak around trach, so this was exchanged to long trach without
   significant benefit, position confirmed by bronchoscopy. Large BM this
   am.
   Patient unable to provide history: Sedated
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2126-9-23**] 02:04 AM
   Bactrim (SMX/TMP) - [**2126-9-23**] 08:04 AM
   Cefipime - [**2126-9-23**] 10:03 AM
   Vancomycin - [**2126-9-24**] 08:00 AM
   Meropenem - [**2126-9-25**] 08:33 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2126-9-24**] 11:20 AM
   Fondaparinux - [**2126-9-24**] 04:00 PM
   Pantoprazole (Protonix) - [**2126-9-25**] 12:00 AM
   Fentanyl - [**2126-9-25**] 09:15 AM
   Other medications:
   HISS, keppra, fondaparinux, colace, prednisone 15-20, senna, mirapex,
   vitamin D, asa 325, tylenol, bactrim MWF, celexa, ferroussulfate,
   calcium carbonate, atrovent, pantoprazole, lasix 40mg png [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-25**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.4
   HR: 108 (92 - 145) bpm
   BP: 112/81(94) {89/62(72) - 183/160(341)} mmHg
   RR: 22 (11 - 25) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 86.4 kg (admission): 78 kg
   Height: 65 Inch
   CVP: 17 (14 - 109)mmHg
   Total In:
                                                                  2,999 mL
                                                                    914 mL
   PO:
   TF:
                                                                    670 mL
                                                                    249 mL
   IVF:
                                                                  1,709 mL
                                                                    545 mL
   Blood products:
   Total out:
                                                                  2,971 mL
                                                                  1,285 mL
   Urine:
                                                                  2,971 mL
                                                                  1,285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     28 mL
                                                                   -370 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 305 (305 - 305) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 21 cmH2O
   Plateau: 9 cmH2O
   SpO2: 91%
   ABG: 7.42/65/96.[**Numeric Identifier 244**]/37/13
   Ve: 2.9 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t) Thin
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Resonant : ), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, turns to voice, smiles and protrudes
   tongue to command, withdraws left hand to pain.
   Labs / Radiology
   8.7 g/dL
   293 K/uL
   88 mg/dL
   0.5 mg/dL
   37 mEq/L
   3.6 mEq/L
   15 mg/dL
   104 mEq/L
   147 mEq/L
   29.0 %
   15.2 K/uL
        [image002.jpg]
                             [**2126-9-24**]  04:35 AM
                             [**2126-9-24**]  11:05 AM
                             [**2126-9-24**]  11:16 AM
                             [**2126-9-24**]  12:11 PM
                             [**2126-9-24**]  03:15 PM
                             [**2126-9-24**]  05:25 PM
                             [**2126-9-24**]  06:45 PM
                             [**2126-9-25**]  12:14 AM
                             [**2126-9-25**]  04:37 AM
                             [**2126-9-25**]  04:47 AM
   WBC
   15.2
   Hct
   29.0
   Plt
   293
   Cr
   0.5
   0.5
   TropT
   0.03
   0.03
   TCO2
   39
   37
   39
   41
   41
   41
   45
   44
   Glucose
   153
   88
   Other labs: PT / PTT / INR:11.2/26.1/0.9, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:35/45, Alk Phos / T Bili:37/0.2,
   Lactic Acid:1.9 mmol/L, Albumin:2.9 g/dL, Ca++:8.1 mg/dL, Mg++:1.9
   mg/dL, PO4:2.9 mg/dL
   Imaging: CXR improved lung aeration, bilateral pleural effusions.
   Microbiology: Sputum with pseudomonas.
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   s/p long trach placement yesterday, weaned peep and he continue with
   intermittent leak, currently with no leak.
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   continue keppra, follow up neuro-recommendations.
 CARDIAC ARREST:
   f/u final echo read. By report LV function is wnl. Will diurese with iv
   lasix today in addition to po lasix. Follow up daily weights.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):
   appears to be volume overloaded, diurese -1-1.5L. Will attempt to
   switch to PS this afternoon. D3/8 of meropenem.
Leukocytosis:
   Will reculture due to increased leukocytosis.
Hypernatremia: start free water repletion. 100cc/hr.
 FRACTURE, OTHER
   start on low dose fentanyl patch for pain, start on 50mcg fentanyl
   patch for now.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-9-24**] 09:29 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-9-20**] 04:14 PM
   Multi Lumen - [**2126-9-20**] 05:41 PM
   Prophylaxis:
   DVT: Boots(s/c fondaparinux)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments: start chlorhexidine.
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   Mr. [**Known lastname 6115**] has been stable from a respiratory standpoint. His cuff
   leak is positional and he is ventilating without difficulty. This
   morning his mental status was briefly improved though since then there
   has been more concern for seizures. The neurology service is involved
   and another EEG will be performed. We will continue to support him on
   the vent and hope that his mental status improves further.
   cc:  36 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2126-9-25**] 16:35 ------

2126-09-26 07:14:00 Physician Resident Progress Note
24 Hour Events:
 TRANSTHORACIC ECHO - At [**2126-9-25**] 09:24 AM
 EKG - At [**2126-9-25**] 10:16 AM
 BLOOD CULTURED - At [**2126-9-25**] 11:50 AM
   Blood Culturs x2
 SPUTUM CULTURE - At [**2126-9-25**] 12:00 PM
 URINE CULTURE - At [**2126-9-25**] 12:00 PM
   - was off propofol and had what appeared to be a 5 min seizure, had
   tight arching of back, tension in arms, and red then blue color of
   face, then went back up on propofol and fentanyl
   - was 1.1 liters negative at midnight
   - keppra dose increased, EEG reordered (24 hour reordered)
   - echo with sever right ventricle hypokinesis
   - pan cultured due to elevated WBC
   - sister coming in on Saturday
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2126-9-23**] 08:04 AM
   Cefipime - [**2126-9-23**] 10:03 AM
   Vancomycin - [**2126-9-24**] 08:00 AM
   Meropenem - [**2126-9-26**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2126-9-25**] 12:30 PM
   Pantoprazole (Protonix) - [**2126-9-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-26**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.4
   HR: 101 (92 - 125) bpm
   BP: 98/64(76) {90/59(69) - 183/119(142)} mmHg
   RR: 16 (10 - 23) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 85.4 kg (admission): 78 kg
   Height: 65 Inch
    CVP: 9 (6 - 9)mmHg
   Total In:
                                                                  2,570 mL
                                                                  1,091 mL
   PO:
   TF:
                                                                  1,021 mL
                                                                    433 mL
   IVF:
                                                                  1,039 mL
                                                                    398 mL
   Blood products:
   Total out:
                                                                  3,705 mL
                                                                    705 mL
   Urine:
                                                                  3,705 mL
                                                                    705 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,135 mL
                                                                    386 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 28 cmH2O
   Plateau: 10 cmH2O
   SpO2: 91%
   ABG: 7.40/72/77/42/15
   Ve: 5.6 L/min
   PaO2 / FiO2: 154
   Physical Examination
   GEN: intermittently responsive to commands, trached on vent
   HEENT: PERRL, able to open  mouth
   CHEST: poor air movement
   CV: tachy, no m/r/g
   ABD: NDNT, soft, NABS
   EXT: no c/c/e
   NEURO: able to smile, does not wiggle fingers, does not respond to
   pain, toes upgoing
   Labs / Radiology
   325 K/uL
   8.7 g/dL
   140 mg/dL
   0.6 mg/dL
   42 mEq/L
   3.6 mEq/L
   16 mg/dL
   99 mEq/L
   145 mEq/L
   29.1 %
   11.4 K/uL
        [image002.jpg]
                             [**2126-9-24**]  06:45 PM
                             [**2126-9-25**]  12:14 AM
                             [**2126-9-25**]  04:37 AM
                             [**2126-9-25**]  04:47 AM
                             [**2126-9-25**]  12:02 PM
                             [**2126-9-25**]  12:52 PM
                             [**2126-9-25**]  03:44 PM
                             [**2126-9-25**]  06:13 PM
                             [**2126-9-25**]  11:18 PM
                             [**2126-9-26**]  03:07 AM
   WBC
   15.2
   11.4
   Hct
   29.0
   29.1
   Plt
   293
   325
   Cr
   0.5
   0.6
   0.6
   TropT
   0.03
   TCO2
   41
   45
   44
   42
   41
   43
   46
   Glucose
   88
   159
   140
   Other labs: PT / PTT / INR:11.2/26.1/0.9, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:35/45, Alk Phos / T Bili:37/0.2,
   Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, Ca++:8.7 mg/dL, Mg++:2.1
   mg/dL, PO4:3.2 mg/dL
   [**9-25**] BCx x 2 pending
   [**9-25**] sputum culture contaminated
   [**9-25**] stool c. diff negative
   [**9-25**] urine culture pending, UA negative
   CXR [**9-25**]
   PFI: Narrow caliber tracheostomy tube compared to trachea caliber;
   bilateral
   pleural effusions.
   TTE [**9-25**]
   The left atrium is mildly dilated. Left ventricular wall thickness,
   cavity size and regional/global systolic function are normal (LVEF
   >55%). The right ventricular cavity is moderately dilated with moderate
   global free wall hypokinesis. There is abnormal systolic septal
   motion/position consistent with right ventricular pressure overload.
   The aortic root is mildly dilated at the sinus level. The aortic valve
   leaflets (3) are mildly thickened but aortic stenosis is not present.
   The mitral valve leaflets are mildly thickened. Trivial mitral
   regurgitation is seen. The tricuspid valve leaflets are mildly
   thickened. There is moderate pulmonary artery systolic hypertension.
   There is no pericardial effusion.
   IMPRESSION: Dilated and hypokinetic right ventricle. Normal regional
   and global left ventricular systolic function. No pathologic valvular
   abnormality seen. Moderate pulmonary artery systolic hypertension.
   Compared with the report of the prior study (images unavailable for
   review) of [**2126-5-8**], the right ventricle is better seen on the current
   study and appears to be dilated and hypokinetic. It may have been
   dilated and hypokinetic on the prior study also but image quality
   limits interpretation. The other findings are similar.
   Assessment and Plan
   53 yo m admitted to MICU for respiratory distress and now s/p PEA
   arrest [**2126-9-20**] s/p Arctic Sun cooling protocol.
   # Seizure:  Possible seizure yesterday for 5 minutes
   - f/u neuro recs
   - continue keppra at increased dose
   - awaiting 24 hour EEG
   - MRI in future
   # Respiratory Distress: Likely due to large cuff leaf given little
   tracheal cartilage.
   - continue current vent settings
   - continue sedation with Fentanyl and attempt again to wean propofol
   - continue to diurese with goal -1 to -2 L
   - continue meropenem x 8 day course, day 4
   - RTC albuterol, ipratroprium nebs
   - continue home steroids
   - continue bactrim ppx
   - cont Fentanyl patch
 will likely need uptitration
   # S/P PEA Arrest: Likely secondary to hypoxic event, mucus plug.
   Completed rewarming. Concern for anxoic brain injury.   [**9-22**] head Ct
   with no pathology. EEG completed per neuro and without epileptiform
   discharges
   - daily wake ups off sedation to monitor mental status
   - monitor on tele
   - continue keppra
   # Fever: Had a fever prior to cooling, infection vs from acute
   stress/brain injury. Has pseudomonas in lungs.
   - given sputum susceptibilities, continue meropenem x 8 days, Day [**4-17**]
   today
   - monitor fever curve
   - f/u cultures
   # Leukocytosis: Decreased today from 15
 11.  s/p complete course of
   abx for cellulitis; on meropenem for probably pna
   - continue abx
   - monitor fever curve
   - CIS
   - f/u cultures
   # Hypernatremia: corrected to 140
   - decrease free water to 50 q 6 hours
   # Sinus Tachycardia: had on admission, now returned after rewarming.
   Does not show evidence of bleeding. No PE on CTA. Concern for infection
   as cause, but on abx.  Bolused without improvement. No improvement with
   fentanyl.
   - monitor for now
   # Chronic Diastolic HF:  Stable
   - continue lasix 40 [**Hospital1 **] and IV PRN
   - I/O goal: -1-2L
   # Wrist fracture/Rib fracture/Osteoperosis: Pt had a traumatic
   mechanical fall at rehab prior to admission. Fracture of radius and
   ulna, reduced by ortho in ER. Has risk of bone fracture due to chronic
   high dose steriods.
   - ortho recs appreciated
 not planning on surgery.
   - on fentanyl, will start patch
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   # DM, type II:
   - continue SSI from nursing home
   # Anemia of iron def: stable
   - monitor hct
   - continue iron tablets
   - active T&S
   # Depression: stable
   - continue celexa
   # Hx of  gastric ulcers: no evidence of GI bleed at this time, no abd
   pain
   - can change to PPI once a day since now on home steroids dose
   # Hx of recent cellulitis: completed course of vanco
   - monitor for infection
   # FEN: No IVF, replete electrolytes, tube feeds
   # Code:  Full per HCP
   ICU [**Name (NI) **]
   Nutrition:
   [**Name (NI) 7471**] HN (Full) - [**2126-9-26**] 06:16 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-9-20**] 04:14 PM
   Multi Lumen - [**2126-9-20**] 05:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Sister coming on Saturday.
   Code status: Full code
   Disposition: ICU

2126-09-26 11:25:00 Physician Attending Progress Note
Chief Complaint:  Right arm fracture, PEA arrest.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Appeared to have severel seizures with rididity, arching of the back,
   resolved on sedation. Echo with RV hypokinesis unclear if new or old,
   as RV was not well visualized on prior echo. Failed trial of PS this
   am.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2126-9-24**] 08:00 AM
   Meropenem - [**2126-9-26**] 08:25 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2126-9-25**] 12:30 PM
   Pantoprazole (Protonix) - [**2126-9-26**] 12:00 AM
   Other medications:
   HISS, Fondaparinux 2.5 dialy, colace, prednisone 15mg qod, senna,
   mirape, vitamin D, asa 325, tylenol, Celexa, ferrous sulfate, caclium
   carbonate, atrovent MDI, protonix, lasix 40 [**Hospital1 **], meropenem, propofol
   20, fentanyl 100, chlorhexidine, keprra q12.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-26**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.1
   HR: 99 (92 - 120) bpm
   BP: 100/65(78) {90/59(69) - 129/101(107)} mmHg
   RR: 9 (9 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.4 kg (admission): 78 kg
   Height: 65 Inch
   CVP: 8 (5 - 17)mmHg
   Total In:
                                                                  2,570 mL
                                                                  1,677 mL
   PO:
   TF:
                                                                  1,021 mL
                                                                    666 mL
   IVF:
                                                                  1,039 mL
                                                                    601 mL
   Blood products:
   Total out:
                                                                  3,705 mL
                                                                  1,365 mL
   Urine:
                                                                  3,705 mL
                                                                  1,365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,135 mL
                                                                    312 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   Vt (Spontaneous): 476 (476 - 476) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 31 cmH2O
   Plateau: 10 cmH2O
   SpO2: 99%
   ABG: 7.29/95.[**Numeric Identifier 96**]/95.[**Numeric Identifier 607**]/42/15
   Ve: 8.8 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Increased, opens eyes to verbal stimulae, doesnot follow
   commands.
   Labs / Radiology
   8.7 g/dL
   325 K/uL
   140 mg/dL
   0.6 mg/dL
   42 mEq/L
   3.6 mEq/L
   16 mg/dL
   99 mEq/L
   145 mEq/L
   29.1 %
   11.4 K/uL
        [image002.jpg]
                             [**2126-9-25**]  12:14 AM
                             [**2126-9-25**]  04:37 AM
                             [**2126-9-25**]  04:47 AM
                             [**2126-9-25**]  12:02 PM
                             [**2126-9-25**]  12:52 PM
                             [**2126-9-25**]  03:44 PM
                             [**2126-9-25**]  06:13 PM
                             [**2126-9-25**]  11:18 PM
                             [**2126-9-26**]  03:07 AM
                             [**2126-9-26**]  09:45 AM
   WBC
   15.2
   11.4
   Hct
   29.0
   29.1
   Plt
   293
   325
   Cr
   0.5
   0.6
   0.6
   TCO2
   45
   44
   42
   41
   43
   46
   48
   Glucose
   88
   159
   140
   Other labs: PT / PTT / INR:11.2/26.1/0.9, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:35/45, Alk Phos / T Bili:37/0.2,
   Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, Ca++:8.7 mg/dL, Mg++:2.1
   mg/dL, PO4:3.2 mg/dL
   Imaging: CXR stable bilateral pleural effusions
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA):
   with 6.0 long trach, with intermittent leak, stable despite this,
   continue to monitor.
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   follow up EEG, wean propofol
 CARDIAC ARREST
   no hemodynamically stable, slow to wake up will r/a s/p weaning of
   propofol.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   wean FiO2, trial of PS off propofol, diurese, TBB goal -1L, Complete 14
   day course of meropenem for pseudomonas.
 FRACTURE, OTHER
   appreciate ortho reqs.
   ICU Care
   Nutrition:
   [**Doctor Last Name 7471**] HN (Full) - [**2126-9-26**] 06:16 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-9-20**] 04:14 PM
   Multi Lumen - [**2126-9-20**] 05:41 PM
   Prophylaxis:
   DVT: Boots(fondaparinux)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments: sister [**Name (NI) 10272**] on saturday
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2126-09-27 08:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - d/c propofol, continues on fentanyl gtt and patch
   - at around 1 pm, pt noted to have tension in arms and legs, belly
   breathing --> ativan 2 mg x 2 --> sz broke
   - ortho recs: will put on a short arm cast while in house
   - [**9-24**] sputum with GNRs sparse growth
   - neuro recs: aware of family mtg on Sat, still think he could have
   good prognosis as intermittently responds to commands, if we want
   prognostic assistance, could consider MRI, keppra to 1500/1000 on Sat
   then on Tues 1500 [**Hospital1 **]
   - 5 pm lytes with hypernatremia --> increased free water to 100 q4
   hours
   - ABG worse after PS off propofol ---> back on AC --> ABG worse
   overnight with pCO2 92 --> increased rate to 16
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2126-9-24**] 08:00 AM
   Meropenem - [**2126-9-27**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2126-9-26**] 12:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-27**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.6
   HR: 110 (96 - 116) bpm
   BP: 123/77(266) {92/60(72) - 141/132(292)} mmHg
   RR: 15 (9 - 27) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 85.4 kg (admission): 78 kg
   Height: 65 Inch
    CVP: 8 (5 - 17)mmHg
   Total In:
                                                                  3,268 mL
                                                                    884 mL
   PO:
   TF:
                                                                  1,442 mL
                                                                    430 mL
   IVF:
                                                                    946 mL
                                                                    194 mL
   Blood products:
   Total out:
                                                                  3,315 mL
                                                                    810 mL
   Urine:
                                                                  3,315 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -47 mL
                                                                     74 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (0 - 550) mL
   Vt (Spontaneous): 509 (476 - 509) mL
   PS : 16 cmH2O
   RR (Set): 16
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 39 cmH2O
   SpO2: 91%
   ABG: 7.38/85.[**Numeric Identifier 128**]/73.[**Numeric Identifier 607**]/48/20
   Ve: 6 L/min
   PaO2 / FiO2: 183
   Physical Examination
   GEN: On vent
   Heart: RRR
   Lungs: BS bilaterally
   Abd: NDNT, soft, NABS
   Ext: no c/c/e
   Labs / Radiology
   342 K/uL
   8.5 g/dL
   108 mg/dL
   0.5 mg/dL
   48 mEq/L
   3.9 mEq/L
   17 mg/dL
   100 mEq/L
   151 mEq/L
   29.2 %
   13.1 K/uL
        [image002.jpg]
                             [**2126-9-25**]  11:18 PM
                             [**2126-9-26**]  03:07 AM
                             [**2126-9-26**]  09:45 AM
                             [**2126-9-26**]  12:02 PM
                             [**2126-9-26**]  04:25 PM
                             [**2126-9-26**]  05:32 PM
                             [**2126-9-26**]  05:43 PM
                             [**2126-9-27**]  03:39 AM
                             [**2126-9-27**]  04:04 AM
                             [**2126-9-27**]  06:32 AM
   WBC
   11.4
   13.1
   Hct
   29.1
   29.2
   Plt
   325
   342
   Cr
   0.6
   0.5
   0.5
   TCO2
   46
   48
   47
   50
   50
   54
   52
   Glucose
   140
   119
   108
   Other labs: PT / PTT / INR:11.5/28.3/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:35/45, Alk Phos / T Bili:37/0.2,
   Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, Ca++:9.2 mg/dL, Mg++:2.2
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   53 yo m admitted to MICU for respiratory distress and now s/p PEA
   arrest [**2126-9-20**] s/p Arctic Sun cooling protocol.
   # Seizure:  Had another likely Sz with rigidity, broke w/ ativan. Neuro
   believes that he could have a reasonable prognosis given his
   intermittent responsiveness to commands.
   - f/u neuro recs
   - titrating up keppra on Sat and Tuesday
   - getting 24 hour EEG, will f/u
   - MRI in future
   # Respiratory Distress: Likely [**2-11**] underlying COPD, [**2-11**] cuff leak.
   - stop fentanyl gtt, continue patch
   - PS trial this afternoon
   - continue to diurese with goal -1 to -2 L
   - continue meropenem x 14 day course, day 5
   - RTC albuterol, ipratroprium nebs
   - continue home steroids
   - continue bactrim ppx
   # S/P PEA Arrest:  Concern for anxoic brain injury.   [**9-22**] head Ct with
   no pathology.  Will continue to follow neuro recs and follow up report
   of EEG
   - follow mental status
   - monitor on tele
   - continue keppra
   # Fever: Treating for pseudamonas VAP.
   - given sputum susceptibilities, continue meropenem x 14 days, Day [**5-23**]
   today
   - monitor fever curve
   - f/u cultures
   # Leukocytosis:  Slightly up from yesterday 11->13, C.diff negative.
   s/p complete course of abx for cellulitis; on meropenem for probably
   pna
   - continue abx
   - monitor fever curve
   - CIS
   - f/u cultures
   # Hypernatremia: Increased again to 151 this am and has been getting
   100ml Q4, consider DI
   - free water 150ml Q4
   - D5W today to correct free water deficit
   - Check urine lytes
   # Sinus Tachycardia: had on admission, now returned after rewarming.
   Does not show evidence of bleeding. No PE on CTA. Concern for infection
   as cause, but on abx.  Bolused without improvement. No improvement with
   fentanyl.
   - monitor for now
   # Chronic Diastolic HF:  Stable
   - lasix 60 IV BID
   - I/O goal: -1-2L
   # Wrist fracture/Rib fracture/Osteoperosis: Pt had a traumatic
   mechanical fall at rehab prior to admission. Fracture of radius and
   ulna, reduced by ortho in ER. Has risk of bone fracture due to chronic
   high dose steriods.
   - ortho recs appreciated
 not planning on surgery.
   - on fentanyl, will start patch
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   - repeat films on wrist and elbow per ortho
   # DM, type II:
   - continue SSI from nursing home
   # Anemia of iron def: stable
   - monitor hct
   - continue iron tablets
   - active T&S
   # Depression: stable
   - continue celexa
   # Hx of  gastric ulcers: no evidence of GI bleed at this time, no abd
   pain
   - can change to PPI once a day since now on home steroids dose
   # FEN: No IVF, replete electrolytes, tube feeds
   # Code:  Full per HCP
   ICU [**Name (NI) **]
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-9-20**] 04:14 PM
   Multi Lumen - [**2126-9-20**] 05:41 PM
   Prophylaxis:
   DVT: pneumoboots, HSQ
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2126-09-27 09:55:00 Physician Attending Progress Note
Chief Complaint: Right arm fracture, PEA arrest.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Propofol d/c, had another episode of rigidity given 2 of ativan. Ortho
   recommends short arm case, and getting repeat Xray of arm. Sputum with
   sparse gram negative rods. Recommended increase Keppra dose to 1g [**Hospital1 **].
   Didnot tolerate PS trial.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Meropenem - [**2126-9-27**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2126-9-26**] 12:40 PM
   Other medications:
   HISS, fondaparinux, colace, prednisone 15-20, senna, mirapaex, vitamin
   D, asa 325, tylenol, batrim, celexa, calcium carbonate, atrovent,
   lasix, protonix, meropenem, fentanyl patch, FWF 150cc q4, keppra 1g iv
   q12, chlorhexidine.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-27**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.6
   HR: 110 (96 - 116) bpm
   BP: 123/77(266) {95/60(72) - 141/132(292)} mmHg
   RR: 15 (9 - 27) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 85.4 kg (admission): 78 kg
   Height: 65 Inch
   CVP: 8 (7 - 16)mmHg
   Total In:
                                                                  3,268 mL
                                                                    904 mL
   PO:
   TF:
                                                                  1,442 mL
                                                                    430 mL
   IVF:
                                                                    946 mL
                                                                    214 mL
   Blood products:
   Total out:
                                                                  3,315 mL
                                                                    810 mL
   Urine:
                                                                  3,315 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -47 mL
                                                                     94 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (0 - 550) mL
   Vt (Spontaneous): 509 (509 - 509) mL
   PS : 16 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 30 cmH2O
   SpO2: 91%
   ABG: 7.38/85.[**Numeric Identifier 128**]/73.[**Numeric Identifier 607**]/48/20
   Ve: 6.6 L/min
   PaO2 / FiO2: 183
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Resonant : ), (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Increased, Doesnot follow commands.
   Labs / Radiology
   8.5 g/dL
   342 K/uL
   108 mg/dL
   0.5 mg/dL
   48 mEq/L
   3.9 mEq/L
   17 mg/dL
   100 mEq/L
   151 mEq/L
   29.2 %
   13.1 K/uL
        [image002.jpg]
                             [**2126-9-25**]  11:18 PM
                             [**2126-9-26**]  03:07 AM
                             [**2126-9-26**]  09:45 AM
                             [**2126-9-26**]  12:02 PM
                             [**2126-9-26**]  04:25 PM
                             [**2126-9-26**]  05:32 PM
                             [**2126-9-26**]  05:43 PM
                             [**2126-9-27**]  03:39 AM
                             [**2126-9-27**]  04:04 AM
                             [**2126-9-27**]  06:32 AM
   WBC
   11.4
   13.1
   Hct
   29.1
   29.2
   Plt
   325
   342
   Cr
   0.6
   0.5
   0.5
   TCO2
   46
   48
   47
   50
   50
   54
   52
   Glucose
   140
   119
   108
   Other labs: PT / PTT / INR:11.5/28.3/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:35/45, Alk Phos / T Bili:37/0.2,
   Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, Ca++:9.2 mg/dL, Mg++:2.2
   mg/dL, PO4:2.7 mg/dL
   Imaging: CXR stable, low lung volumes.
   Microbiology: repeat sputm with sparse GNR.
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA):
   With longer 6.0 tube, still with intermittent leak.
 SEIZURE, WITHOUT STATUS EPILEPTICUS:
   Increase keppra per neuro, continue to monitor.Currenlty may still be
   clearing intermittent ativan boluses that he has been receiving.
 CARDIAC ARREST:
   s/p cooling.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):
   Pseudomonal pneumonia on meropenem d5/14, + volume overload diurese for
   goal -1-2L, + COPD, + increased resistance from 6.0 long trach, +
   sedation. Increase PEEP to 8, d/c fentanyl, an repeat PS trial this
   afternoon.
Hypernatremia: repleting with iv D5W and per NG tube.

FRACTURE, OTHER: repeat films.
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2126-9-20**] 04:14 PM
   Multi Lumen - [**2126-9-20**] 05:41 PM
   Prophylaxis:
   DVT: Boots(fondaparinux)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments: Family meeting tomorrow.
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr. [**Name13 (STitle) 8860**] seemed to be seizing when the sedation was weaned. EEG
   apparently not convincing for seizure activity. He remains on the vent.
   Intermittently he appears to be following commands.
   Exam notable for Tmax: 37.7
C (99.8
F)  Tcurrent: 37.6
C (99.6
   HR: 110 (96 - 116) bpm  BP: 123/77(266) {95/60(72) - 141/132(292)}
   mmHg  RR: 15 (9 - 27) insp/min   SpO2: 91% CVP: 8 (7 - 16)mmHg
   Balance:    -47 mL   94 mL
   CMV 16/550/0.4/5       PIP: 30 cmH2O   SpO2: 91%
   ABG: 7.38/85     Ve: 6.6 L/min    PaO2 / FiO2: 183
   Trached, opening eyes at times, not following commands
   Lungs congested
   Hrt rrr
   Abd benign
   Extreme wrapped right arm
   Labs reviewed and recorded above
   Imaging: CXR reviewed, stable atelectasis, right effusion
   Problems: resp failure, effusion, airway malacia, pna, recent cardiac
   arrest, poor mental status, seizure, fractured elbow + wrist
   Agree with plan to wean vent as tolerated, cont abx, cont kepra, follow
   mental status, consider head MRI, eventual ortho surgery
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 38 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2126-9-27**] 16:44 ------

2126-09-28 08:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2126-9-27**] 03:16 PM
 ARTERIAL LINE - STOP [**2126-9-28**] 12:05 AM
   [**9-27**]
   - Hypernatremic to 151 in am so increased PO water flushes and started
   D5 at 200cc/hr
   - Attempted diuresis switched lasix from 40mg PO BID to 60mg IV BID
   - Weaned fentanyl
   - Neuro said that nothing convincing on EEG for Sz.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Meropenem - [**2126-9-28**] 12:45 AM
   Infusions:
   Fentanyl (Concentrate) - 40 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-9-28**] 12:17 AM
   Lorazepam (Ativan) - [**2126-9-28**] 12:46 AM
   Furosemide (Lasix) - [**2126-9-28**] 02:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-28**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.1
C (98.7
   HR: 108 (93 - 150) bpm
   BP: 107/73(81) {86/64(68) - 154/88(104)} mmHg
   RR: 17 (10 - 24) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 85.4 kg (admission): 78 kg
   Height: 65 Inch
    CVP: 22 (22 - 22)mmHg
   Total In:
                                                                  4,519 mL
                                                                  1,729 mL
   PO:
   TF:
                                                                  1,444 mL
                                                                    475 mL
   IVF:
                                                                  2,115 mL
                                                                    954 mL
   Blood products:
   Total out:
                                                                  3,310 mL
                                                                  1,320 mL
   Urine:
                                                                  3,310 mL
                                                                  1,320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,209 mL
                                                                    409 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 550) mL
   Vt (Spontaneous): 452 (253 - 848) mL
   PS : 14 cmH2O
   RR (Set): 0
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway
   PIP: 23 cmH2O
   SpO2: 96%
   ABG: 7.40/81.[**Numeric Identifier 607**]/90.[**Numeric Identifier 128**]/47/20
   Ve: 7 L/min
   PaO2 / FiO2: 180
   Physical Examination
   GEN: On vent, minimally responsive to stimuli w/ moving eyes/mouth
   Heart: RRR, distant heart sounds
   Lungs: BS bilaterally
   Abd: NDNT, soft, NABS
   Ext: no c/c/e
   Labs / Radiology
   382 K/uL
   8.7 g/dL
   131 mg/dL
   0.6 mg/dL
   47 mEq/L
   4.2 mEq/L
   17 mg/dL
   92 mEq/L
   143 mEq/L
   29.4 %
   16.3 K/uL
        [image002.jpg]
                             [**2126-9-26**]  12:02 PM
                             [**2126-9-26**]  04:25 PM
                             [**2126-9-26**]  05:32 PM
                             [**2126-9-26**]  05:43 PM
                             [**2126-9-27**]  03:39 AM
                             [**2126-9-27**]  04:04 AM
                             [**2126-9-27**]  06:32 AM
                             [**2126-9-27**]  12:13 PM
                             [**2126-9-27**]  09:04 PM
                             [**2126-9-28**]  03:17 AM
   WBC
   13.1
   16.3
   Hct
   29.2
   29.4
   Plt
   342
   382
   Cr
   0.5
   0.5
   0.6
   0.6
   TCO2
   47
   50
   50
   54
   52
   52
   Glucose
   119
   108
   119
   131
   Other labs: PT / PTT / INR:11.5/28.3/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:35/45, Alk Phos / T Bili:37/0.2,
   Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, Ca++:9.0 mg/dL, Mg++:2.1
   mg/dL, PO4:3.4 mg/dL
[**2126-9-27**] 3:12 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2126-9-27**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      RESPIRATORY CULTURE (Preliminary):
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 CARDIAC ARREST
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 FRACTURE, OTHER
   53 yo m admitted to MICU for respiratory distress and now s/p PEA
   arrest [**2126-9-20**] s/p Arctic Sun cooling protocol.
   # Seizure:  Had likely Sz activey on Friday and last night, however,
   unclear if on sz on EEG per neuro. Activity stopped with ativan. Neuro
   believes that he could have a reasonable prognosis given his
   intermittent responsiveness to commands.
   - f/u neuro recs
   - continue [**Last Name (LF) **], [**First Name3 (LF) 178**] need to d/w neuro whether they believe that
   this should be titrated up
   - f/u on final EEG result
   - Bavona trach contains metal so pt. cannot get MRI
   - D/c fentanyl drip
   # Respiratory Distress: Likely [**2-11**] underlying COPD and cuff leak.
   - stop fentanyl gtt, continue patch
   - PS trial again this afternoon
   - continue to diurese with goal -1 to -2 L lasix drip goal 50cc
   negative per hour
   - continue meropenem x 14 day course, day 6
   - RTC albuterol, ipratroprium nebs
   - continue home steroids
   - continue bactrim ppx
   # S/P PEA Arrest:  Concern for anxoic brain injury.   [**9-22**] head Ct with
   no pathology.  Will continue to follow neuro recs and follow up report
   of EEG
   - follow mental status
   - monitor on tele
   - continue [**Month/Year (2) **]
   # Fever: Spiked again yesterday. Treating for pseudamonas VAP.
   - given sputum susceptibilities, continue meropenem x 14 days, Day [**6-23**]
   today
   - monitor fever curve
   - f/u repeat cultures
   # Leukocytosis:  Slightly up from yesterday 13->16, C.diff negative.
   s/p complete course of abx for cellulitis; on meropenem for probably
   pna
   - continue abx
   - monitor fever curve
   - CIS
   - f/u cultures
   # Hypernatremia: Resolved to 143
   - free water 150ml Q4
   - Stopped D5W today to correct free water deficit
   - check PM lytes
   # Sinus Tachycardia: had on admission, now returned after rewarming.
   Does not show evidence of bleeding. No PE on CTA. Concern for infection
   as cause, but on abx.  Bolused without improvement. No improvement with
   fentanyl.
   - monitor for now
   - Bolus with fentanyl if tachy
   # Wrist fracture/Rib fracture/Osteoperosis: Per ortho does not need
   further operative mgmt. Will need to consider bisphosphonate for outpt.
   Given long Hx w/ steroids.
   - ortho recs appreciated
 not planning on surgery.
   - Fentanyl patch
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   - repeat films on wrist and elbow per ortho
   # DM, type II:
   - continue SSI from nursing home
   # Anemia of iron def: stable,
   - monitor hct
   - continue iron tablets
   - active T&S
   - Minimize blood draws
   # Depression: stable
   - continue celexa
   # Hx of  gastric ulcers: no evidence of GI bleed at this time, no abd
   pain
   - can change to PPI once a day since now on home steroids dose
   # FEN: No IVF, replete electrolytes, tube feeds
   # Code:  Full per HCP
   ICU [**Name (NI) **]
   Nutrition:
   [**Name (NI) 7471**] HN (Full) - [**2126-9-27**] 11:41 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-9-20**] 05:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Remains ventilated. Still having clonic movements when sedation
   lightened which has become a major impediment to accurately assessing
   mental status.
   Exam notable for Tmax: 38.1
C (100.6
   Tcurrent: 37.1
C (98.7
   HR: 108 (93 - 150) bpm
   BP: 107/73(81) {86/64(68) - 154/88(104)} mmHg
   RR: 17 (10 - 24) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 85.4 kg (admission): 78 kg
   Height: 65 Inch
    CVP: 22 (22 - 22)mmHg
   Total In:
                                                                  4,519 mL
                                                                  1,729 mL
   PO:
   TF:
                                                                  1,444 mL
                                                                    475 mL
   IVF:
                                                                  2,115 mL
                                                                    954 mL
   Blood products:
   Total out:
                                                                  3,310 mL
                                                                  1,320 mL
   Urine:
                                                                  3,310 mL
                                                                  1,320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,209 mL
                                                                    409 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 550) mL
   Vt (Spontaneous): 452 (253 - 848) mL
   PS : 14 cmH2O
   RR (Set): 0
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway
   PIP: 23 cmH2O
   SpO2: 96%
   ABG: 7.40/81.[**Numeric Identifier 607**]/90.[**Numeric Identifier 128**]/47/20
   Ve: 7 L/min
   PaO2 / FiO2: 180
   Trached, intermittent leak, unresponsive currently
   Hrt tachy, lung decrease throughout, abd benign, extreme right arm
   splinted
   Labs reviewed and recorded above
   Imaging: CXR with low lung volume, bilateral effusions
   Problems: poor mental status following cardiac arrest, effusions, pna,
   resp failure, ? seizure
   Agree with plan to discuss seizure activity with neuro, cont vent
   support, diuresed, cont abx
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 36 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2126-9-28**] 14:04 ------

2126-09-28 13:51:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, s/p PEA arrest, wrist fracture
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78yo M with steroid-dependent COPD and TBM, diastolic heart failure
   with chronic trach but not chronic vent, now a/w wrist fracture and
   respiratory failure, s/p hypoxemic respiratory arrest with persistently
   altered mental status.
   24 Hour Events:
 ongoing abnormal motor activity, ? seizure, overnight
   History obtained from Medical records
   Patient unable to provide history: Sedated, altered mental status
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Meropenem - [**2126-9-28**] 08:01 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-9-28**] 12:17 AM
   Lorazepam (Ativan) - [**2126-9-28**] 12:46 AM
   Furosemide (Lasix) - [**2126-9-28**] 02:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-28**] 01:50 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37
C (98.6
   HR: 103 (93 - 150) bpm
   BP: 109/71(79) {79/58(62) - 154/95(107)} mmHg
   RR: 17 (12 - 37) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 85.4 kg (admission): 78 kg
   Height: 65 Inch
   CVP: 22 (22 - 22)mmHg
   Total In:
                                                                  4,519 mL
                                                                  2,113 mL
   PO:
   TF:
                                                                  1,444 mL
                                                                    450 mL
   IVF:
                                                                  2,115 mL
                                                                  1,113 mL
   Blood products:
   Total out:
                                                                  3,310 mL
                                                                  1,715 mL
   Urine:
                                                                  3,310 mL
                                                                  1,715 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,209 mL
                                                                    398 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 550) mL
   Vt (Spontaneous): 471 (452 - 848) mL
   PS : 14 cmH2O
   RR (Set): 0
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway
   PIP: 23 cmH2O
   SpO2: 96%
   ABG: ///47/
   Ve: 9.5 L/min
   Physical Examination
   General Appearance: intubated,
   Eyes / Conjunctiva: reactive
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   throughout, No(t) Rhonchorous: ), scattered rhonchi
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   382 K/uL
   131 mg/dL
   0.6 mg/dL
   47 mEq/L
   4.2 mEq/L
   17 mg/dL
   92 mEq/L
   143 mEq/L
   29.4 %
   16.3 K/uL
        [image002.jpg]
                             [**2126-9-26**]  12:02 PM
                             [**2126-9-26**]  04:25 PM
                             [**2126-9-26**]  05:32 PM
                             [**2126-9-26**]  05:43 PM
                             [**2126-9-27**]  03:39 AM
                             [**2126-9-27**]  04:04 AM
                             [**2126-9-27**]  06:32 AM
                             [**2126-9-27**]  12:13 PM
                             [**2126-9-27**]  09:04 PM
                             [**2126-9-28**]  03:17 AM
   WBC
   13.1
   16.3
   Hct
   29.2
   29.4
   Plt
   342
   382
   Cr
   0.5
   0.5
   0.6
   0.6
   TCO2
   47
   50
   50
   54
   52
   52
   Glucose
   119
   108
   119
   131
   Other labs: PT / PTT / INR:11.5/28.3/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:35/45, Alk Phos / T Bili:37/0.2,
   Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, Ca++:9.0 mg/dL, Mg++:2.1
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 Respiratory Failure
   -likely multifactorial in setting of pain meds and underlying COPD/TBM
   - s/p trach, with ongoing cuff leak likely secondary to TBM
   - continue diuresis today
 ? Seizure
   - ongoing abnormal motor activity overnight
   - will d/w neuro today about increasing the keppra further
 Pneumonia
   - on meropenem for 14 day course
   -
 S/p cardiac arrest
   - rhythm is stable
 Hypernatremia
   - sodium normal today
   - will decrease free water
 Wrist Fracture
   - s/p bedside reduction
   - no further intervention per neuro
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-9-20**] 05:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2126-09-29 08:20:00 Physician Resident Progress Note
Resident Progress Note
    [**9-28**]
   - was restless off sedation, stopped fentanyl gtt, instead on low dose
   propofol
   - was on lasix gtt for 6 hours, but once on propofol BP was low in 80s,
   stopped lasix gtt
   - neuro recs to increase keppra to 1000/1500mg dosing
   - can not have MRI due to metal in trach
   - blood cx with GPC in pairs and clusters 1 bottle from [**6-27**] anaerobic,
   drew repeat blood cx, and started vanco
   - family meeting
 rediscuss in 3 days goals of care
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Meropenem - [**2126-9-29**] 12:20 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Fondaparinux - [**2126-9-28**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-29**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.7
   HR: 116 (96 - 118) bpm
   BP: 107/68(101) {83/53(60) - 139/93(102)} mmHg
   RR: 25 (9 - 37) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 85.4 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  3,418 mL
                                                                  1,383 mL
   PO:
             TF:
                                                                  1,187 mL
                                                                    494 mL
   IVF:
                                                                  1,521 mL
                                                                    348 mL
   Blood products:
   Total out:
                                                                  3,085 mL
                                                                    760 mL
   Urine:
                                                                  3,085 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    333 mL
                                                                    623 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 512 (460 - 512) mL
   PS : 0 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 29 cmH2O
   Plateau: 19 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 98%
   ABG: ///48/
   Ve: 7.1 L/min
   Physical Examination
   GEN: On vent, minimally responsive to stimuli w/ moving eyes/mouth
   Heart: RRR, distant heart sounds
   Lungs: BS bilaterally
   Abd: NDNT, soft, NABS
   Ext: no c/c/e
   Labs / Radiology
   413 K/uL
   8.1 g/dL
   126 mg/dL
   0.5 mg/dL
   48 mEq/L
   3.4 mEq/L
   17 mg/dL
   92 mEq/L
   143 mEq/L
   27.6 %
   13.1 K/uL
        [image002.jpg]
                             [**2126-9-26**]  05:32 PM
                             [**2126-9-26**]  05:43 PM
                             [**2126-9-27**]  03:39 AM
                             [**2126-9-27**]  04:04 AM
                             [**2126-9-27**]  06:32 AM
                             [**2126-9-27**]  12:13 PM
                             [**2126-9-27**]  09:04 PM
                             [**2126-9-28**]  03:17 AM
                             [**2126-9-28**]  05:01 PM
                             [**2126-9-29**]  03:56 AM
   WBC
   13.1
   16.3
   13.1
   Hct
   29.2
   29.4
   27.6
   Plt
   342
   382
   413
   Cr
   0.5
   0.5
   0.6
   0.6
   0.5
   0.5
   TCO2
   50
   54
   52
   52
   Glucose
   119
   108
   119
   131
   154
   126
   Other labs: PT / PTT / INR:11.5/28.3/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:35/45, Alk Phos / T Bili:37/0.2,
   Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, Ca++:9.6 mg/dL, Mg++:2.2
   mg/dL, PO4:3.0 mg/dL
[**2126-9-27**] 3:12 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2126-9-27**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
   RESPIRATORY CULTURE (Preliminary):
      Further incubation required to determine the presence or absence of
      commensal respiratory flora.
      GRAM NEGATIVE ROD(S).    MODERATE GROWTH.
         ? OF TWO COLONIAL MORPHOLOGIES.
[**2126-9-27**] 3:00 pm BLOOD CULTURE      Source: Line-A-line.
   Blood Culture, Routine (Preliminary):
      GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CLUSTERS.
   Anaerobic Bottle Gram Stain (Final [**2126-9-28**]):
      REPORTED BY PHONE TO [**Doctor First Name **] [**Doctor Last Name **] @ [**2147**] ON [**9-28**] - [**Numeric Identifier 10324**].
      GRAM POSITIVE COCCI.
      IN PAIRS AND CLUSTERS.
   Assessment and Plan
   53 yo m admitted to MICU for respiratory distress and now s/p PEA
   arrest [**2126-9-20**] s/p Arctic Sun cooling protocol.
   # Seizure:  Had last Sz activey on Friday. Yesterday did not required
   ativan. Neuro believes that he could have a reasonable prognosis given
   his intermittent responsiveness to commands.
   - f/u neuro recs
   - keppra was increased to 1000/1500mg [**Hospital1 **]
   - f/u on final EEG result
   - Bavona trach contains metal so pt. cannot get MRI
   - conitnue off fentanyl gtt
   # Respiratory Distress: Likely [**2-11**] underlying COPD and cuff leak. Also
   appears agitated off all sedation. Yesterday was started on propofol
   low dose.
   - fentanyl patch
   - Continue CPAP during day, A/C at night
   - check VBG
 consider decreasing PEEP
   - Restart lasix gtt with goal -1 L/day
   - continue meropenem x 14 day course, day 6
   - RTC albuterol, ipratroprium nebs
   - continue home steroids
   - continue bactrim ppx
   # Metabolic alkalosis: elevated bicarbonate
   - check PM lytes
   - K > 4.5 for goal
   # S/P PEA Arrest:  Concern for anxoic brain injury.   [**9-22**] head Ct with
   no pathology.  Will continue to follow neuro recs and follow up report
   of EEG. Will reassess goals of care on Tuesday with sister.
   - follow mental status
   - monitor on tele
   - continue keppra at increased dose
   # Fevers: Being treated for VAP with pseudamonas. Now also has a blood
   cx from [**9-27**] with GPC in one bottle. WBC is mproved today to 13.
   - given sputum susceptibilities, continue meropenem x 14 days, Day [**7-23**]
   today
   - started vanco after repeat blood cx on [**9-28**] for 14 day course, will
   stop if contaminent
   - monitor fever curve
   - f/u repeat cultures
   - continue CVL for now; if more BCx +, will d/c line and attempt PIV
   access
   # Hypernatremia: Resolved to 143
   - free water 150ml Q4 with tube feeds
   - check PM lytes
   # Sinus Tachycardia: had on admission, now returned after rewarming.
   Does not show evidence of bleeding. No PE on CTA. Concern for infection
   as cause, but on abx.  Bolused without improvement. No improvement with
   fentanyl.
   - monitor for now
   # Wrist fracture/Rib fracture/Osteoperosis: Per ortho does not need
   further operative mgmt. Will need to consider bisphosphonate for outpt.
   Given long Hx w/ steroids.
   - ortho recs appreciated
 not planning on surgery
   - Fentanyl patch
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   - may need CT of arm to further evaluate fracture once more stable
   # DM, type II:
   - continue SSI from nursing home
   # Anemia of iron def: stable,
   - monitor hct
   - continue iron tablets
   - active T&S
   - Minimize blood draws
   # Depression: stable
   - continue celexa
   # Hx of  gastric ulcers: no evidence of GI bleed at this time, no abd
   pain
   - home PPI
   # FEN: No IVF, replete electrolytes, tube feeds
   # Code:  Full per HCP
   ICU [**Name (NI) **]
   Nutrition:
   [**Name (NI) 7471**] HN (Full) - [**2126-9-29**] 04:48 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-9-20**] 05:41 PM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer:  ppi
   VAP:  standard protocol
   Comments:
   Communication:  Comments:
   Code status: Full code
 will need to talk with HCP on Tuesday for
   goals of care
   Disposition: icu for now

2126-09-29 12:22:00 Physician Attending Progress Note
Chief Complaint: PEA arrest, right arm fracture.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Cannot have MRI because of metal in his tracheostomy. Blood cultures
   with GPC, repeat blood cultures obtained and started on vancomycin.
   Weaned off fentanyl, appeared uncomfortable overnight, started on low
   dose propfol. Tolerated PS for 7.5 hours yesterday.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2126-9-29**] 08:29 AM
   Meropenem - [**2126-9-29**] 08:29 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Fondaparinux - [**2126-9-28**] 04:00 PM
   Other medications:
   HISS, fondaprinux, colace, senna, mirapex, vitamin D, asa 325,
   acetaminophen, bactrim, celexa, caclium carbonate, pantoprazole, keprra
   1500, vancomcyin, hydrocortisone creme,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-29**] 12:20 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.7
   HR: 104 (97 - 118) bpm
   BP: 117/85(92) {83/53(60) - 134/85(101)} mmHg
   RR: 18 (9 - 32) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 85.4 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  3,418 mL
                                                                  2,010 mL
   PO:
             TF:
                                                                  1,187 mL
                                                                    716 mL
   IVF:
                                                                  1,521 mL
                                                                    753 mL
   Blood products:
   Total out:
                                                                  3,085 mL
                                                                  1,120 mL
   Urine:
                                                                  3,085 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    333 mL
                                                                    890 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 404 (404 - 512) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 97%
   ABG: ///48/
   Ve: 7 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Increased, doesnot follow commands
   Labs / Radiology
   8.1 g/dL
   413 K/uL
   126 mg/dL
   0.5 mg/dL
   48 mEq/L
   3.4 mEq/L
   17 mg/dL
   92 mEq/L
   143 mEq/L
   27.6 %
   13.1 K/uL
        [image002.jpg]
                             [**2126-9-26**]  05:32 PM
                             [**2126-9-26**]  05:43 PM
                             [**2126-9-27**]  03:39 AM
                             [**2126-9-27**]  04:04 AM
                             [**2126-9-27**]  06:32 AM
                             [**2126-9-27**]  12:13 PM
                             [**2126-9-27**]  09:04 PM
                             [**2126-9-28**]  03:17 AM
                             [**2126-9-28**]  05:01 PM
                             [**2126-9-29**]  03:56 AM
   WBC
   13.1
   16.3
   13.1
   Hct
   29.2
   29.4
   27.6
   Plt
   342
   382
   413
   Cr
   0.5
   0.5
   0.6
   0.6
   0.5
   0.5
   TCO2
   50
   54
   52
   52
   Glucose
   119
   108
   119
   131
   154
   126
   Other labs: PT / PTT / INR:11.5/28.3/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:35/45, Alk Phos / T Bili:37/0.2,
   Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, Ca++:9.6 mg/dL, Mg++:2.2
   mg/dL, PO4:3.0 mg/dL
   Imaging: CXR: stable.
   Microbiology: sputum with moderate gram negative
   Blood cultures GPC in pairs and clusters.
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   with long trach, will consider surgical trach in am of larger caliber.
 SEIZURE, WITHOUT STATUS EPILEPTICUS:
   no current evidence for seizure continue keppra.
 CARDIAC ARREST:
   mental status not recovering, may still be partly delirius in context
   of infection, and sedating medications. Continue to monitor on minimal
   sedation.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]);
   check VBG, consider decreasing PEEP and FIO2. Continue lasix drip, but
   aggressively replete Cl with KCL, target K 4.5.
 FRACTURE, OTHER:
   continue cast, need OR in near future
 Bacteremia: contaminant vs pathogen, follow up surveillance
   peripheral cultures, and organism ID. Contineu empiric vanco. Will
   assess for need for CVL removal.
 sedation: wean propfol to off, increase fentanyl patch to 75mcg/hr.
   ICU Care
   Nutrition:
   [**Doctor Last Name 7471**] HN (Full) - [**2126-9-29**] 04:48 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2126-9-20**] 05:41 PM
   Prophylaxis:
   DVT: Boots(fondaparinux)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held  Comments: yesterday, will contact
   her again tomorrow in conjunction with neuro.
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2126-09-30 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2126-9-29**] 12:16 PM
   - neuro recs: continue AED, consider repeat EEG if needed
   - EEG: no epileptiform activity
   - 3 pm lytes: repleted K with extra 20
   - orthos recs: no need for CT wrist, non operative mgt
   - c. diff positive, started flagyl IV and vanco po
   - fentanyl patch increased to 72
   - lasix gtt was at 10 but decreased due to bp to 8
   - started 40 Kcl [**Hospital1 **] standing x 2 days
   - SCN in [**1-13**] BCx
   - hypotensive to 80/60s with propofol and lasix gtt --> decreased
   propofol gtt to 20, shut off lasix gtt
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2126-9-29**] 08:00 PM
   Meropenem - [**2126-9-30**] 12:00 AM
   Metronidazole - [**2126-9-30**] 05:45 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-9-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-30**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.1
C (98.7
   HR: 102 (86 - 116) bpm
   BP: 102/76(82) {92/62(70) - 118/85(92)} mmHg
   RR: 20 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.5 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  3,860 mL
                                                                  1,203 mL
   PO:
             TF:
                                                                  1,466 mL
                                                                    461 mL
   IVF:
                                                                  1,494 mL
                                                                    393 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                    690 mL
   Urine:
                                                                  3,700 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    160 mL
                                                                    513 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 526 (313 - 526) mL
   PS : 12 cmH2O
   RR (Spontaneous): 23
   PEEP: 6 cmH2O
   FiO2: 50%
   RSBI: 93
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: ///49/
   Ve: 8.3 L/min
   Physical Examination
   GEN: On vent, minimally responsive to stimuli w/ moving eyes/mouth
   Heart: RRR, distant heart sounds
   Lungs: BS bilaterally
   Abd: NDNT, soft, NABS
   Ext: no c/c/e
   Labs / Radiology
   450 K/uL
   8.3 g/dL
   111 mg/dL
   0.5 mg/dL
   49 mEq/L
   3.7 mEq/L
   14 mg/dL
   91 mEq/L
   144 mEq/L
   27.3 %
   13.4 K/uL
        [image002.jpg]
                             [**2126-9-27**]  03:39 AM
                             [**2126-9-27**]  04:04 AM
                             [**2126-9-27**]  06:32 AM
                             [**2126-9-27**]  12:13 PM
                             [**2126-9-27**]  09:04 PM
                             [**2126-9-28**]  03:17 AM
                             [**2126-9-28**]  05:01 PM
                             [**2126-9-29**]  03:56 AM
                             [**2126-9-29**]  03:28 PM
                             [**2126-9-30**]  04:03 AM
   WBC
   13.1
   16.3
   13.1
   13.4
   Hct
   29.2
   29.4
   27.6
   27.3
   Plt
   342
   382
   413
   450
   Cr
   0.5
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   TCO2
   54
   52
   52
   Glucose
   108
   119
   131
   154
   126
   130
   111
   Other labs: PT / PTT / INR:11.5/28.3/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:35/45, Alk Phos / T Bili:37/0.2,
   Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, Ca++:9.7 mg/dL, Mg++:2.1
   mg/dL, PO4:3.8 mg/dL
[**2126-9-29**] 1:33 pm STOOL     CONSISTENCY: SOFT      Source: Stool.
                            **FINAL REPORT [**2126-9-30**]**
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2126-9-30**]):
      REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] @ 3:56A [**2126-9-30**].
      CLOSTRIDIUM DIFFICILE.
         FECES POSITIVE FOR C. DIFFICILE TOXIN BY EIA.
           (Reference Range-Negative).
         A positive result in a recently treated patient is of uncertain
         significance unless the patient is currently symptomatic
         (relapse).
   [**9-29**] BCx x 2 pending
[**2126-9-27**] 3:12 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2126-9-27**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
   RESPIRATORY CULTURE (Preliminary):
      Commensal Respiratory Flora Absent.
      PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.
         OF TWO COLONIAL MORPHOLOGIES.
      YEAST.    SPARSE GROWTH.
[**2126-9-27**] 3:00 pm BLOOD CULTURE      Source: Line-A-line.
   Blood Culture, Routine (Preliminary):
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    ISOLATED FROM ONE SET ONLY.
         SENSITIVITIES PERFORMED ON REQUEST..
   Anaerobic Bottle Gram Stain (Final [**2126-9-28**]):
      REPORTED BY PHONE TO [**Doctor First Name **] [**Doctor Last Name **] @ [**2147**] ON [**9-28**] - [**Numeric Identifier 10324**].
      GRAM POSITIVE COCCI.
      IN PAIRS AND CLUSTERS.
   Assessment and Plan
   53 yo m admitted to MICU for respiratory distress and now s/p PEA
   arrest [**2126-9-20**] s/p Arctic Sun cooling protocol.
   # Respiratory Distress: Likely [**2-11**] underlying COPD and cuff leak. Also
   appears agitated off all sedation. Off sedation currently
   - Continue sedation with propofol
   - fentanyl patch 72
   - continue pressure support
   - Restart lasix gtt with goal -1 L/day
 likely more room for diuresis
   given sedation now off; [**Hospital1 **] lytes
   - continue meropenem x 14 day course, day 8
   - RTC albuterol, ipratroprium nebs
   - continue home steroids
   - continue bactrim ppx
   # Seizure:  Had last Sz activity on Friday. Neuro believes that he
   could have a reasonable prognosis given his intermittent responsiveness
   to commands.
   - f/u neuro recs
   - keppra was increased to 1000/1500mg [**Hospital1 **]
   - Bavona trach contains metal so pt. cannot get MRI
   - continue off sedation (off fentanyl and propofol)
   # Fevers: Being treated for VAP with pseudamonas. Now also has a blood
   cx from [**9-27**] with GPC in one bottle, contaminant. Likely febrile from +
   c. diff infection.
   - given sputum susceptibilities, continue meropenem x 14 days, Day [**8-23**]
   today
   - will keep vancomycin on until 48h negative cultures. Surveillance cx
   today.
   - monitor fever curve
   - f/u repeat cultures
   # C. Diff Infection: + yesterday
   - on po vanco and IV flagyl Day #1
   # Metabolic alkalosis: elevated bicarbonate
   - check PM lytes
   - K > 4.5 for goal
   - [**Hospital1 **] 40 meq KCL standing
   # S/P PEA Arrest:  Concern for anxoic brain injury.   [**9-22**] head Ct with
   no pathology.  Will continue to follow neuro recs and follow up report
   of EEG. Will reassess goals of care on Tuesday with sister.
   - follow mental status
   - monitor on tele
   - continue keppra
   # Sinus Tachycardia: had on admission, now returned after rewarming.
   Does not show evidence of bleeding. No PE on CTA. Concern for infection
   as cause, but on abx.  Bolused without improvement. No improvement with
   fentanyl.
   - monitor for now
   # Wrist fracture/Rib fracture/Osteoperosis: Per ortho does not need
   further operative mgmt. Will need to consider bisphosphonate for outpt.
   Given long Hx w/ steroids.
   - ortho recs appreciated
 not planning on surgery, CT wrist if this is
   reasonable for goals of care
   - Fentanyl patch
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   # DM, type II:
   - continue SSI from nursing home
   # Anemia of iron def: stable,
   - monitor hct
   - continue iron tablets
   - active T&S
   - Minimize blood draws
   # Depression: stable
   - continue celexa
   # Hx of  gastric ulcers: no evidence of GI bleed at this time, no abd
   pain
   - home PPI
   # FEN: No IVF, replete electrolytes, tube feeds
   # Code:  Full per HCP
   ICU [**Name (NI) **]
   Nutrition:
   [**Name (NI) 7471**] HN (Full) - [**2126-9-29**] 04:48 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-9-20**] 05:41 PM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer:  ppi
   VAP:  standard protocol
   Comments:
   Communication:  Comments:
   Code status: Full code
 will need to talk with HCP on Tuesday for
   goals of care
   Disposition: icu for now

2126-09-30 09:13:00 Physician Attending Progress Note
Chief Complaint: PEA arrest. Right arm fracture.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Found to be C.difficile positive. Remains with intermittent leak around
   Trach.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2126-9-29**] 08:00 PM
   Meropenem - [**2126-9-30**] 12:00 AM
   Metronidazole - [**2126-9-30**] 05:45 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-9-30**] 12:00 AM
   Other medications:
   HISS, fondaparinux, colace, senna, mirapex, vitamin D, aspirin,
   bactrim, celexa,calcium, pantoprozole, free water, ferrous sulfat,
   chlorhexidine, atrovent, prednisone 15-20, keppra, hydrocortisone
   cream, fentanyl patch 75mcg/hr, KCL 40 [**Hospital1 **], flagyl, vanco po, vanco iv.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-30**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.1
C (98.7
   HR: 102 (86 - 115) bpm
   BP: 102/76(82) {92/62(70) - 118/85(92)} mmHg
   RR: 20 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.5 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  3,860 mL
                                                                  1,312 mL
   PO:
             TF:
                                                                  1,466 mL
                                                                    539 mL
   IVF:
                                                                  1,494 mL
                                                                    424 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                    690 mL
   Urine:
                                                                  3,700 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    160 mL
                                                                    622 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 355 (313 - 526) mL
   PS : 12 cmH2O
   RR (Spontaneous): 26
   PEEP: 6 cmH2O
   FiO2: 50%
   RSBI: 93
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: ///49/
   Ve: 9.5 L/min
   Physical Examination
   General Appearance: Well nourished, Anxious, Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic, regular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , Wheezes : diffusely, Rhonchorous: )
   Abdominal: Soft, Non-tender, Distended, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Normal, Doesnot follow commands, but opens eyes turns to voice.
   Labs / Radiology
   8.3 g/dL
   450 K/uL
   111 mg/dL
   0.5 mg/dL
   49 mEq/L
   3.7 mEq/L
   14 mg/dL
   91 mEq/L
   144 mEq/L
   27.3 %
   13.4 K/uL
        [image002.jpg]
                             [**2126-9-27**]  03:39 AM
                             [**2126-9-27**]  04:04 AM
                             [**2126-9-27**]  06:32 AM
                             [**2126-9-27**]  12:13 PM
                             [**2126-9-27**]  09:04 PM
                             [**2126-9-28**]  03:17 AM
                             [**2126-9-28**]  05:01 PM
                             [**2126-9-29**]  03:56 AM
                             [**2126-9-29**]  03:28 PM
                             [**2126-9-30**]  04:03 AM
   WBC
   13.1
   16.3
   13.1
   13.4
   Hct
   29.2
   29.4
   27.6
   27.3
   Plt
   342
   382
   413
   450
   Cr
   0.5
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   TCO2
   54
   52
   52
   Glucose
   108
   119
   131
   154
   126
   130
   111
   Other labs: PT / PTT / INR:11.5/28.3/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:35/45, Alk Phos / T Bili:37/0.2,
   Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, Ca++:9.7 mg/dL, Mg++:2.1
   mg/dL, PO4:3.8 mg/dL
   Imaging: CXR stable
   Microbiology: C.diff positive
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA):
   Consult thoracic surgery to upsize his tracheostomy today.
 SEIZURE, WITHOUT STATUS EPILEPTICUS:
   contineu Keppra no further evidence of clinical sz, EEG was negative.
 CARDIAC ARREST:
   contineu to assess mental status, worsened by infection, likely
   delirium underlying
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):
   wean FiO2 to 50, and if tolerated wean PEEP to 5, Continue pressure
   support, follow VBG, rising PCO2 is in context of metabolic alkalosis
   from diuresis, will continue to replete Chloride with KCL goal K 4.5.
   Unlikely to tolerate trach mask without upsizing his trach. Will
   discuss with sister. Continue meropenem for pseudomonal pneumonia
 FRACTURE, OTHER:
   continue cast, CT arm needed down the line.
 C.diff: started on po vanco and flagyl
CNS in blood: contaminnant vs true infection, follow up cx from [**9-29**]
   if negative by tomorrow will d/c iv vanco, resend cultures today.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-9-30**] 05:18 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2126-9-20**] 05:41 PM
   Prophylaxis:
   DVT: Boots(fondaparinux)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   He remains ventilated though is currently on PSV 5/0 with TVs in 300
   He continues to follow some commands at times but remains mostly
   non-interactive.
   Exam notable for
   Tmax: 38.1
C (100.5
   Tcurrent: 37.1
C (98.7
   HR: 102 (86 - 115) bpm
   BP: 102/76(82) {92/62(70) - 118/85(92)} mmHg
   RR: 20 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.5 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  3,860 mL
                                                                  1,312 mL
   PO:
             TF:
                                                                  1,466 mL
                                                                    539 mL
   IVF:
                                                                  1,494 mL
                                                                    424 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                    690 mL
   Urine:
                                                                  3,700 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    160 mL
                                                                    622 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 355 (313 - 526) mL
   PS : 12 cmH2O
   RR (Spontaneous): 26
   PEEP: 6 cmH2O
   FiO2: 50%
   RSBI: 93
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: ///49/
   Ve: 9.5 L/min
   Trached, awake but unresponsive
   Lungs decreased at bases
   Abd benign
   Extreme wrapped right arm
   Labs reviewed and recorded above
   Imaging: CXR stable effusion, low lung volumes
   Problems: resp failure, effusion, poor mental status, recent cardiac
   arrest, right arm fracture, CDiff
   Agree with plan to cont vent and wean as tolerated, follow mental
   status, start seroquel for delirium, start flagyl and vanco, waiting
   for ID to weigh in on appropriate coverage of pseudomonas
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 37 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2126-9-30**] 15:36 ------

2126-10-01 06:55:00 Physician Resident Progress Note
24 Hour Events:
 BLOOD CULTURED - At [**2126-9-30**] 10:05 AM
   x2 venipuncture and RIJ
 INVASIVE VENTILATION - STOP [**2126-9-30**] 06:17 PM
 INVASIVE VENTILATION - START [**2126-9-30**] 07:01 PM
   -pseuomonas resistant to [**Last Name (un) 430**]--> ID consult--> cont [**Last Name (un) 430**], start tobra
   and colistin nebs
   -tobra trough and peak half hour before and after dose
   -negative 1/2 L at midnight
   -seroquel started to replace sedation for trach collar, however when
   propofol off patient fights vent, then got hypotensive and so proprofol
   and lasix off for an hour and patient started fighting vent again so
   propofol turned back on
   -should uptitrate seroquel today
   -Trach upgrade? IP or thoracics?
   -Cdiff positive starte po vanc
   -goals of care to be discussed in am
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Metronidazole - [**2126-9-30**] 02:00 PM
   Tobramycin - [**2126-9-30**] 03:11 PM
   Vancomycin - [**2126-9-30**] 10:10 PM
   Meropenem - [**2126-10-1**] 06:07 AM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2126-9-30**] 07:23 AM
   Fentanyl - [**2126-9-30**] 09:04 AM
   Pantoprazole (Protonix) - [**2126-10-1**] 12:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-1**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.8
C (98.2
   HR: 126 (102 - 132) bpm
   BP: 106/73(82) {75/56(61) - 135/90(102)} mmHg
   RR: 24 (15 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.5 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  3,981 mL
                                                                  1,094 mL
   PO:
             TF:
                                                                  1,471 mL
                                                                    420 mL
   IVF:
                                                                  1,560 mL
                                                                    384 mL
   Blood products:
   Total out:
                                                                  4,550 mL
                                                                    640 mL
   Urine:
                                                                  4,550 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -569 mL
                                                                    454 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 312 (286 - 517) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 65
   PIP: 17 cmH2O
   SpO2: 96%
   ABG: ///47/
   Ve: 5.7 L/min
   Physical Examination
   GEN: On vent, minimally responsive to stimuli w/ moving eyes/mouth
   Heart: RRR, distant heart sounds
   Lungs: BS bilaterally
   Abd: NDNT, soft, NABS
   Ext: no c/c/e
   Labs / Radiology
   442 K/uL
   8.7 g/dL
   178 mg/dL
   0.5 mg/dL
   47 mEq/L
   3.9 mEq/L
   13 mg/dL
   90 mEq/L
   145 mEq/L
   29.4 %
   14.8 K/uL
        [image002.jpg]
                             [**2126-9-27**]  06:32 AM
                             [**2126-9-27**]  12:13 PM
                             [**2126-9-27**]  09:04 PM
                             [**2126-9-28**]  03:17 AM
                             [**2126-9-28**]  05:01 PM
                             [**2126-9-29**]  03:56 AM
                             [**2126-9-29**]  03:28 PM
                             [**2126-9-30**]  04:03 AM
                             [**2126-9-30**]  05:10 PM
                             [**2126-10-1**]  03:57 AM
   WBC
   16.3
   13.1
   13.4
   14.8
   Hct
   29.4
   27.6
   27.3
   29.4
   Plt
   382
   413
   450
   442
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   0.6
   0.5
   TCO2
   52
   52
   Glucose
   119
   131
   154
   126
   130
   111
   175
   178
   Other labs: PT / PTT / INR:11.5/28.3/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:35/45, Alk Phos / T Bili:37/0.2,
   Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, Ca++:8.9 mg/dL, Mg++:2.0
   mg/dL, PO4:4.3 mg/dL
   [**9-29**] and [**9-30**] BCx: pending
[**2126-9-27**] 3:12 pm SPUTUM      Source: Endotracheal.
                            **FINAL REPORT [**2126-9-30**]**
   GRAM STAIN (Final [**2126-9-27**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
   RESPIRATORY CULTURE (Final [**2126-9-30**]):
      Commensal Respiratory Flora Absent.
      PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.
         OF TWO COLONIAL MORPHOLOGIES.
      YEAST.    SPARSE GROWTH.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |
CEFEPIME--------------    16 I
CEFTAZIDIME-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------     2 S
MEROPENEM-------------  =>16 R
PIPERACILLIN---------- =>128 R
PIPERACILLIN/TAZO----- =>128 R
   TOBRAMYCIN------------   <=1 S
[**2126-9-27**] 3:00 pm BLOOD CULTURE      Source: Line-A-line.
   Blood Culture, Routine (Preliminary):
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    ISOLATED FROM ONE SET ONLY.
         SENSITIVITIES PERFORMED ON REQUEST..
      GRAM NEGATIVE ROD(S).    POSSIBLY OF TWO COLONIAL MORPHOLOGIES.
         REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **], #[**Numeric Identifier **] [**2126-9-30**] 11:00AM.
   Anaerobic Bottle Gram Stain (Final [**2126-9-28**]):
      REPORTED BY PHONE TO [**Doctor First Name **] [**Doctor Last Name **] @ [**2147**] ON [**9-28**] - [**Numeric Identifier 10324**].
      GRAM POSITIVE COCCI.
      IN PAIRS AND CLUSTERS.
[**2126-9-27**] 3:00 pm BLOOD CULTURE      Source: Line-TLCL.
   Blood Culture, Routine (Pending):
[**9-30**] CXR:
   IMPRESSION: AP chest compared to [**9-20**] through 20:
   Small to moderate right pleural effusion and very low lung volumes
   unchanged.
   Heart size normal. Tracheostomy tube in standard placement. No
   mediastinal
   widening or pneumothorax. Right jugular line ends in the SVC. No
   pneumothorax.
   ASSESSMENT & PLAN
   53 yo m admitted to MICU for respiratory distress and now s/p PEA
   arrest [**2126-9-20**] s/p Arctic Sun cooling protocol
   # Respiratory Distress: Likely [**2-11**] underlying COPD and cuff leak. Also
   appears agitated off all sedation.
   - Low dose propofol, try to wean
   - Continue fentanyl patch 72
   - Uptitrate Seroquel to 100 TID while decreasing/shutting off propofol,
   f/u EKG for QT prolongation
   -appreciate ID recs
   -f/u topra peak and trough
   - IP for upsizing of trach in OR tomorrow
   - Continue pressure support; follow VBGs
   -attempt to decreased FiOs
   - Restart lasix gtt with goal -1 L/day, [**Hospital1 **] lytes
   - continue meropenem day [**9-23**], colistin and tobramycin(day1) for
   pseudomonal infection, ID following
   - RTC albuterol, ipratroprium nebs
   - continue home steroids
   - continue bactrim ppx
   # Seizure:  Had last Sz activity on Friday. Neuro believes that he
   could have a reasonable prognosis given his intermittent responsiveness
   to commands. Bavona trach contains metal so pt. cannot get MRI
   - f/u neuro recs
   - continue keppra 1000/1500mg [**Hospital1 **]
   - daily wake ups to assess mental status
   # Fevers: Being treated for VAP with pseudamonas. Now also has a blood
   cx from [**9-27**] with GPC in one bottle, likely contaminant.  Also now
   found to have meropenem
 resistant pseudomonas.  Also with c.
   difficile infection
   - Continue meropenem, colistin, and tobramycin per ID
   - cont PO Vanc for Cdiff
   - f/u ID recs
   -repeat Bcx, peripheral and central
   - f/u all culture
   - monitor fever curve
   - d/c CVL culture tip
   - place PIVs for line holiday
   -consider CTA in near future
   # C. Diff Infection: Decreasing diarrhea overnight.
   -consider flexiceal to protect skin from breakdown
   - on po vanco Day 2
   # Metabolic alkalosis: Elevated bicarbonate.
   - check PM lytes
   - K > 4.5 for goal
   - start K+ sliding scale
   # S/P PEA Arrest:  Concern for anxoic brain injury.   [**9-22**] head CT with
   no pathology.  No MRI given metal in trach
   - address goals of care today with HCP
   - follow mental status with decreasing sedation
   - monitor on tele
   - continue keppra
   # Sinus Tachycardia: had on admission, now returned after rewarming.
   Does not show evidence of bleeding. No PE on CTA. Bolused without
   improvement. No improvement with fentanyl. Continues to be stable. [**Month (only) 60**]
   be due to brain injury / multiple infections.
   - monitor
   # Wrist fracture/Rib fracture/Osteoperosis: Per ortho does not need
   further operative mgmt. Will need to consider bisphosphonate for outpt.
   Given long Hx w/ steroids.
   - ortho recs appreciated
 not planning on surgery, CT wrist if this is
   reasonable for goals of care
   - Fentanyl patch
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   # DM, type II:
   - continue SSI from nursing home
   # Anemia of iron def: stable,
   - monitor hct
   - continue iron tablets
   - active T&S
   - Minimize blood draws
   # Depression: stable
   - continue celexa
   # Hx of  gastric ulcers: no evidence of GI bleed at this time, no abd
   pain
   - home PPI
   ICU Care
   Nutrition: NPO after midnight
   Fibersource HN (Full) - [**2126-9-29**] 04:48 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-9-20**] 05:41 PM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer:  ppi
   VAP:  standard protocol
   Comments:
   Communication:  Comments:
   Code status: Full code
 will need to talk with HCP today for goals of
   care
   Disposition: ICU

2126-10-01 09:06:00 Physician Attending Progress Note
Chief Complaint: PEA arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Remains with diaphoretsis intermittent agitation of unclear etiology.
   White count rising. Hypotensive on propofol and lasix. Growing
   resistant pseudomonas to meropenem, seen by ID, tobra iv added, and
   colitistin nebs.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Metronidazole - [**2126-9-30**] 02:00 PM
   Tobramycin - [**2126-9-30**] 03:11 PM
   Vancomycin - [**2126-9-30**] 10:10 PM
   Meropenem - [**2126-10-1**] 06:07 AM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2126-9-30**] 09:04 AM
   Pantoprazole (Protonix) - [**2126-10-1**] 12:01 AM
   Other medications:
   HISS, prednisone 15-20, senna, mirapaex, vitamin D, bactrim, asa,
   celexa, calciumcarbonate, ferrous sulfate, chlorhexidine, keppra 1g
   qam, keppra 1500mg qpm, fentanyl patch, vancomycin po, seroquel 100mg
   po q8
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-1**] 09:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 120 (102 - 132) bpm
   BP: 113/62(76) {75/56(61) - 135/90(102)} mmHg
   RR: 23 (15 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.5 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  3,981 mL
                                                                  1,317 mL
   PO:
             TF:
                                                                  1,471 mL
                                                                    519 mL
   IVF:
                                                                  1,560 mL
                                                                    419 mL
   Blood products:
   Total out:
                                                                  4,550 mL
                                                                    980 mL
   Urine:
                                                                  4,550 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -569 mL
                                                                    337 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 415 (286 - 517) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 65
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: VBG: 7.39/90/47 8:20am
   Ve: 7.9 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachy regular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : anteriorly), small white secretions per nursing
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, LE erythema above the ankles
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful, Tone:
   Normal, sedated on propofol
   Labs / Radiology
   8.7 g/dL
   442 K/uL
   178 mg/dL
   0.5 mg/dL
   47 mEq/L
   3.9 mEq/L
   13 mg/dL
   90 mEq/L
   145 mEq/L
   29.4 %
   14.8 K/uL
        [image002.jpg]
                             [**2126-9-27**]  06:32 AM
                             [**2126-9-27**]  12:13 PM
                             [**2126-9-27**]  09:04 PM
                             [**2126-9-28**]  03:17 AM
                             [**2126-9-28**]  05:01 PM
                             [**2126-9-29**]  03:56 AM
                             [**2126-9-29**]  03:28 PM
                             [**2126-9-30**]  04:03 AM
                             [**2126-9-30**]  05:10 PM
                             [**2126-10-1**]  03:57 AM
   WBC
   16.3
   13.1
   13.4
   14.8
   Hct
   29.4
   27.6
   27.3
   29.4
   Plt
   382
   413
   450
   442
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   0.6
   0.5
   TCO2
   52
   52
   Glucose
   119
   131
   154
   126
   130
   111
   175
   178
   Other labs: PT / PTT / INR:11.5/28.3/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:35/45, Alk Phos / T Bili:37/0.2,
   Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, Ca++:8.9 mg/dL, Mg++:2.0
   mg/dL, PO4:4.3 mg/dL
   Imaging: CXR small to moderate right pleural effusion with low lung
   volumes, stable from yesterday.
   Microbiology: [**9-29**], [**9-30**] blood cultures negative
   [**9-27**] coag - staph,
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA):
   continues with persistent intermittent leak, IP to upsize trach
   tomorrow NPO after midnight
 SEIZURE, WITHOUT STATUS EPILEPTICUS:
   continue Keppra switch to po
 CARDIAC ARREST:
   Not clearly responsive post arrest, cannot perform MRi due to metal in
   trach. Continue to attempt to get him off propofol.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]);
   Treating pneumonia, doesnot have increased secretions, CXR fairly clear
   apart from effusions, continue tobramycin for pseudomonal pneumonia.
   Continue diuresis goal -1L as tolerated by BP. Wean FiO2. IP to upsize
   trach to 7.0 in the OR.. will need to determine timing of this today.
   Ideally should be upsized to non metal containing trach.
? Bacteremia: + blood culture x1 from A-line that has been d/c, still
   has CVL, surveillance cultures negative, follow up blood culture
   senses/ID of prior culture.. will attempt to place peripheral iv and
   d/c Central line if possible today without replacing it.
C.difficile: continue po vanco, diarrhea seems to have decreased per
   nursing.
 FRACTURE, OTHER:
   continue [**Last Name (LF) **], [**First Name3 (LF) 178**] need CT down the line.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-1**] 05:52 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2126-9-20**] 05:41 PM
   Prophylaxis:
   DVT: Boots(fondaparinux)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments: To meet with HCp sister today.
   [**Name2 (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Trach masking for brief periods. Mental status remains poor without
   obvious signs of improvement.
   Exam notable for
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 120 (102 - 132) bpm
   BP: 113/62(76) {75/56(61) - 135/90(102)} mmHg
   RR: 23 (15 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.5 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  3,981 mL
                                                                  1,317 mL
   PO:
             TF:
                                                                  1,471 mL
                                                                    519 mL
   IVF:
                                                                  1,560 mL
                                                                    419 mL
   Blood products:
   Total out:
                                                                  4,550 mL
                                                                    980 mL
   Urine:
                                                                  4,550 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -569 mL
                                                                    337 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 415 (286 - 517) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 65
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: VBG: 7.39/90/47 8:20am
   Ve: 7.9 L/min
   Trached, unresponsive
   Lungs decreased bs
   Hrt rrr
   Abd benign
   Extreme wrapped right arm
   Labs reviewed and recorded above
   Imaging: CXR stable right effusion and low lung volumes
   Problems: resp failure, effusion, airway malacia, emphysema, pna, poor
   mental status, recent cardiac arrest
   Agree with plan to increase trach size to facilitate weaning, cont abx,
   wean vent as tolerated, follow mental status
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 37 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2126-10-1**] 13:29 ------

2126-10-02 07:24:00 Physician Resident Progress Note
24 Hour Events:
 EKG - At [**2126-10-1**] 09:00 AM
 MULTI LUMEN - STOP [**2126-10-1**] 01:56 PM
   - labwork continuing to look more intravascularly dry.
   - plan for trach upsizing tomorrow.
   - tobra peak/trough sent, peak pending
   - family updated, will come in on thursday. aim for MRI, will rediscuss
   goals of care then. Full code for now.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Metronidazole - [**2126-9-30**] 02:00 PM
   Tobramycin - [**2126-10-1**] 03:00 PM
   Vancomycin - [**2126-10-2**] 05:52 AM
   Meropenem - [**2126-10-2**] 05:53 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Fondaparinux - [**2126-10-1**] 04:00 PM
   Furosemide (Lasix) - [**2126-10-1**] 04:00 PM
   Pantoprazole (Protonix) - [**2126-10-2**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-2**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 116 (101 - 121) bpm
   BP: 97/69(76) {84/56(65) - 117/75(82)} mmHg
   RR: 25 (18 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.5 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  3,567 mL
                                                                    267 mL
   PO:
             TF:
                                                                  1,450 mL
                                                                     15 mL
   IVF:
                                                                  1,377 mL
                                                                    252 mL
   Blood products:
   Total out:
                                                                  2,142 mL
                                                                    500 mL
   Urine:
                                                                  2,142 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,425 mL
                                                                   -233 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 249 (205 - 415) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 104
   PIP: 17 cmH2O
   SpO2: 97%
   ABG: ///46/
   Ve: 6.1 L/min
   Physical Examination
   GEN: On vent, minimally responsive to stimuli w/ moving eyes/mouth
   Heart: RRR, distant heart sounds
   Lungs: BS bilaterally coarse
   Abd: NDNT, soft, NABS
   Ext: no c/c/e
   Labs / Radiology
   475 K/uL
   8.5 g/dL
   91 mg/dL
   0.4 mg/dL
   46 mEq/L
   4.2 mEq/L
   13 mg/dL
   91 mEq/L
   142 mEq/L
   27.4 %
   14.5 K/uL
        [image002.jpg]
                             [**2126-9-27**]  09:04 PM
                             [**2126-9-28**]  03:17 AM
                             [**2126-9-28**]  05:01 PM
                             [**2126-9-29**]  03:56 AM
                             [**2126-9-29**]  03:28 PM
                             [**2126-9-30**]  04:03 AM
                             [**2126-9-30**]  05:10 PM
                             [**2126-10-1**]  03:57 AM
                             [**2126-10-1**]  01:50 PM
                             [**2126-10-2**]  04:15 AM
   WBC
   16.3
   13.1
   13.4
   14.8
   14.5
   Hct
   29.4
   27.6
   27.3
   29.4
   27.4
   Plt
   382
   413
   450
   442
   475
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   0.6
   0.5
   0.6
   0.4
   Glucose
   119
   131
   154
   126
   130
   111
   175
   178
   194
   91
   Other labs: PT / PTT / INR:12.1/29.9/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Lactic Acid:1.3 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.1 mg/Dl
   [**9-29**] BCx pending
   [**9-30**] BCx pending
   [**10-1**] BCx pending
   [**10-1**] CVL Tip culture pending
   [**10-1**] PORTABLE CXR:
   HISTORY: Tracheostomy, to evaluate for change.
   FINDINGS: In comparison with study of [**9-30**], there is little interval
   change.
   Right pleural effusion and low lung volumes are unchanged. Monitoring
   and
   support devices remain in place. Upper lungs are clear and there is no
   evidence of pneumothorax.
   Assessment and Plan
   53 yo m admitted to MICU for respiratory distress and now s/p PEA
   arrest [**2126-9-20**] s/p Arctic Sun cooling protocol, seizures, and
   pseudomanas-pneumonia.
   # Respiratory Distress: Likely [**2-11**] underlying COPD and cuff leak. Also
   treating VAP. Also appears agitated off all sedation.
   - Low dose propofol, try to wean after trach
   - Continue fentanyl patch 72
   - Continue Seroquel to 75mg QID  while decreasing/shutting off
   propofol, f/u EKG for QT prolongation
   -also will bolus fentanyl to help sedation
   - appreciate ID recs: need to touch base about tobramycin dosing
   - IP for upsizing of trach in OR today
   - Continue pressure support; follow VBGs
   - attempt to decreased FiO2 today
   - start bolux lasix goal -1 L/day to even, [**Hospital1 **] lytes
   - continue meropenem day [**10-23**], colistin and tobramycin(day2) for
   pseudomonal infection, ID following
   - RTC albuterol, ipratroprium nebs
   - continue home steroids
   - continue bactrim ppx
   # Seizure:  Had last Sz activity last Friday. Neuro believes that he
   could have a reasonable prognosis given his intermittent responsiveness
   to commands. Bavona trach contains metal so pt. cannot get MRI
   - f/u neuro recs
   - continue keppra 1000/1500mg [**Hospital1 **]
   - daily wake ups to assess mental status
   - MRI today to assess neurological status
   # Fevers: Being treated for VAP with pseudamonas. Now also has a blood
   cx from [**9-27**] with GPC in one bottle, likely contaminant.  Also now
   found to have meropenem
 resistant pseudomonas.  Also with c.
   difficile infection
   - Continue meropenem, colistin, and tobramycin per ID
   -d/c vanco today
   - cont PO Vanc for Cdiff day 3
   - f/u ID recs
   - f/u all culture data
   - monitor fever curve
   -continue line holiday
   -consider CTA in near future for ? PE if low grade fevers do not
   resolve
   # C. Diff Infection: Decreasing diarrhea overnight.
   - on po vanco Day 3
   # Metabolic alkalosis: Elevated bicarbonate.
   -easy off diuresis
   - check PM lytes
   - K > 4.5 for goal with K sliding scale
   # S/P PEA Arrest:  Concern for anxoic brain injury.   [**9-22**] head CT with
   no pathology.
   - MRI after trach
   - follow mental status with decreasing sedation
   - monitor on tele
   - continue keppra
   # Sinus Tachycardia: had on admission, now returned after rewarming.
   Does not show evidence of bleeding. No PE on CTA. Bolused without
   improvement. No improvement with fentanyl. Continues to be stable. [**Month (only) 60**]
   be due to brain injury / multiple infections.
   - monitor
   #  Wrist fracture/Rib fracture/Osteoperosis: Per ortho does not need
   further operative mgmt. Will need to consider bisphosphonate for outpt.
   Given long Hx w/ steroids.
   - ortho recs appreciated
 not planning on surgery, CT wrist if this is
   reasonable for goals of care, likely await until after MRI
   - Fentanyl patch
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   # DM, type II:
   - continue SSI from nursing home
   # Anemia of iron def: stable,
   - monitor hct
   - continue iron tablets
   - active T&S
   - Minimize blood draws
   # Depression: stable
   - continue celexa
   # Hx of  gastric ulcers: no evidence of GI bleed at this time, no abd
   pain
   - home PPI
   ICU Care
   Nutrition: Holding TF for trach
   Glycemic Control:
   Lines:  PIV for continued line holiday
   20 Gauge - [**2126-10-1**] 10:40 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition:ICU

2126-10-02 10:10:00 Physician Attending Progress Note
Chief Complaint: Right arm fracture, PEA arrest.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Awaiting OR for upsizing tracheostomy tube.
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Metronidazole - [**2126-9-30**] 02:00 PM
   Tobramycin - [**2126-10-1**] 03:00 PM
   Meropenem - [**2126-10-2**] 05:53 AM
   Vancomycin - [**2126-10-2**] 08:00 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Fondaparinux - [**2126-10-1**] 04:00 PM
   Furosemide (Lasix) - [**2126-10-1**] 04:00 PM
   Pantoprazole (Protonix) - [**2126-10-2**] 12:15 AM
   Other medications:
   HISS, atrovent, fondaparinux, colace, prednisone senna, mirapex,
   vitamin D, asa 325, bactrim, celxa, calcium carbonate, pantoprazole,
   ferrous sulfate, chlorhexidine [**Hospital1 **], hydrocortisone creme, miconazoel
   cream, vancomycin po, keppra po
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-2**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 123 (101 - 123) bpm
   BP: 102/70(76) {84/56(65) - 117/75(82)} mmHg
   RR: 24 (18 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.5 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  3,567 mL
                                                                    514 mL
   PO:
             TF:
                                                                  1,450 mL
                                                                     15 mL
   IVF:
                                                                  1,377 mL
                                                                    499 mL
   Blood products:
   Total out:
                                                                  2,142 mL
                                                                    760 mL
   Urine:
                                                                  2,142 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,425 mL
                                                                   -246 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 228 (205 - 384) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 104
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: ///46/
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : coarse BS, No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Normal, opens eye to sound
   Labs / Radiology
   8.5 g/dL
   475 K/uL
   91 mg/dL
   0.4 mg/dL
   46 mEq/L
   4.2 mEq/L
   13 mg/dL
   91 mEq/L
   142 mEq/L
   27.4 %
   14.5 K/uL
        [image002.jpg]
                             [**2126-9-27**]  09:04 PM
                             [**2126-9-28**]  03:17 AM
                             [**2126-9-28**]  05:01 PM
                             [**2126-9-29**]  03:56 AM
                             [**2126-9-29**]  03:28 PM
                             [**2126-9-30**]  04:03 AM
                             [**2126-9-30**]  05:10 PM
                             [**2126-10-1**]  03:57 AM
                             [**2126-10-1**]  01:50 PM
                             [**2126-10-2**]  04:15 AM
   WBC
   16.3
   13.1
   13.4
   14.8
   14.5
   Hct
   29.4
   27.6
   27.3
   29.4
   27.4
   Plt
   382
   413
   450
   442
   475
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   0.6
   0.5
   0.6
   0.4
   Glucose
   119
   131
   154
   126
   130
   111
   175
   178
   194
   91
   Other labs: PT / PTT / INR:12.1/29.9/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Lactic Acid:1.3 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Microbiology: Culture data with gram negative rods in blood with [**Last Name (un) **]
   pending.
   Assessment and Plan
 Sedation: appears intermittently [**Last Name (LF) 10343**], [**First Name3 (LF) 178**] attemtp fentanyl
   boluses and follow response, if he doesnot respond to this will
   uptitrate his seroquel. Wean propofol as tolerated.
 LEUKOCYTOSIS: persistent s/p CVL removal, A-line removal, getting
   therapy for pseudomonas pneumonia iv tobra, and colisitin neb x15days,
   monitor troughs. d/c iv vanco, continue po vanco for C.diff diarrhea
   improved.
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA): trach upsize
   today in OR.
 SEIZURE, WITHOUT STATUS EPILEPTICUS: continue keppra
 CARDIAC ARREST: s/p cooling, will attempt to perform MRI post trach
   change today for prognostication.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): contineu to wean PS after
   return from trach change and attempt TM trial
 FRACTURE, OTHER: needs CT arm down the line.
   ICU Care
   Nutrition:
   Comments: tube feeds on hold for OR.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2126-10-1**] 10:40 AM
   Prophylaxis:
   DVT: Boots(s/c fondaprinux)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Trach upsized today following dilation. Stable on vent following
   procedure. Continues to awaken at times and moves though is still not
   doing anything purposeful and not following commands.
   Exam notable for
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 123 (101 - 123) bpm
   BP: 102/70(76) {84/56(65) - 117/75(82)} mmHg
   RR: 24 (18 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.5 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  3,567 mL
                                                                    514 mL
   PO:
             TF:
                                                                  1,450 mL
                                                                     15 mL
   IVF:
                                                                  1,377 mL
                                                                    499 mL
   Blood products:
   Total out:
                                                                  2,142 mL
                                                                    760 mL
   Urine:
                                                                  2,142 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,425 mL
                                                                   -246 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 228 (205 - 384) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 104
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: ///46/
   Ve: 7.4 L/min
   Awake, moving in bed, not following commands
   Trach
   Lung decreased bases
   Hrt rrr
   Abd benign
   Extrem splinted right arm
   Labs reviewed and recorded above
   Imaging:  CXR low lung volumes, difficult to assess effusions +
   infiltrates
   Problems: resp failure, psa pna + bacteremia, effusions, recent cardiac
   arrest, poor mental status
   Agree with plan to cont to wean vent as tolerated, complete 2 weeks of
   abx, diurese as tolerated, follow mental status and MRI head
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 36 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2126-10-2**] 15:34 ------

2126-10-03 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2126-10-2**] 10:50 AM
 BRONCHOSCOPY - At [**2126-10-2**] 12:00 PM
 PERCUTANEOUS TRACHEOSTOMY - At [**2126-10-2**] 12:00 PM
   Trache changed to #8 Bovona foam cuff
 MAGNETIC RESONANCE IMAGING - At [**2126-10-2**] 08:30 PM
   - ID recs: check tobra trough after 4th dose of new dosing, cont
   meropenem and tobramycin, but d/c inhaled colistin because may need to
   use it later and not doing much for lung penetration
   - d/c'ed vanco today
   - trached by IP, restarted feeds, too sedated for trach collar today
   - stopped propofol and increased fentanyl patch 100 with fentanyl prn,
   seroquel changed back to 100 TID, restarted propofol overnight
   - delayed PICC placement until [**10-3**]
   - MRI completed
   - Neuro recs: L arm immobility is suspicious for permanent brain damage
   (most probably - watershed, which is usually seen in cases of
   cardiac arrest), will consult on [**10-3**] after MRI
   - restarted lasix
   - EKG without QT prolongation
   - free water flushes 100 q6 hours for AM hypernatremia
   - hypotensive to 80s, bolused 500 cc
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Metronidazole - [**2126-9-30**] 02:00 PM
   Bactrim (SMX/TMP) - [**2126-10-2**] 10:40 AM
   Tobramycin - [**2126-10-2**] 03:00 PM
   Meropenem - [**2126-10-2**] 11:00 PM
   Vancomycin - [**2126-10-3**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2126-10-2**] 10:40 AM
   Midazolam (Versed) - [**2126-10-2**] 12:00 PM
   Fondaparinux - [**2126-10-2**] 04:06 PM
   Pantoprazole (Protonix) - [**2126-10-3**] 12:00 AM
   Fentanyl - [**2126-10-3**] 04:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-3**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.2
   HR: 108 (90 - 123) bpm
   BP: 80/53(59) {80/53(59) - 143/97(108)} mmHg
   RR: 15 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.5 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  1,252 mL
                                                                    718 mL
   PO:
             TF:
                                                                     15 mL
                                                                    470 mL
   IVF:
                                                                  1,027 mL
                                                                     88 mL
   Blood products:
   Total out:
                                                                  1,980 mL
                                                                    325 mL
   Urine:
                                                                  1,980 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -728 mL
                                                                    393 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 386 (189 - 386) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 80
   PIP: 17 cmH2O
   SpO2: 96%
   ABG: ///44/
   Ve: 6.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   510 K/uL
   8.5 g/dL
   135 mg/dL
   0.6 mg/dL
   44 mEq/L
   4.3 mEq/L
   12 mg/dL
   97 mEq/L
   146 mEq/L
   28.7 %
   14.7 K/uL
        [image002.jpg]
                             [**2126-9-28**]  05:01 PM
                             [**2126-9-29**]  03:56 AM
                             [**2126-9-29**]  03:28 PM
                             [**2126-9-30**]  04:03 AM
                             [**2126-9-30**]  05:10 PM
                             [**2126-10-1**]  03:57 AM
                             [**2126-10-1**]  01:50 PM
                             [**2126-10-2**]  04:15 AM
                             [**2126-10-2**]  05:14 PM
                             [**2126-10-3**]  02:39 AM
   WBC
   13.1
   13.4
   14.8
   14.5
   14.7
   Hct
   27.6
   27.3
   29.4
   27.4
   28.7
   Plt
   [**Telephone/Fax (3) 10349**]75
   510
   Cr
   0.5
   0.5
   0.5
   0.5
   0.6
   0.5
   0.6
   0.4
   0.5
   0.6
   Glucose
   154
   126
   130
   111
   175
   178
   194
   91
   133
   135
   Other labs: PT / PTT / INR:12.1/29.9/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Lactic Acid:1.3 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR
   Microbiology: [**2126-9-27**]  BLOOD CULTURE Blood Culture,
   Routine-PRELIMINARY {STAPHYLOCOCCUS, COAGULASE NEGATIVE, PSEUDOMONAS
   AERUGINOSA, PSEUDOMONAS AERUGINOSA}; Anaerobic Bottle Gram Stain-FINAL
   Assessment and Plan
   53 yo m admitted to MICU for respiratory distress and now s/p PEA
   arrest [**2126-9-20**] s/p Arctic Sun cooling protocol, seizures, and
   pseudomanas-pneumonia.
   # Respiratory Distress: Likely [**2-11**] underlying COPD and cuff leak. Also
   treating VAP. Also appears agitated off all sedation.
   - Low dose propofol, try to wean after trach
   - Continue fentanyl patch 72
   - Continue Seroquel to 75mg QID  while decreasing/shutting off
   propofol, f/u EKG for QT prolongation
   -also will bolus fentanyl to help sedation
   - appreciate ID recs: need to touch base about tobramycin dosing
   - IP for upsizing of trach in OR today
   - Continue pressure support; follow VBGs
   - attempt to decreased FiO2 today
   - start bolux lasix goal -1 L/day to even, [**Hospital1 **] lytes
   - continue meropenem day [**10-23**], colistin and tobramycin(day2) for
   pseudomonal infection, ID following
   - RTC albuterol, ipratroprium nebs
   - continue home steroids
   - continue bactrim ppx
   # Seizure:  Had last Sz activity last Friday. Neuro believes that he
   could have a reasonable prognosis given his intermittent responsiveness
   to commands. Bavona trach contains metal so pt. cannot get MRI
   - f/u neuro recs
   - continue keppra 1000/1500mg [**Hospital1 **]
   - daily wake ups to assess mental status
   - MRI today to assess neurological status
   # Fevers: Being treated for VAP with pseudamonas. Now also has a blood
   cx from [**9-27**] with GPC in one bottle, likely contaminant.  Also now
   found to have meropenem
 resistant pseudomonas.  Also with c.
   difficile infection
   - Continue meropenem, colistin, and tobramycin per ID
   -d/c vanco today
   - cont PO Vanc for Cdiff day 3
   - f/u ID recs
   - f/u all culture data
   - monitor fever curve
   -continue line holiday
   -consider CTA in near future for ? PE if low grade fevers do not
   resolve
   # C. Diff Infection: Decreasing diarrhea overnight.
   - on po vanco Day 3
   # Metabolic alkalosis: Elevated bicarbonate.
   -easy off diuresis
   - check PM lytes
   - K > 4.5 for goal with K sliding scale
   # S/P PEA Arrest:  Concern for anxoic brain injury.   [**9-22**] head CT with
   no pathology.
   - MRI after trach
   - follow mental status with decreasing sedation
   - monitor on tele
   - continue keppra
   # Sinus Tachycardia: had on admission, now returned after rewarming.
   Does not show evidence of bleeding. No PE on CTA. Bolused without
   improvement. No improvement with fentanyl. Continues to be stable. [**Month (only) 60**]
   be due to brain injury / multiple infections.
   - monitor
   #  Wrist fracture/Rib fracture/Osteoperosis: Per ortho does not need
   further operative mgmt. Will need to consider bisphosphonate for outpt.
   Given long Hx w/ steroids.
   - ortho recs appreciated
 not planning on surgery, CT wrist if this is
   reasonable for goals of care, likely await until after MRI
   - Fentanyl patch
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   # DM, type II:
   - continue SSI from nursing home
   # Anemia of iron def: stable,
   - monitor hct
   - continue iron tablets
   - active T&S
   - Minimize blood draws
   # Depression: stable
   - continue celexa
   # Hx of  gastric ulcers: no evidence of GI bleed at this time, no abd
   pain
   - home PPI
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-3**] 12:00 AM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-10-1**] 10:40 AM
   22 Gauge - [**2126-10-2**] 05:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-10-03 11:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2126-10-2**] 10:50 AM
 BRONCHOSCOPY - At [**2126-10-2**] 12:00 PM
 PERCUTANEOUS TRACHEOSTOMY - At [**2126-10-2**] 12:00 PM
   Trache changed to #8 Bovona foam cuff
 MAGNETIC RESONANCE IMAGING - At [**2126-10-2**] 08:30 PM
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Metronidazole - [**2126-9-30**] 02:00 PM
   Bactrim (SMX/TMP) - [**2126-10-2**] 10:40 AM
   Tobramycin - [**2126-10-2**] 03:00 PM
   Meropenem - [**2126-10-2**] 11:00 PM
   Vancomycin - [**2126-10-3**] 06:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2126-10-2**] 12:00 PM
   Fondaparinux - [**2126-10-2**] 04:06 PM
   Pantoprazole (Protonix) - [**2126-10-3**] 12:00 AM
   Fentanyl - [**2126-10-3**] 04:50 AM
   Other medications:
   fondaparinux, docusate, prednisone, senna, mirapex, vitamin D, asa,
   bactrim, celexa, calcium carbonate, pantoprazole, ferrous sulfate,
   chlorhexidine, hydrocortisone cream, vanco po, meropenem iv, keppra,
   tobramycin 400 q24, fentanyl patch, seroquel.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-3**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.5
C (99.5
   HR: 116 (90 - 131) bpm
   BP: 98/64(86) {80/53(59) - 143/97(108)} mmHg
   RR: 19 (14 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.5 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  1,252 mL
                                                                  1,099 mL
   PO:
             TF:
                                                                     15 mL
                                                                    668 mL
   IVF:
                                                                  1,027 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                  1,980 mL
                                                                    345 mL
   Urine:
                                                                  1,980 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -728 mL
                                                                    754 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 274 (189 - 386) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 80
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///44/
   Ve: 5 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachy regular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   510 K/uL
   135 mg/dL
   0.6 mg/dL
   44 mEq/L
   4.3 mEq/L
   12 mg/dL
   97 mEq/L
   146 mEq/L
   28.7 %
   14.7 K/uL
        [image002.jpg]
                             [**2126-9-28**]  05:01 PM
                             [**2126-9-29**]  03:56 AM
                             [**2126-9-29**]  03:28 PM
                             [**2126-9-30**]  04:03 AM
                             [**2126-9-30**]  05:10 PM
                             [**2126-10-1**]  03:57 AM
                             [**2126-10-1**]  01:50 PM
                             [**2126-10-2**]  04:15 AM
                             [**2126-10-2**]  05:14 PM
                             [**2126-10-3**]  02:39 AM
   WBC
   13.1
   13.4
   14.8
   14.5
   14.7
   Hct
   27.6
   27.3
   29.4
   27.4
   28.7
   Plt
   [**Telephone/Fax (3) 10349**]75
   510
   Cr
   0.5
   0.5
   0.5
   0.5
   0.6
   0.5
   0.6
   0.4
   0.5
   0.6
   Glucose
   154
   126
   130
   111
   175
   178
   194
   91
   133
   135
   Other labs: PT / PTT / INR:12.1/29.9/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Lactic Acid:1.3 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR: ? infiltrate RUL
   Assessment and Plan
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP):/respiratory
   failure:
   On meropenem, tobramycin for pseudomonas pneumonia. Respiratory status
   doesnot seem to be progressing as expected. Trail of [**10-19**] now (higher
   PEEp for tracheomalacia), recheck VBG. Send tracheal aspirate for
   repeat culture including opportunistic pathogens. Continue diuresis
   goal -1L, check BNP. Will obtain Chest CT I-.
 ALTERED MENTAL STATUS (NOT DELIRIUM):
    will obtain keppra level, appreciate neuro reqs, no evidence of anoxic
   brain injury on MRI, intermittently follows commands. Likely a
   component of delirum from his infection.s
 .H/O CARDIAC ARREST: s/p cooling
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS: on keppra checking level as
   above.
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA):
   s/p trach
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE): continue vanco po x 14days after meropenem/tobra is
   completely
 Hypernatremia: on higher Free water repletion,check pm lytes
 Fracture: will obtain CT wrist/elbow
 Access: will place PICC today.
 Sedation: will d/c seroquel and start haldol.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-3**] 12:00 AM 60 mL/hour
   Comments: tolerating this well.
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-10-1**] 10:40 AM
   22 Gauge - [**2126-10-2**] 05:11 PM
   Prophylaxis:
   DVT: Boots(s/c fondapraniux)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2126-10-04 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -EJ placed for sedation for PICC to be placed at IR (unable to do at
   bedside)
   -increased free water flushes bc of hypernatremia
   -neuro said MRI means he has potential to improve with rehab
   -keppra level sent
   -ortho wanted to CT right wrist and elbow
   -CT non contrast obtained
   -ortho to take to OR on Mon
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2126-10-2**] 10:40 AM
   Tobramycin - [**2126-10-3**] 06:00 PM
   Meropenem - [**2126-10-4**] 05:39 AM
   Vancomycin - [**2126-10-4**] 05:39 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2126-10-3**] 12:45 PM
   Fentanyl - [**2126-10-3**] 02:50 PM
   Haloperidol (Haldol) - [**2126-10-3**] 10:22 PM
   Pantoprazole (Protonix) - [**2126-10-4**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-4**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.2
   HR: 113 (78 - 131) bpm
   BP: 137/59(77) {84/53(60) - 179/95(112)} mmHg
   RR: 23 (11 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.5 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  2,372 mL
                                                                  1,113 mL
   PO:
             TF:
                                                                  1,334 mL
                                                                    469 mL
   IVF:
                                                                    538 mL
                                                                    414 mL
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                    275 mL
   Urine:
                                                                  1,390 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    982 mL
                                                                    838 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 368 (193 - 411) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   Plateau: 17 cmH2O
   Compliance: 57.1 cmH2O/mL
   SpO2: 97%
   ABG: ///46/
   Ve: 9 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, No(t) Oriented (to): ,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   541 K/uL
   7.7 g/dL
   105 mg/dL
   0.5 mg/dL
   46 mEq/L
   4.2 mEq/L
   15 mg/dL
   99 mEq/L
   150 mEq/L
   25.8 %
   12.5 K/uL
        [image002.jpg]
                             [**2126-9-29**]  03:28 PM
                             [**2126-9-30**]  04:03 AM
                             [**2126-9-30**]  05:10 PM
                             [**2126-10-1**]  03:57 AM
                             [**2126-10-1**]  01:50 PM
                             [**2126-10-2**]  04:15 AM
                             [**2126-10-2**]  05:14 PM
                             [**2126-10-3**]  02:39 AM
                             [**2126-10-3**]  06:24 PM
                             [**2126-10-4**]  05:26 AM
   WBC
   13.4
   14.8
   14.5
   14.7
   12.5
   Hct
   27.3
   29.4
   27.4
   28.7
   25.8
   Plt
   [**Telephone/Fax (3) 10365**]10
   541
   Cr
   0.5
   0.5
   0.6
   0.5
   0.6
   0.4
   0.5
   0.6
   0.5
   0.5
   Glucose
   130
   111
   175
   178
   194
   91
   133
   135
   97
   105
   Other labs: PT / PTT / INR:12.1/29.9/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Lactic Acid:1.3 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Imaging: CT Chest:
   Severe empysema persists ETT/trach tube 3.7cm from carina, OGT, L PICC
   tip
   lower SVC, RML & RLL consolidative opacity persists but decreased c/w
   atelectasis/pneumonia. LLL atelectasis.4 Prevasc, subcarinal nodes
   stable
   but R paratrach more prominent
   MRI:
   1. Ill-defined T2 hyperintensity within the basis pons which can
   represent
   chronic midroangiopathic small vessel ischemic changes or, in the
   proper
   clinical setting, this can represent osmotic pontine myelinolysis.
   Clinical
   correlation recommended.
   2. Mild chronic microangiopathic small vessel ischemic changes in a
   patient
   of this age. Mild diffuse parenchymal volume loss, likely age related.
   3. No acute infarction.
   CT Right Extremity:
   Prelim elbow, wrist fracture
   Microbiology: [**2126-10-3**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2126-10-3**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2126-10-3**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY;
   Immunoflourescent test for Pneumocystis jirovecii
   (carinii)-PRELIMINARY; [**Year (4 digits) **] CULTURE-PRELIMINARY; ACID FAST
   SMEAR-PRELIMINARY; ACID FAST CULTURE-PRELIMINARY INPATIENT
   [**2126-10-3**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2126-10-1**]  CATHETER TIP-IV WOUND CULTURE-PRELIMINARY {STAPHYLOCOCCUS,
   COAGULASE NEGATIVE} INPATIENT
   [**2126-10-1**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2126-10-1**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2126-9-30**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2126-9-30**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   Assessment and Plan
   53 yo m admitted to MICU for respiratory distress and now s/p PEA
   arrest [**2126-9-20**] s/p Arctic Sun cooling protocol, seizures, and
   pseudomanas-pneumonia.
   # Respiratory Distress: Likely [**2-11**] underlying COPD and cuff leak. Also
   treating VAP. Also appears agitated off all sedation.
   CT finding of RML and RLL opacification suggestive of a pneumonia.
   - maintaining on 10 of Peep, obtain valve
   - continue to treat blood cultures with pseudomonas
 meropenem,
   tobramycin for pseudomonal infection, ID following
 will ask about
   course now that CT does not show pneumonia
   - sputum culture
 for PCP, [**Name10 (NameIs) 1156**], AFB, gram stain -- pending
   - RTC albuterol, ipratropirum nebs
   - I/O -500 cc, IV lasix bolus x 1, [**Hospital1 **] lytes, though continued to be
   positive yesterday
   - continue home steroids
   - continue bactrim ppx
   # Agitation/Delirium: Currently treating pseudomonas in cultures. [**Month (only) 60**]
   be due to pain, ICU delirium
   - continue propofol for now but attempt to wean
   - continue fentanyl patch for pain
   - pt to get surgery on Monday on arm, so once this is completed,
   delirum may become better
   - increase dosage of haldol today, follow qtc
   # Seizure:  Had last Sz activity last Friday. Neuro believes that he
   could have a reasonable prognosis given his intermittent responsiveness
   to commands. MRI with pons hyperdensity, no acute stroke.
   - f/u neuro recs
   - f/u keppra level
   - continue keppra 1000/1500mg [**Hospital1 **]
   - daily wake ups to assess mental status
   # Fevers: Being treated for Bcx with pseudamonas. Now also has a blood
   cx from [**9-27**] with GPC in one bottle, likely contaminant.  Also now
   found to have meropenem
 resistant pseudomonas.  Also with c.
   difficile infection
   - Continue meropenem and tobramycin per ID
   - cont PO Vanc for Cdiff day 5
   - f/u ID recs
   - f/u all culture data
   - monitor fever curve
   - consider CTA in near future for ? PE if low grade fevers do not
   resolve
   # C. Diff Infection: Decreasing diarrhea overnight.
   - on po vanco Day 5
   # Metabolic alkalosis: Elevated bicarbonate.
   - check PM lytes
   - K > 4.5 for goal with K sliding scale
   - consider Diamox in the future
   #  Wrist fracture/Rib fracture/Osteoperosis: potential operative
   management for wrist/elbow fractures.
   - ortho recs appreciated
 would do ex-fix of wrist on Monday
   - Fentanyl patch
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   # Hypernatermia
   - increase free water flushes
   - PM lytes
   # S/P PEA Arrest:  Concern for anxoic brain injury.   [**9-22**] head CT with
   no pathology.
   - follow mental status with decreasing sedation
   - monitor on tele
   - continue keppra
   # Sinus Tachycardia: had on admission, now returned after rewarming.
   Does not show evidence of bleeding. No PE on CTA. Bolused without
   improvement. No improvement with fentanyl. Continues to be stable. [**Month (only) 60**]
   be due to brain injury / multiple infections.
   - monitor
   # DM, type II:
   - continue SSI from nursing home
   # Anemia of iron def: stable,
   - monitor hct
   - continue iron tablets
   - active T&S
   - Minimize blood draws
   # Depression: stable
   - continue celexa
   # Hx of  gastric ulcers: no evidence of GI bleed at this time, no abd
   pain
   - home PPI
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-3**] 04:36 PM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-10-3**] 04:30 PM
   PICC Line - [**2126-10-3**] 05:00 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: PPI
   VAP: bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2126-10-04 12:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 PICC LINE - START [**2126-10-3**] 05:00 PM
   CT chest and arm. Plan for plating of fracture in OR on monday.
   Placed back on propofol overnight.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2126-10-2**] 10:40 AM
   Tobramycin - [**2126-10-3**] 06:00 PM
   Meropenem - [**2126-10-4**] 05:39 AM
   Vancomycin - [**2126-10-4**] 05:39 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2126-10-3**] 12:45 PM
   Fentanyl - [**2126-10-3**] 02:50 PM
   Haloperidol (Haldol) - [**2126-10-3**] 10:22 PM
   Pantoprazole (Protonix) - [**2126-10-4**] 12:00 AM
   Other medications:
   Sliding scale insulin, ipratropium, fondaparinux, colace [**Hospital1 **], senna
   [**Hospital1 **], mirapex, vitamin D, bactrim, citalopram, pantoprazole, iron,
   chlorhexidine, vanco, meropenem, keppra, fentanyl patch, haldol,
   propofol, tobramycin,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-4**] 12:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.3
   HR: 101 (78 - 125) bpm
   BP: 152/77(96) {104/57(70) - 179/95(112)} mmHg
   RR: 19 (11 - 23) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.5 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  2,372 mL
                                                                  1,495 mL
   PO:
             TF:
                                                                  1,334 mL
                                                                    728 mL
   IVF:
                                                                    538 mL
                                                                    407 mL
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                    410 mL
   Urine:
                                                                  1,390 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    982 mL
                                                                  1,085 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 302 (285 - 411) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 21
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   Plateau: 17 cmH2O
   Compliance: 57.1 cmH2O/mL
   SpO2: 98%
   ABG: ///46/
   Ve: 5.7 L/min
   Physical Examination
   General Appearance: Anxious, akathesia
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachy regular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Normal, doensot follow commands, but opens eyes and turns to
   voice.
   Labs / Radiology
   7.7 g/dL
   541 K/uL
   105 mg/dL
   0.5 mg/dL
   46 mEq/L
   4.2 mEq/L
   15 mg/dL
   99 mEq/L
   150 mEq/L
   25.8 %
   12.5 K/uL
        [image002.jpg]
                             [**2126-9-29**]  03:28 PM
                             [**2126-9-30**]  04:03 AM
                             [**2126-9-30**]  05:10 PM
                             [**2126-10-1**]  03:57 AM
                             [**2126-10-1**]  01:50 PM
                             [**2126-10-2**]  04:15 AM
                             [**2126-10-2**]  05:14 PM
                             [**2126-10-3**]  02:39 AM
                             [**2126-10-3**]  06:24 PM
                             [**2126-10-4**]  05:26 AM
   WBC
   13.4
   14.8
   14.5
   14.7
   12.5
   Hct
   27.3
   29.4
   27.4
   28.7
   25.8
   Plt
   [**Telephone/Fax (3) 10365**]10
   541
   Cr
   0.5
   0.5
   0.6
   0.5
   0.6
   0.4
   0.5
   0.6
   0.5
   0.5
   Glucose
   130
   111
   175
   178
   194
   91
   133
   135
   97
   105
   Other labs: PT / PTT / INR:12.1/29.9/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Lactic Acid:1.3 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Imaging: CT Chest with no infiltrate or pneumonia.
   Assessment and Plan
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP): resolved on Chest
   CT.
 RESPIRATORY FAILURE, CHRONIC: keep TBB even to slightly negative.
   Will try on trach mask again today after weaning him off propofol.
 ALTERED MENTAL STATUS (NOT DELIRIUM);
   ICU delirium, titrate up haldol.
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC):
   non evident of MRI brain.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION:will try trach mask with Peep valve.
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS: f/u keppra level .
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   contineu po vanco
 FRACTURE, OTHER
   to OR for fixation next monday.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-4**] 11:06 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
     No convincing improvement with respect to his [**Year (4 digits) 10369**]/agitation. It
   remains the major hurdle to imrprovement.
   Exam notable for
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.3
   HR: 101 (78 - 125) bpm
   BP: 152/77(96) {104/57(70) - 179/95(112)} mmHg
   RR: 19 (11 - 23) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.5 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  2,372 mL
                                                                  1,495 mL
   PO:
             TF:
                                                                  1,334 mL
                                                                    728 mL
   IVF:
                                                                    538 mL
                                                                    407 mL
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                    410 mL
   Urine:
                                                                  1,390 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    982 mL
                                                                  1,085 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 302 (285 - 411) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 21
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   Plateau: 17 cmH2O
   Compliance: 57.1 cmH2O/mL
   SpO2: 98%
   ABG: ///46/
   Ve: 5.7 L/min
   Trached, awake, no distress, not following commands
   Moving all 4 extrmeties
   Lungs with scattered rhonchi
   Hrt rrr
   Abd beign
   Extrem splinted RUE
   Labs notable for WBC K, HCT  , Na  ,K+  , HCO3  ,Cr   ,lactate
   Imaging:
   chest CT
 improved infiltrates, residual atelectasis, stable emphysema
   MRI with hyperintensity in pons
   Arm CT interp pending
   Problems: [**Name2 (NI) 10369**], bacteremia, arm fracture, Cdiff, emphysema, airway
   malacia
   Agree with plan to increase haldol, wean propofol, continue abx
   discuss course with ID, wean vent as tolerated, repair of fracture on
   monday
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 37 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2126-10-4**] 15:56 ------

2126-10-05 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - developed trach cuff leak overnight, but mangaged by respiratory with
   improvement by temporarily inflating with additional pressure, and then
   withdrawing air.
   - foley exchanged for leak
   - tobra peak returned at 0.2 with goal for <0.1
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2126-10-2**] 10:40 AM
   Tobramycin - [**2126-10-4**] 05:11 PM
   Meropenem - [**2126-10-5**] 06:00 AM
   Vancomycin - [**2126-10-5**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2126-10-4**] 03:00 PM
   Pantoprazole (Protonix) - [**2126-10-5**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-5**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 89 (86 - 121) bpm
   BP: 139/63(80) {108/57(71) - 166/85(101)} mmHg
   RR: 16 (15 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.3 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  3,781 mL
                                                                  1,234 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    461 mL
   IVF:
                                                                  1,241 mL
                                                                    413 mL
   Blood products:
   Total out:
                                                                    930 mL
                                                                    350 mL
   Urine:
                                                                    930 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,851 mL
                                                                    884 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 278 (179 - 494) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ///47/
   Ve: 6 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   523 K/uL
   7.7 g/dL
   118 mg/dL
   0.5 mg/dL
   47 mEq/L
   3.6 mEq/L
   14 mg/dL
   82 mEq/L
   140 mEq/L
   24.0 %
   11.5 K/uL
        [image002.jpg]
                             [**2126-9-30**]  05:10 PM
                             [**2126-10-1**]  03:57 AM
                             [**2126-10-1**]  01:50 PM
                             [**2126-10-2**]  04:15 AM
                             [**2126-10-2**]  05:14 PM
                             [**2126-10-3**]  02:39 AM
                             [**2126-10-3**]  06:24 PM
                             [**2126-10-4**]  05:26 AM
                             [**2126-10-4**]  04:41 PM
                             [**2126-10-5**]  04:24 AM
   WBC
   14.8
   14.5
   14.7
   12.5
   11.5
   Hct
   29.4
   27.4
   28.7
   25.8
   24.0
   Plt
   [**Telephone/Fax (3) 10379**]41
   523
   Cr
   0.6
   0.5
   0.6
   0.4
   0.5
   0.6
   0.5
   0.5
   0.5
   0.5
   Glucose
   175
   178
   194
   91
   133
   135
   97
   105
   156
   118
   Other labs: PT / PTT / INR:12.1/29.9/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Lactic Acid:1.3 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Imaging: CT [**10-3**] final read:
   1. Near resolution of multifocal pneumonia. No further CT follow up is
   necessary, but follow up conventional radiographs may be helpful to
   document
   resolution.
   2. Severe emphysema.
   3. Stable dilation of the main pulmonary artery compatible with
   pulmonary
   arterial hypertension.
   4. Non-obstructing left renal calculi.
   Microbiology:   [**10-3**] sputum
    RESPIRATORY CULTURE (Preliminary):
         Further incubation required to determine the presence or absence
   of
         commensal respiratory flora.
         YEAST.    SPARSE GROWTH.
   Assessment and Plan
   53 yo m admitted to MICU for respiratory distress and now s/p PEA
   arrest [**2126-9-20**] s/p Arctic Sun cooling protocol, seizures, and
   pseudomanas-pneumonia.
   # Respiratory Distress: Likely [**2-11**] underlying COPD and cuff leak. Also
   treating VAP. Also appears agitated off all sedation.
   CT finding of RML and RLL opacification suggestive of a pneumonia.
   - maintaining on 10 of Peep, obtain valve
   - continue to treat blood cultures with pseudomonas
 meropenem,
   tobramycin for pseudomonal infection, ID following
 will ask about
   course now that CT does not show pneumonia
   - sputum culture
 for PCP, [**Name10 (NameIs) 1156**], AFB, gram stain -- pending
   - RTC albuterol, ipratropirum nebs
   - I/O -500 cc, IV lasix bolus x 1, [**Hospital1 **] lytes, though continued to be
   positive yesterday
   - continue home steroids
   - continue bactrim ppx
   # Agitation/Delirium: Currently treating pseudomonas in cultures. [**Month (only) 60**]
   be due to pain, ICU delirium
   - continue propofol for now but attempt to wean
   - continue fentanyl patch for pain
   - pt to get surgery on Monday on arm, so once this is completed,
   delirum may become better
   - increase dosage of haldol today, follow qtc
    # Anemia
   # Seizure:  Had last Sz activity last Friday. Neuro believes that he
   could have a reasonable prognosis given his intermittent responsiveness
   to commands. MRI with pons hyperdensity, no acute stroke.
   - f/u neuro recs
   - f/u keppra level
   - continue keppra 1000/1500mg [**Hospital1 **]
   - daily wake ups to assess mental status
   # Fevers: Being treated for Bcx with pseudamonas. Now also has a blood
   cx from [**9-27**] with GPC in one bottle, likely contaminant.  Also now
   found to have meropenem
 resistant pseudomonas.  Also with c.
   difficile infection
   - Continue meropenem and tobramycin per ID
   - cont PO Vanc for Cdiff day 5
   - f/u ID recs
   - f/u all culture data
   - monitor fever curve
   - consider CTA in near future for ? PE if low grade fevers do not
   resolve
   # C. Diff Infection: Decreasing diarrhea overnight.
   - on po vanco Day 5
   # Metabolic alkalosis: Elevated bicarbonate.
   - check PM lytes
   - K > 4.5 for goal with K sliding scale
   - consider Diamox in the future
   #  Wrist fracture/Rib fracture/Osteoperosis: potential operative
   management for wrist/elbow fractures.
   - ortho recs appreciated
 would do ex-fix of wrist on Monday
   - Fentanyl patch
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   # Hypernatermia
   - increase free water flushes
   - PM lytes
   # S/P PEA Arrest:  Concern for anxoic brain injury.   [**9-22**] head CT with
   no pathology.
   - follow mental status with decreasing sedation
   - monitor on tele
   - continue keppra
   # Sinus Tachycardia: had on admission, now returned after rewarming.
   Does not show evidence of bleeding. No PE on CTA. Bolused without
   improvement. No improvement with fentanyl. Continues to be stable. [**Month (only) 60**]
   be due to brain injury / multiple infections.
   - monitor
   # DM, type II:
   - continue SSI from nursing home
   # Anemia of iron def: stable,
   - monitor hct
   - continue iron tablets
   - active T&S
   - Minimize blood draws
   # Depression: stable
   - continue celexa
   # Hx of  gastric ulcers: no evidence of GI bleed at this time, no abd
   pain
   - home PPI
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-5**] 03:44 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   20 Gauge - [**2126-10-4**] 07:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-10-05 08:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2126-10-4**] 08:05 AM
   > trach cuff leak
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2126-10-2**] 10:40 AM
   Tobramycin - [**2126-10-4**] 05:11 PM
   Meropenem - [**2126-10-5**] 06:00 AM
   Vancomycin - [**2126-10-5**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2126-10-4**] 03:00 PM
   Pantoprazole (Protonix) - [**2126-10-5**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-5**] 08:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 89 (86 - 113) bpm
   BP: 139/63(80) {108/58(71) - 166/85(101)} mmHg
   RR: 16 (15 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.3 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  3,781 mL
                                                                  1,309 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    525 mL
   IVF:
                                                                  1,241 mL
                                                                    424 mL
   Blood products:
   Total out:
                                                                    930 mL
                                                                    350 mL
   Urine:
                                                                    930 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,851 mL
                                                                    959 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 278 (179 - 494) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ///47/
   Ve: 6 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, Trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Wheezes : ,
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: not  Attentive, Responds to: responds to mechanical stimuli
   Labs / Radiology
   7.7 g/dL
   523 K/uL
   118 mg/dL
   0.5 mg/dL
   47 mEq/L
   3.6 mEq/L
   14 mg/dL
   82 mEq/L
   140 mEq/L
   24.0 %
   11.5 K/uL
        [image002.jpg]
                             [**2126-9-30**]  05:10 PM
                             [**2126-10-1**]  03:57 AM
                             [**2126-10-1**]  01:50 PM
                             [**2126-10-2**]  04:15 AM
                             [**2126-10-2**]  05:14 PM
                             [**2126-10-3**]  02:39 AM
                             [**2126-10-3**]  06:24 PM
                             [**2126-10-4**]  05:26 AM
                             [**2126-10-4**]  04:41 PM
                             [**2126-10-5**]  04:24 AM
   WBC
   14.8
   14.5
   14.7
   12.5
   11.5
   Hct
   29.4
   27.4
   28.7
   25.8
   24.0
   Plt
   [**Telephone/Fax (3) 10379**]41
   523
   Cr
   0.6
   0.5
   0.6
   0.4
   0.5
   0.6
   0.5
   0.5
   0.5
   0.5
   Glucose
   175
   178
   194
   91
   133
   135
   97
   105
   156
   118
   Other labs: PT / PTT / INR:12.1/29.9/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Lactic Acid:1.3 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP): resolved on Chest
   CT (Pseudomonas),. No change to Abx regimen (tobra IV and meropenem
   total course for two weeks)
   > Anemia: Hct down to 24 from 27-29 range. No obvious source, will
   repeat as a first step.
 RESPIRATORY FAILURE, CHRONIC: keep TBB even to slightly negative.  On
   vent for now as he is PEEP dependent in part [**2-11**] chronic illness and
   deoconditioning, volume overload, chronic infections and underlying
   COPD.  An trial trach mask with PEEP vent.
 ALTERED MENTAL STATUS (NOT DELIRIUM);
   ICU delirium, not tolerating haldol [**2-11**] prolonged Qtc. On propofol for
   agitation for now, working on titrating down and finding stable
   regimen.   Unclear what underlying etiology is. He has not responded to
   seroquel in the past.  Can try prn benzodiazepine.  Could also be an
   effect of rising CO2 level esp in the setting of his sedation
   Will check an ABG today (looks like his baseline CO2 is in the high
   80
s) to see if this is contributing.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION:will try trach mask with Peep valve, but
   cautiously follow given question of hypercarbic arrest in the past.
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS: f/u keppra level .
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   continue po vanco
 FRACTURE, OTHER
   to OR for fixation next monday.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-5**] 03:44 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   20 Gauge - [**2126-10-4**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE STAFF ADDENDUM
   I saw and examined Mr. [**Name14 (STitle) 10383**] with Dr. [**First Name (STitle) 1162**], whose note above
   reflects my input.  78yo M with TBM, steroid-dependent COPD and
   diastolic heart failure as well as chronic trach (not on vent
   chronically) who p/w comminuted wrist fracture and in setting of pain
   meds developed hypercarbic resp failure.  Course complicated by
   hypoxemic PEA when transitioning from vent to trach mask, mucous
   plugging vs bronchospasm. now s/p cooling with slowly improving mental
   status.  Had some cuff leak overnight, now improved.  Sedation weaning
   has been challenging and complicated by tachypnea.  On exam, moving
   reasonable air.  Left arm splinted.  Coarse breath sounds.  Soft
   abdomen.  We will plan to try to wean sedation slowly; if unsuccessful,
   might be reasonable to trial dexmedetomidine in next couple of days.
   In addition, tidal volumes are relatively small.  [**Month (only) 60**] reflect air
   trapping, TBM, etc.  However, would check NIF in a.m. given steroids
   and being on aminoglycoside.  Continue present antibiotics for highly
   resistant pneumonia. Suspect CNS in blood was a contaminant, but
   following.  Also continue to treat c diff.  Other issues as per Dr.
   [**First Name (STitle) 1162**]
s note
   He is critically ill: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2126-10-6**] 01:29 AM ------

2126-10-06 08:16:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > Propofol decreased by
 to 30.
   > Desats with suctioning for thick yellow sputum and subsequent
   improvement
   > 100.4  temp this AM
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Tobramycin - [**2126-10-5**] 06:00 PM
   Meropenem - [**2126-10-6**] 06:00 AM
   Vancomycin - [**2126-10-6**] 06:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2126-10-5**] 08:00 PM
   Lorazepam (Ativan) - [**2126-10-5**] 10:00 PM
   Pantoprazole (Protonix) - [**2126-10-6**] 12:42 AM
   Fentanyl - [**2126-10-6**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-6**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.7
C (99.8
   HR: 114 (93 - 122) bpm
   BP: 144/69(84) {119/64(75) - 167/110(117)} mmHg
   RR: 24 (16 - 35) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.3 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  3,965 mL
                                                                  1,250 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    494 mL
   IVF:
                                                                  1,205 mL
                                                                    306 mL
   Blood products:
   Total out:
                                                                  2,417 mL
                                                                    290 mL
   Urine:
                                                                  2,417 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,548 mL
                                                                    960 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 321 (265 - 388) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   SpO2: 90%
   ABG: 7.35/91/99.[**Numeric Identifier 128**]/46/19
   Ve: 10.1 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed, left arm fracture, arm in cast
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Oriented (to): 0, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   7.9 g/dL
   529 K/uL
   116 mg/dL
   0.5 mg/dL
   46 mEq/L
   3.8 mEq/L
   13 mg/dL
   82 mEq/L
   141 mEq/L
   25.4 %
   12.2 K/uL
        [image002.jpg]
                             [**2126-10-2**]  04:15 AM
                             [**2126-10-2**]  05:14 PM
                             [**2126-10-3**]  02:39 AM
                             [**2126-10-3**]  06:24 PM
                             [**2126-10-4**]  05:26 AM
                             [**2126-10-4**]  04:41 PM
                             [**2126-10-5**]  04:24 AM
                             [**2126-10-5**]  01:01 PM
                             [**2126-10-5**]  01:07 PM
                             [**2126-10-6**]  04:42 AM
   WBC
   14.5
   14.7
   12.5
   11.5
   11.0
   12.2
   Hct
   27.4
   28.7
   25.8
   24.0
   24.9
   26
   25.4
   Plt
   [**Telephone/Fax (3) 10384**]23
   498
   529
   Cr
   0.4
   0.5
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   52
   Glucose
   91
   133
   135
   97
   105
   156
   118
   139
   146
   116
   Other labs: PT / PTT / INR:12.1/29.9/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP): resolved on Chest
   CT (Pseudomonas),. No change to Abx regimen (tobra IV and meropenem
   total course for two weeks)
   > Fever: this AM. Pan clx today no change to empiric coverage as he is
   clinically stable. Currently covering c. dif and pseudomonas. Pan scan
   CT today (including sinus)
   > Anemia: Hct down to 24 from 27-29 range. No obvious source, will
   repeat as a first step.

 RESPIRATORY FAILURE, CHRONIC: keep TBB even to slightly negative.
   On vent for now as he is PEEP dependent in part [**2-11**] chronic illness and
   deoconditioning, volume overload, chronic infections and underlying
   COPD.  An trial trach mask with PEEP vent.
 ALTERED MENTAL STATUS (NOT DELIRIUM);
   ICU delirium, not tolerating haldol [**2-11**] prolonged Qtc. On propofol for
   agitation for now, working on titrating down and finding stable
   regimen.   Unclear what underlying etiology is. He has not responded to
   seroquel in the past.  Can try prn benzodiazepine.  Could also consider
   using dexmetomidate as an alternative [**Doctor Last Name **]..
   ABG [**10-5**] did not reveal evidence of CO2 different from baseline (high
   80's)
   - Slow wean of propofol, goal 15 today.

 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION:will try trach mask with Peep valve, but
   cautiously follow given question of hypercarbic arrest in the past.
   Persistent hypoxemic and tachyxcardia,r/o PE (increased incidence in
   COPD patients).
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS: f/u keppra level .
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   continue po vanco
 FRACTURE, OTHER
   to OR for fixation on monday.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-5**] 08:24 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   20 Gauge - [**2126-10-5**] 05:27 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2126-10-07 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2126-10-6**] 08:55 AM
 BLOOD CULTURED - At [**2126-10-6**] 12:00 PM
   x2 PICC and venapuncture
 SPUTUM CULTURE - At [**2126-10-6**] 12:00 PM
 URINE CULTURE - At [**2126-10-6**] 12:00 PM
   -pan scanned, no PE, no sinusitis, still with RLL pna,  no intra abd
   process (given mucomyst)
   -stopped celexa
   -decreased free water flushes to improve I/O
   -given 40mg IV lasix x3
   -NPO for OR with ortho, 2^nd case
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Tobramycin - [**2126-10-5**] 06:00 PM
   Meropenem - [**2126-10-7**] 06:08 AM
   Vancomycin - [**2126-10-7**] 06:08 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Fondaparinux - [**2126-10-6**] 04:25 PM
   Propofol - [**2126-10-6**] 10:15 PM
   Pantoprazole (Protonix) - [**2126-10-7**] 12:00 AM
   Furosemide (Lasix) - [**2126-10-7**] 12:08 AM
   Fentanyl - [**2126-10-7**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-7**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.4
C (99.3
   HR: 110 (77 - 126) bpm
   BP: 143/78(95) {112/57(50) - 170/111(118)} mmHg
   RR: 24 (13 - 28) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.3 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  4,102 mL
                                                                    331 mL
   PO:
             TF:
                                                                  1,205 mL
   IVF:
                                                                    867 mL
                                                                    281 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                    900 mL
   Urine:
                                                                  2,450 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,652 mL
                                                                   -569 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 244 (244 - 477) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 93%
   ABG: ///48/
   Ve: 5.5 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   561 K/uL
   8.3 g/dL
   96 mg/dL
   0.5 mg/dL
   48 mEq/L
   3.5 mEq/L
   12 mg/dL
   80 mEq/L
   138 mEq/L
   26.1 %
   12.9 K/uL
        [image002.jpg]
                             [**2126-10-3**]  02:39 AM
                             [**2126-10-3**]  06:24 PM
                             [**2126-10-4**]  05:26 AM
                             [**2126-10-4**]  04:41 PM
                             [**2126-10-5**]  04:24 AM
                             [**2126-10-5**]  01:01 PM
                             [**2126-10-5**]  01:07 PM
                             [**2126-10-6**]  04:42 AM
                             [**2126-10-6**]  06:14 PM
                             [**2126-10-7**]  03:15 AM
   WBC
   14.7
   12.5
   11.5
   11.0
   12.2
   12.9
   Hct
   28.7
   25.8
   24.0
   24.9
   26
   25.4
   26.1
   Plt
   [**Telephone/Fax (3) 10389**]98
   529
   561
   Cr
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.6
   0.5
   TCO2
   52
   Glucose
   135
   97
   105
   156
   118
   139
   146
   116
   118
   96
   Other labs: PT / PTT / INR:12.1/28.4/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   53 yo m admitted to MICU for respiratory distress and now s/p PEA
   arrest [**2126-9-20**] s/p Arctic Sun cooling protocol, seizures, and
   pseudomanas-pneumonia.
   # Fevers: Being treated for Bcx with pseudamonas. Now also has a blood
   cx from [**9-27**] with GPC in one bottle, likely contaminant and cath tip
   culture [**10-1**] coag neg staph but surveillance cultures negative.  Also
   now found to have meropenem
 resistant pseudomonas.  Also with c.
   difficile infection.
   - Continue meropenem and tobramycin per ID for 2 weeks, day 7
   - cont PO Vanc for Cdiff day 7
   - f/u ID recs
   - f/u all culture data
   - monitor fever curve
   - CT sinus, CT torso, CTA
   # Respiratory Distress: Likely [**2-11**] underlying COPD. Also treating VAP.
   Also appears agitated off all sedation.
   CT [**10-3**] showed interval improvement of RML and RLL opacifications.
   - maintaining on 10 of Peep, obtain valve on Monday
   - continue to treat blood cultures with pseudomonas
 meropenem,
   tobramycin for pseudomonal infection, ID following, request tobramycin
   and meropenem for total x 2 weeks now on day 7
   - sputum culture
 for PCP, [**Name10 (NameIs) 1156**], AFB, gram stain
 NGTD but the PCP
   was insufficient for culture
   - RTC albuterol, ipratropirum nebs
   - I/O even , [**Hospital1 **] lytes, IV lasix 40 x [**Hospital1 **]
   - continue home steroids
   - continue bactrim ppx
   # Agitation/Delirium: Currently treating pseudomonas in blood and
   sputum cultures. [**Month (only) 60**] be due to pain, ICU delirium
   - wean propofol today, add prn ativan
   - continue fentanyl patch for pain
   - pt to get surgery on Monday on arm, so once this is completed,
   delirum may become better
   - hold haldol due to QTc prolonged
   # Seizure:  Had last Sz activity last Friday. Neuro believes that he
   could have a reasonable prognosis given his intermittent responsiveness
   to commands. MRI with pons hyperdensity, no acute stroke.
   - f/u neuro recs
   - f/u keppra level
   - continue keppra 1000/1500mg [**Hospital1 **]
   - daily wake ups to assess mental status
   # C. Diff Infection: Decreasing diarrhea.
   - continue po vancomycin x 2 weeks (day 7)
   #  Wrist fracture/Rib fracture/Osteoperosis: potential operative
   management for wrist/elbow fractures.
   - ortho recs appreciated
 would do ex-fix of wrist on Monday
   - Fentanyl patch
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   # S/P PEA Arrest:  Concern for anxoic brain injury although MRI [**10-2**]
   showed pons pathology that neuro says could be possibly reversable.
   [**9-22**] head CT with no pathology.
   - follow mental status with decreasing sedation
   - monitor on tele
   - continue keppra
   # Sinus Tachycardia: had on admission, now returned after rewarming.
   Does not show evidence of bleeding. No PE on CTA. Bolused without
   improvement. No improvement with fentanyl. Continues to be stable. [**Month (only) 60**]
   be due to brain injury / multiple infections.
   -repeat CTA
   - monitor
   # DM, type II:
   - continue SSI from nursing home
   # Anemia of iron def: stable,
   - monitor hct
   - continue iron tablets
   - active T&S
   - Minimize blood draws
   # Depression: stable
   - continue celexa
 will ask pharmacy about tapering
   # Hx of  gastric ulcers: no evidence of GI bleed at this time, no abd
   pain
   - home PPI
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-5**] 03:44 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   20 Gauge - [**2126-10-4**] 07:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2126-10-07 12:23:00 Physician Attending Progress Note
Chief Complaint: PEA arrest, right arm fracture.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   S/p OR: given rocuronium in the OR.  Pancultured and panscanned so far
   with no source for infection.
 EKG - At [**2126-10-6**] 08:55 AM
 BLOOD CULTURED - At [**2126-10-6**] 12:00 PM
   x2 PICC and venapuncture
 SPUTUM CULTURE - At [**2126-10-6**] 12:00 PM
 URINE CULTURE - At [**2126-10-6**] 12:00 PM
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Tobramycin - [**2126-10-5**] 06:00 PM
   Meropenem - [**2126-10-7**] 06:08 AM
   Vancomycin - [**2126-10-7**] 06:08 AM
   Infusions:
   Propofol - 100 mcg/Kg/min
   Other ICU medications:
   Fondaparinux - [**2126-10-6**] 04:25 PM
   Propofol - [**2126-10-6**] 10:15 PM
   Pantoprazole (Protonix) - [**2126-10-7**] 12:00 AM
   Furosemide (Lasix) - [**2126-10-7**] 12:08 AM
   Fentanyl - [**2126-10-7**] 11:00 AM
   Other medications:
   atrovent, colace, prednisone, senna, mirapex, vitmain D, asa 325,
   bactrim, calcium carbonate, panoprazole, ferrous sulfate,
   chlorhexidine, hydrocorisone cream, vancomycin po
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-7**] 12:21 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.7
C (98
   HR: 94 (77 - 119) bpm
   BP: 162/91(104) {120/57(50) - 170/138(143)} mmHg
   RR: 16 (10 - 28) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.3 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  4,102 mL
                                                                    942 mL
   PO:
             TF:
                                                                  1,205 mL
   IVF:
                                                                    867 mL
                                                                    892 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                  1,010 mL
   Urine:
                                                                  2,450 mL
                                                                  1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,652 mL
                                                                    -68 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 531 (244 - 531) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: ///48/
   Ve: 3.8 L/min
   Physical Examination
   Sedated unresponsive to loud voice
   Lungs clear anteriorly
   Heart regular nl S1, S2, no murmurs
   Abdomen soft non distended and non tender
   Ext no edema, no clubbing, warm and well perfused.
   Right arm in cast and ex fix device.
   Labs / Radiology
   8.3 g/dL
   561 K/uL
   96 mg/dL
   0.5 mg/dL
   48 mEq/L
   3.5 mEq/L
   12 mg/dL
   80 mEq/L
   138 mEq/L
   26.1 %
   12.9 K/uL
        [image002.jpg]
                             [**2126-10-3**]  02:39 AM
                             [**2126-10-3**]  06:24 PM
                             [**2126-10-4**]  05:26 AM
                             [**2126-10-4**]  04:41 PM
                             [**2126-10-5**]  04:24 AM
                             [**2126-10-5**]  01:01 PM
                             [**2126-10-5**]  01:07 PM
                             [**2126-10-6**]  04:42 AM
                             [**2126-10-6**]  06:14 PM
                             [**2126-10-7**]  03:15 AM
   WBC
   14.7
   12.5
   11.5
   11.0
   12.2
   12.9
   Hct
   28.7
   25.8
   24.0
   24.9
   26
   25.4
   26.1
   Plt
   [**Telephone/Fax (3) 10389**]98
   529
   561
   Cr
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.6
   0.5
   TCO2
   52
   Glucose
   135
   97
   105
   156
   118
   139
   146
   116
   118
   96
   Other labs: PT / PTT / INR:12.1/28.4/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR stable
   Microbiology: No new data
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM):
   improved s/p free water repletion
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP): +pseudomonas
   bacteremia
   on tobra + [**Last Name (un) 430**] x 14days
 RESPIRATORY FAILURE, CHRONIC:
   COPD, chronically elevated R hemidiaphragm, TBM, inability to wean off
   sedation due to agitation. wean again to PS as we wean propofol.
 ALTERED MENTAL STATUS (NOT DELIRIUM):
   some component of pain and some component of delirium.
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
   no evidence for this on MRI.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   continue inhalers on home dose of prednsione.
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
   continue Keppra.
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   s/p trach
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE):
   on vancomycin
 FRACTURE, OTHER
   s/p ex-fix of elbow, and int-fix of wris this am.
   ICU Care
   Nutrition:
   Comments: tube feeds.
   Glycemic Control:
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   22 Gauge - [**2126-10-6**] 02:24 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments: Will contact sister to update her today by
   phone.
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE STAFF ADDENDUM
   I saw and examined Mr. [**Name14 (STitle) 10383**] with Dr. [**First Name (STitle) 10399**], whose note above
   reflects my input.  78yo M with TBM, steroid-dependent COPD and
   diastolic heart failure as well as chronic trach (not on vent
   chronically) who p/w comminuted wrist fracture and in setting of pain
   meds developed hypercarbic resp failure.  Course complicated by
   hypoxemic PEA when transitioning from vent to trach mask.
   To OR today for repair of wrist fracture; uncomplicated course per
   surgeon and anesthiologist.
   Assessment and Plan
   78-year-old man with acute-on-chronic respiratory failure in the
   setting of COPD, TBM, and diastolic CHF.
   Agitation/?delirium has been a major factor limiting ability to wean.
   Prior cranial imaging has been unrevealing.  We will try adding
   clonidine and weaning propofol, while focusing on ensuring adequate
   pain control.  Will try to avoid BZD if possible.  Reportedly, little
   prior success with haldol (increased QT).
   Check NIF to exclude weakness as a cause of failure to wean.
   From an ID standpoint, continue present antibiotics for highly
   resistant pneumonia. Suspect CNS in blood was a contaminant, but
   following.  Also continue to treat c diff.
   Other issues as per Dr. [**First Name (STitle) 10399**]
s note and the ICU team note from today.
   He is critically ill: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2126-10-7**] 14:15 ------

2126-10-08 07:19:00 Physician Resident Progress Note
24 Hour Events:
   - went to operating room for right elbox ex-fix and wrist plating
   - titrated up fentanyl
   - started clonidine for agitation
   - decreased keppra to 1000mg po bid
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Tobramycin - [**2126-10-7**] 05:55 PM
   Meropenem - [**2126-10-8**] 06:03 AM
   Vancomycin - [**2126-10-8**] 06:03 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Fondaparinux - [**2126-10-7**] 04:00 PM
   Furosemide (Lasix) - [**2126-10-7**] 05:55 PM
   Pantoprazole (Protonix) - [**2126-10-8**] 12:00 AM
   Propofol - [**2126-10-8**] 12:00 AM
   Fentanyl - [**2126-10-8**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-8**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.6
C (99.7
   HR: 106 (81 - 115) bpm
   BP: 131/78(88) {102/20(60) - 164/98(106)} mmHg
   RR: 28 (10 - 40) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.3 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  2,628 mL
                                                                  1,073 mL
   PO:
             TF:
                                                                    660 mL
                                                                    439 mL
   IVF:
                                                                  1,748 mL
                                                                    354 mL
   Blood products:
   Total out:
                                                                  1,615 mL
                                                                    290 mL
   Urine:
                                                                  1,615 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,013 mL
                                                                    783 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 324 (269 - 531) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 28
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   SpO2: 91%
   ABG: ///48/
   Ve: 8.6 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   480 K/uL
   8.4 g/dL
   153 mg/dL
   0.6 mg/dL
   48 mEq/L
   3.1 mEq/L
   15 mg/dL
   79 mEq/L
   138 mEq/L
   25.0 %
   11.2 K/uL
        [image002.jpg]
                             [**2126-10-4**]  05:26 AM
                             [**2126-10-4**]  04:41 PM
                             [**2126-10-5**]  04:24 AM
                             [**2126-10-5**]  01:01 PM
                             [**2126-10-5**]  01:07 PM
                             [**2126-10-6**]  04:42 AM
                             [**2126-10-6**]  06:14 PM
                             [**2126-10-7**]  03:15 AM
                             [**2126-10-7**]  05:16 PM
                             [**2126-10-8**]  04:40 AM
   WBC
   12.5
   11.5
   11.0
   12.2
   12.9
   15.1
   11.2
   Hct
   25.8
   24.0
   24.9
   26
   25.4
   26.1
   26.8
   25.0
   Plt
   [**Telephone/Fax (3) 10406**]29
   561
   536
   480
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.6
   0.5
   0.7
   0.6
   TCO2
   52
   Glucose
   105
   156
   118
   139
   146
   116
   118
   96
   172
   153
   Other labs: PT / PTT / INR:11.7/29.1/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.8 mg/dL
[**2126-10-3**] 1:10 pm SPUTUM      Source: Induced.
   GRAM STAIN (Final [**2126-10-3**]):
      [**11-3**] PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Final [**2126-10-7**]):
      Commensal Respiratory Flora Absent.
      YEAST.    SPARSE GROWTH.
      PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |
CEFEPIME--------------    16 I
CEFTAZIDIME-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------     2 S
MEROPENEM-------------     8 I
PIPERACILLIN---------- =>128 R
PIPERACILLIN/TAZO----- =>128 R
TOBRAMYCIN------------   <=1 S
   [**10-3**] BCx x 2: pending
   [**10-6**] BCx x 2: pending
   [**10-6**] UCx: NGTD
[**10-6**] Sputum Cx
SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2126-10-6**]):
      >25 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):
      Further incubation required to determine the presence or absence of
      commensal respiratory flora.
      YEAST.    SPARSE GROWTH.
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
[**2126-10-1**] 8:14 pm CATHETER TIP-IV      Source: triple lumen.
                            **FINAL REPORT [**2126-10-7**]**
   WOUND CULTURE (Final [**2126-10-7**]):
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    >15 colonies.
         COAG NEG STAPH does NOT require contact precautions, regardless of
         resistance.
         Oxacillin RESISTANT Staphylococci MUST be reported as also
         RESISTANT to other penicillins, cephalosporins, carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations.
         Rifampin should not be used alone for therapy.
         VANCOMYCIN Sensitivity testing performed by Sensititre.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             STAPHYLOCOCCUS, COAGULASE NEGATIVE
                             |
CLINDAMYCIN-----------   =>8 R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------  =>16 R
LEVOFLOXACIN----------     4 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
VANCOMYCIN------------     2 S
   CXR [**10-7**]
   FINDINGS: As compared to the recent study, there has been slight
   improved
   aeration at the left base. Small left pleural effusion has also
   slightly
   decreased. Moderate right effusion with adjacent basilar atelectasis
   and
   apparent marked elevation of right hemidiaphragm are not substantially
   changed.
   [**10-6**] CTA / CT abd & pelvis
   IMPRESSION:
   1. No pulmonary embolus.
   2. Persistent right lower lobe pneumonia.
   3. No findings in the abdomen or pelvis to account for the patient's
   fever.
   [**10-6**] Sinus CT
   IMPRESSION: Moderate mucosal thickening involving the sphenoid sinuses.
   Otherwise unremarkable study.
   Assessment and Plan
   53 y.o. M admitted to MICU for respiratory distress s/p PEA arrest
   [**2126-9-20**] then completed Arctic Sun cooling protocol, course complicated
   by seizures, pseudomanas-pneumonia, agitation/delirium.
   # Agitation/Delirium: Currently treating pseudomonas in blood and
   sputum cultures. [**Month (only) 60**] be due to pain, particularly in pos-operative
   setting, ICU delirium, infectious (although treating).
   - attempt to wean propofol today, use Fentanyl boluses, ativan prn
   - continue fentanyl patch for pain
   - hold haldol due to prolonged QTc
   - continue clonidine
   - touch base with neuro regarding keppra dosing and duration
 may
   contribute to delirium?
   # Fevers: Being treated for Bcx with pseudamonas. Now also has a blood
   cx from [**9-27**] with GPC in one bottle, likely contaminant, and cath tip
   culture [**10-1**] coag neg staph but surveillance cultures negative.  Also
   now found to have meropenem
 resistant pseudomonas.  + C. difficile
   infection.  Pan-CT scan did not show any other source of infection.
   - Continue meropenem and tobramycin per ID for 2 weeks (last day of abx
   [**2126-10-13**])
   - cont PO Vanc for Cdiff day (last day of abx [**2126-10-13**])
   - f/u all culture data
   - monitor fever curve
   # Respiratory Distress: Likely [**2-11**] underlying COPD. Also treating VAP.
   Also appears agitated off all sedation.
   CT [**10-3**] showed interval improvement of RML and RLL opacifications.
   - maintaining on 10 of Peep, obtain valve on Monday
   - continue to treat blood cultures with pseudomonas
 meropenem,
   tobramycin for pseudomonal infectio
   - sputum culture
 for PCP, [**Name10 (NameIs) 1156**], AFB, gram stain
 NGTD but the PCP
   was insufficient for culture
   - RTC albuterol, ipratropirum nebs
   - I/O even , [**Hospital1 **] lytes if actively diuresing
   - continue home steroids
   - continue bactrim ppx
   #  Wrist fracture: s/p ex-fix and ORIF of R elbow and wrist yesterday
   [**10-7**]
   - appreciate ortho recs: c/s OT for R wrist orthoplast splint
   - ROM for R fingers/elbow, wrist to remain in splint
   - ortho to do dressing changes
   - pain control with Fentanyl patch
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   # Seizure:  No seizures for > 1 week. Neuro believes that he could have
   a reasonable prognosis given his intermittent responsiveness to
   commands. MRI with pons hyperdensity, no acute stroke.
   - f/u neuro recs
   - f/u keppra level
   - continue keppra at reduced dose
   - daily wake ups to assess mental status
   # C. Diff Infection: Decreasing diarrhea.
   - continue po vancomycin x 2 weeks
   # S/P PEA Arrest:  Concern for anxoic brain injury although MRI [**10-2**]
   showed pons pathology that neuro says could be possibly reversible.
   - follow mental status with decreasing sedation
   - monitor on tele
   - continue keppra
 will touch base with neuro about sz ppx dosing and
   duration
   # Anemia of iron def: trending down from baseline in ICU of 27, now 25
   but may be due to some operative blood loss
   - monitor hct
   - continue iron tablets
   - active T&S
   - guiaic all stools
   - Minimize blood draws
   # Sinus Tachycardia: had on admission, now returned after rewarming.
   Does not show evidence of bleeding. No PE on CTA. Bolused without
   improvement. No improvement with fentanyl. Continues to be stable. [**Month (only) 60**]
   be due to brain injury / multiple infections.
   - monitor
   # DM, type II:
   - continue SSI from nursing home
   # Depression: holding Celexa so as not to contribute to mental status
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-8**] 04:59 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: home PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2126-10-08 12:24:00 Physician Attending Progress Note
Chief Complaint:
   Remains aggitated, sister at bedside, concerned for patient
s mental
   status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   OR for [** 1423**] elbow/wrist
   klonidine started for aggitation
   Keppra being reduced
   History obtained from Family / Friend
   [**Name (NI) 53**] unable to provide history: Sedated, Encephalopathy
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Tobramycin - [**2126-10-7**] 05:55 PM
   Meropenem - [**2126-10-8**] 06:03 AM
   Vancomycin - [**2126-10-8**] 06:03 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Fondaparinux - [**2126-10-7**] 04:00 PM
   Furosemide (Lasix) - [**2126-10-7**] 05:55 PM
   Pantoprazole (Protonix) - [**2126-10-8**] 12:00 AM
   Fentanyl - [**2126-10-8**] 08:00 AM
   Propofol - [**2126-10-8**] 08:30 AM
   Other medications:
   bactrim tiw
   protonix
   iron
   fentanyl patch
   colace
   senna
   prednisone 15/20
   mirapex
   vit D
   asa 325
   atrovent nebs
   chlorhexadine
   keppra 1 g [**Hospital1 **]
   clonidine 0.1 tid
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-8**] 12:21 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 114 (92 - 115) bpm
   BP: 152/86(99) {102/20(60) - 164/98(104)} mmHg
   RR: 26 (13 - 40) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77.1 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  2,628 mL
                                                                  1,695 mL
   PO:
             TF:
                                                                    660 mL
                                                                    704 mL
   IVF:
                                                                  1,748 mL
                                                                    481 mL
   Blood products:
   Total out:
                                                                  1,615 mL
                                                                    610 mL
   Urine:
                                                                  1,615 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,013 mL
                                                                  1,085 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 278 (269 - 415) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 32
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   SpO2: 91%
   ABG: ///48/
   Ve: 8.9 L/min
   Physical Examination
   General Appearance: Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: ), increased wob
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, No(t) Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   480 K/uL
   153 mg/dL
   0.6 mg/dL
   48 mEq/L
   3.1 mEq/L
   15 mg/dL
   79 mEq/L
   138 mEq/L
   25.0 %
   11.2 K/uL
        [image002.jpg]
                             [**2126-10-4**]  05:26 AM
                             [**2126-10-4**]  04:41 PM
                             [**2126-10-5**]  04:24 AM
                             [**2126-10-5**]  01:01 PM
                             [**2126-10-5**]  01:07 PM
                             [**2126-10-6**]  04:42 AM
                             [**2126-10-6**]  06:14 PM
                             [**2126-10-7**]  03:15 AM
                             [**2126-10-7**]  05:16 PM
                             [**2126-10-8**]  04:40 AM
   WBC
   12.5
   11.5
   11.0
   12.2
   12.9
   15.1
   11.2
   Hct
   25.8
   24.0
   24.9
   26
   25.4
   26.1
   26.8
   25.0
   Plt
   [**Telephone/Fax (3) 10406**]29
   561
   536
   480
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.6
   0.5
   0.7
   0.6
   TCO2
   52
   Glucose
   105
   156
   118
   139
   146
   116
   118
   96
   172
   153
   Other labs: PT / PTT / INR:11.7/29.1/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Microbiology: [**10-3**] - sputum: pseudomonas, S to tobra, I to [**Last Name (un) 430**]
   [**10-6**] - sputum: gnr
   [**10-3**] - blood: pending
   [**10-6**] - blood: pending
   Assessment and Plan
   53 yo M COPD, OSA, chronic trach, p/w hypoxemic PEA arrest in setting
   of management for wrist/elbow fracture
   1. altered mental status: remains aggitated, delirious - ICU psychosis
   v pain v anoxic brain injury v pain v propofol withdrawal v keppra
    - cont wean propofol: ativan 2mg IV q 30' until sedated, then d/c
   propofol, titrate ativan accordingly
    - cont fentanyl patch for pain
    - currently holding haldol given prolonged QTc
    - cont clonidine for now
    -
   2. Fevers: likely [**2-11**] psa infection
    - cont [**Last Name (un) 430**] and tobra til [**10-13**]
    - vanc til [**10-13**]
   3. resp failure: CPAP
    - rll infiltrate v atelectasis
    - cont abx
    - cont albuterol/atrovent
    - TBB even
    - cont home steroid dose
    - cnt bactrim prophy
   4. Ortho: s/p [**Name (NI) 1423**]
    - PT for splint
    - dressing changes
   5. SZR: ? contribution to current mental status
    - downtitrating keppra
    - f/u level
    - ? repeat EEG
   6. CDIF:
    - cont PO vanc until [**10-13**]
   7. Sinus tach: pain v withdrawal v fever
    - persistent, cont monitor
   8/ depression: holding celexa
   9. neuro: will check NIF to assess muscle weakness
   ICU Care
   Nutrition: tube feeds
   Fibersource HN (Full) - [**2126-10-8**] 04:59 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments: with family, ongoing discussions regarding
   goc with family
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2126-10-09 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - propofol off, ativan 2 mg IV x 3 during day and x 2 at night
   - ortho recs: to start on POD2, OT; full ROM of fingers, no ROM of R
   wrist
   - neuro recs: reconnect pt to video EEG, would like to avoid ativan /
   propofol ideally during EEG, consider atypical antipsychotic, continue
   keppra at current dose (did not say duration) and f/u keppra level
   - keppra level still pending
   - VBG 7.39/74/83/46
   - NIF poor, as desated to 80s
   - RT concerned about pt appearing uncomfortable --> improved TV and
   decreased frequency with PS 8, PEEP 5, FiO2 35%
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Tobramycin - [**2126-10-8**] 06:34 PM
   Vancomycin - [**2126-10-9**] 06:07 AM
   Meropenem - [**2126-10-9**] 06:20 AM
   Infusions:
   Other ICU medications:
   Propofol - [**2126-10-8**] 08:30 AM
   Fondaparinux - [**2126-10-8**] 04:28 PM
   Lorazepam (Ativan) - [**2126-10-8**] 10:00 PM
   Fentanyl - [**2126-10-8**] 10:00 PM
   Pantoprazole (Protonix) - [**2126-10-9**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-9**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.9
C (100.2
   HR: 103 (92 - 119) bpm
   BP: 95/52(61) {92/45(56) - 152/86(99)} mmHg
   RR: 24 (19 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77.1 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  3,391 mL
                                                                    832 mL
   PO:
             TF:
                                                                  1,451 mL
                                                                    473 mL
   IVF:
                                                                    970 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                  1,220 mL
                                                                    320 mL
   Urine:
                                                                  1,220 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,171 mL
                                                                    512 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 276 (239 - 352) mL
   PS : 8 cmH2O
   RR (Spontaneous): 28
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   SpO2: 96%
   ABG: 7.44/70/68/45/18
   Ve: 8.4 L/min
   PaO2 / FiO2: 194
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   469 K/uL
   7.2 g/dL
   185 mg/dL
   0.5 mg/dL
   45 mEq/L
   3.9 mEq/L
   15 mg/dL
   94 mEq/L
   143 mEq/L
   24.2 %
   10.6 K/uL
        [image002.jpg]
                             [**2126-10-5**]  01:07 PM
                             [**2126-10-6**]  04:42 AM
                             [**2126-10-6**]  06:14 PM
                             [**2126-10-7**]  03:15 AM
                             [**2126-10-7**]  05:16 PM
                             [**2126-10-8**]  04:40 AM
                             [**2126-10-8**]  11:08 PM
                             [**2126-10-9**]  01:48 AM
                             [**2126-10-9**]  04:05 AM
                             [**2126-10-9**]  06:23 AM
   WBC
   12.2
   12.9
   15.1
   11.2
   10.6
   Hct
   26
   25.4
   26.1
   26.8
   25.0
   24.2
   Plt
   529
   561
   536
   480
   469
   Cr
   0.5
   0.6
   0.5
   0.7
   0.6
   0.5
   TCO2
   52
   51
   50
   49
   Glucose
   146
   116
   118
   96
   172
   153
   185
   Other labs: PT / PTT / INR:11.7/29.1/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Microbiology:    RESPIRATORY CULTURE (Final [**2126-10-8**]):
         Commensal Respiratory Flora Absent.
         YEAST.    SPARSE GROWTH.
         PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.
   Assessment and Plan
   53 y.o. M admitted to MICU for respiratory distress s/p PEA arrest
   [**2126-9-20**] then completed Arctic Sun cooling protocol, course complicated
   by seizures, pseudomanas-pneumonia, agitation/delirium.
   # Agitation/Delirium: Currently treating pseudomonas in blood and
   sputum cultures. [**Month (only) 60**] be due to pain, particularly in pos-operative
   setting, ICU delirium, infectious (although treating).
   - attempt to wean propofol today, use Fentanyl boluses, and 2mg q30 min
   until sedated, turn off propofol
   - continue fentanyl patch for pain
   - hold haldol due to prolonged QTc
   - continue clonidine
   - touch base with neuro regarding keppra dosing and duration
 may
   contribute to delirium?
   # Infectious Disease:
   - Continue meropenem and tobramycin per ID for 2 weeks (last day of abx
   [**2126-10-13**])
   - cont PO Vanc for Cdiff day (last day of abx [**2126-10-13**])
   - f/u all culture data
   - monitor fever curve
   # Respiratory Failure / Trach:
   - check VBG
   - Check NIF
   - maintaining on 10 of Peep
   - continue to treat blood cultures with pseudomonas
 meropenem,
   tobramycin for pseudomonal infectio
   - sputum culture
 for PCP, [**Name10 (NameIs) 1156**], AFB, gram stain
 NGTD but the PCP
   was insufficient for culture
   - RTC albuterol, ipratropirum nebs
   - I/O even , [**Hospital1 **] lytes if actively diuresing
   - continue home steroids
   - continue bactrim ppx
   #  Wrist fracture: s/p ex-fix and ORIF of R elbow and wrist yesterday
   [**10-7**]
   - appreciate ortho recs: c/s OT for R wrist orthoplast splint
   - ROM for R fingers/elbow, wrist to remain in splint
   - ortho to do dressing changes
   - pain control with Fentanyl patch
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   # Seizure:  No seizures for > 1 week. Neuro believes that he could have
   a reasonable prognosis given his intermittent responsiveness to
   commands. MRI with pons hyperdensity, no acute stroke.
   - f/u neuro recs
   - f/u keppra level
   - continue keppra at reduced dose
   - daily wake ups to assess mental status
   # C. Diff Infection: Decreasing diarrhea.
   - continue po vancomycin x 2 weeks
   # S/P PEA Arrest:  Concern for anxoic brain injury although MRI [**10-2**]
   showed pons pathology that neuro says could be possibly reversible.
   - follow mental status with decreasing sedation
   - monitor on tele
   - continue keppra
 will touch base with neuro about sz ppx dosing and
   duration
   # Anemia of iron def: trending down from baseline in ICU of 27, now 25
   but may be due to some operative blood loss
   - monitor hct
   - continue iron tablets
   - active T&S
   - guiaic all stools
   - Minimize blood draws
   # Sinus Tachycardia: had on admission, now returned after rewarming.
   Does not show evidence of bleeding. No PE on CTA. Bolused without
   improvement. No improvement with fentanyl. Continues to be stable. [**Month (only) 60**]
   be due to brain injury / multiple infections.
   - monitor
   # DM, type II:
   - continue SSI from nursing home
   # Depression: holding Celexa so as not to contribute to mental status
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-8**] 08:48 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-10-09 13:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   unable to tolerate NIF testing
   propofol discontinued, transitioned to ativan
   History obtained from Medical records
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Tobramycin - [**2126-10-8**] 06:34 PM
   Meropenem - [**2126-10-9**] 06:20 AM
   Vancomycin - [**2126-10-9**] 12:36 PM
   Infusions:
   Other ICU medications:
   Fondaparinux - [**2126-10-8**] 04:28 PM
   Pantoprazole (Protonix) - [**2126-10-9**] 12:00 AM
   Fentanyl - [**2126-10-9**] 09:15 AM
   Lorazepam (Ativan) - [**2126-10-9**] 11:15 AM
   Other medications:
   bactrim m/w/f
   feso4
   colace
   senna
   prednisone 15/20 qod
   mirapex
   asa
   chlorhexadine
   keppra 1 g [**Hospital1 **]
   clonidine
   fentanyl 150 ucg overnight
   ativan 6 mg overnight
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-9**] 01:19 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 114 (92 - 116) bpm
   BP: 120/66(77) {92/45(56) - 150/76(87)} mmHg
   RR: 28 (19 - 33) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77.1 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  3,391 mL
                                                                  1,478 mL
   PO:
             TF:
                                                                  1,451 mL
                                                                    778 mL
   IVF:
                                                                    970 mL
                                                                    230 mL
   Blood products:
   Total out:
                                                                  1,220 mL
                                                                    860 mL
   Urine:
                                                                  1,220 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,171 mL
                                                                    618 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 249 (239 - 301) mL
   PS : 8 cmH2O
   RR (Spontaneous): 31
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   SpO2: 94%
   ABG: 7.44/70/68/45/18
   Ve: 8.8 L/min
   PaO2 / FiO2: 194
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   sparse, Diminished: )
   Abdominal: Soft
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, minimally responsive while sedated
   Labs / Radiology
   7.2 g/dL
   469 K/uL
   185 mg/dL
   0.5 mg/dL
   45 mEq/L
   3.9 mEq/L
   15 mg/dL
   94 mEq/L
   143 mEq/L
   24.2 %
   10.6 K/uL
        [image002.jpg]
                             [**2126-10-5**]  01:07 PM
                             [**2126-10-6**]  04:42 AM
                             [**2126-10-6**]  06:14 PM
                             [**2126-10-7**]  03:15 AM
                             [**2126-10-7**]  05:16 PM
                             [**2126-10-8**]  04:40 AM
                             [**2126-10-8**]  11:08 PM
                             [**2126-10-9**]  01:48 AM
                             [**2126-10-9**]  04:05 AM
                             [**2126-10-9**]  06:23 AM
   WBC
   12.2
   12.9
   15.1
   11.2
   10.6
   Hct
   26
   25.4
   26.1
   26.8
   25.0
   24.2
   Plt
   529
   561
   536
   480
   469
   Cr
   0.5
   0.6
   0.5
   0.7
   0.6
   0.5
   TCO2
   52
   51
   50
   49
   Glucose
   146
   116
   118
   96
   172
   153
   185
   Other labs: PT / PTT / INR:11.7/29.1/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   78 yo M COPD, DHF, resp faillure/PEA after wrist fx, now w VAP and
   mental status changes
   1. Mental Status changes: aggitation,tachy, but improving off propofol,
   require 6 mg ativan and 150 ucg fentanyl
    - will increase patch: 112 ucq q 72 hours
    - cont clonidine 0.1
    - ativan prn, avoid as possible
    - neuro following
    - likely eeg tomorrow (will need to be off ativan for this)
   2. Resp failure: pseudomonas pna on top of COPD substrate
    - cont albuterol/atrovent
    - cont vanc/[**Last Name (un) 430**]/tobra through [**10-13**]
     -f/u cxr today
   3. SZR disorder:
    - cont keprra
    - f/u eeg/neuro recs
    - keppra trough wnl
    - mg> 2
   4. anemia: likely [**2-11**] icu blood draws
    - holding t/f for now
   5. DM2: RISS, stable fs
   6. RLS: d/c mirapex
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-9**] 11:45 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE STAFF ADDENDUM
   I saw and examined Mr. [**Name14 (STitle) 10383**] with Dr. [**Last Name (STitle) 5651**], whose note reflects my
   input.  78yo M with TBM, steroid-dependent COPD and diastolic heart
   failure as well as chronic trach (not on vent chronically) who p/w
   comminuted wrist fracture and in setting of pain meds developed
   hypercarbic resp failure.  Course complicated by hypoxemic PEA when
   transitioning from vent to trach mask.
   Didn
t tolerate NIF (hypoxemia).  Propofol off with ativan coverage.
   Other data as per Dr. [**Last Name (STitle) 5651**]
s note.
   Assessment and Plan
   78-year-old man with acute-on-chronic respiratory failure in the
   setting of COPD, TBM, and diastolic CHF.
   Agitation/?delirium/?encephalopathy continues to be major factor
   limiting ability to wean. Some progress compared with yesterday. Pain
   seems likely controlled given operative intervention and fentanyl.
   Prior cranial imaging has been unrevealing.  Added clonidine two days
   ago and lorazepam yesterday. Reportedly, little prior success with
   haldol (increased QT).  Appreciate neurology
s help.
   Resp failure:  blood gas actually better than prior.  Continue rx for
   resistant GNR pneumonia.  Working to get delirium under better control.
   From an ID standpoint, continue present antibiotics for highly
   resistant pneumonia. Suspect CNS in blood was a contaminant, but
   following.  Also continue to treat c diff.
   Anemia: no evidence of clinical bleeding; follow Hct.
   Other issues as per Dr. [**Last Name (STitle) 5651**]
s note today.
   He is critically ill: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2126-10-9**] 21:53 ------

2126-10-10 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -neuro rec decrease keppra to 500 [**Hospital1 **], not even sure if seizing, try to
   stay away from benzo for EEG in am
   -given 100mcg fentanyl for aggitation
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Tobramycin - [**2126-10-9**] 05:30 PM
   Meropenem - [**2126-10-10**] 06:14 AM
   Vancomycin - [**2126-10-10**] 06:15 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2126-10-9**] 04:10 PM
   Fondaparinux - [**2126-10-9**] 05:00 PM
   Pantoprazole (Protonix) - [**2126-10-10**] 12:24 AM
   Fentanyl - [**2126-10-10**] 06:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-10**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.7
C (99.9
   HR: 111 (89 - 123) bpm
   BP: 141/69(84) {96/53(48) - 152/110(119)} mmHg
   RR: 28 (18 - 42) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77.1 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  2,772 mL
                                                                    740 mL
   PO:
             TF:
                                                                  1,451 mL
                                                                    463 mL
   IVF:
                                                                    641 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  1,930 mL
                                                                    450 mL
   Urine:
                                                                  1,680 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    842 mL
                                                                    290 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 309 (249 - 343) mL
   PS : 8 cmH2O
   RR (Spontaneous): 24
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   SpO2: 92%
   ABG: ///43/
   Ve: 6.2 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   454 K/uL
   7.0 g/dL
   155 mg/dL
   0.6 mg/dL
   43 mEq/L
   4.1 mEq/L
   15 mg/dL
   102 mEq/L
   149 mEq/L
   23.6 %
   11.3 K/uL
        [image002.jpg]
                             [**2126-10-6**]  04:42 AM
                             [**2126-10-6**]  06:14 PM
                             [**2126-10-7**]  03:15 AM
                             [**2126-10-7**]  05:16 PM
                             [**2126-10-8**]  04:40 AM
                             [**2126-10-8**]  11:08 PM
                             [**2126-10-9**]  01:48 AM
                             [**2126-10-9**]  04:05 AM
                             [**2126-10-9**]  06:23 AM
                             [**2126-10-10**]  03:51 AM
   WBC
   12.2
   12.9
   15.1
   11.2
   10.6
   11.3
   Hct
   25.4
   26.1
   26.8
   25.0
   24.2
   23.6
   Plt
   529
   561
   536
   [**Telephone/Fax (3) 10443**]
   Cr
   0.5
   0.6
   0.5
   0.7
   0.6
   0.5
   0.6
   TCO2
   51
   50
   49
   Glucose
   116
   118
   96
   172
   153
   185
   155
   Other labs: PT / PTT / INR:11.7/29.1/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Microbiology: [**2126-10-6**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-FINAL {YEAST, PSEUDOMONAS AERUGINOSA} INPATIENT
   [**2126-10-6**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2126-10-6**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2126-10-6**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2126-10-3**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2126-10-3**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2126-10-3**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {YEAST,
   PSEUDOMONAS AERUGINOSA}; Immunoflourescent test for Pneumocystis
   jirovecii (carinii)-FINAL; [**Year (4 digits) **] CULTURE-PRELIMINARY {YEAST}; ACID
   FAST SMEAR-FINAL; ACID FAST CULTURE-PRELIMINARY INPATIENT
   [**2126-10-3**]  URINE URINE CULTURE-FINAL
   Assessment and Plan
   53 y.o. M admitted to MICU for respiratory distress s/p PEA arrest
   [**2126-9-20**] then completed Arctic Sun cooling protocol, course complicated
   by seizures, pseudomanas-pneumonia, agitation/delirium.
   # Agitation/Delirium: Currently treating pseudomonas in blood and
   sputum cultures, though likely this is no longer due to underlying
   infection. [**Month (only) 60**] be due to pain, particularly in pos-operative setting,
   ICU delirium, infectious (although treating).
   - propofol off,  hold lorazepam for EEG today
   - continue fentanyl patch for pain
   - hold haldol due to prolonged QTc
   - uptitrate clonidine, uptitrate to 0.2 mg PO TID
   - EEG planned for this morning on lower keppra dosing.
   # Infectious Disease:
   - Continue meropenem and tobramycin per ID for 2 weeks (last day of abx
   [**2126-10-13**])
   - cont PO Vanc for Cdiff day (at least two weeks starting [**2126-10-13**])
   - f/u all culture data
   - monitor fever curve
   # Respiratory Failure / Trach: Unclear etiology at this point
   - NIF check demonstrated marked weakness, consider repeating
   - maintaining on 10 of Peep
   - continue to treat blood cultures with pseudomonas
 meropenem,
   tobramycin for pseudomonal infectio
   - sputum culture
 for PCP, [**Name10 (NameIs) 1156**], AFB, gram stain
 NGTD but the PCP
   was insufficient for culture
   - RTC albuterol, ipratropirum nebs
   - I/O even , [**Hospital1 **] lytes if actively diuresing
   - continue home steroids
   - continue bactrim ppx
   #  Wrist fracture: s/p ex-fix and ORIF of R elbow and wrist yesterday
   [**10-7**]
   - appreciate ortho recs: c/s OT for R wrist orthoplast splint
   - ROM for R fingers/elbow, wrist to remain in splint
   - ortho to do dressing changes
   - pain control with Fentanyl patch
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   # Seizure:  No seizures for > 1 week. Neuro believes that he could have
   a reasonable prognosis given his intermittent responsiveness to
   commands. MRI with pons hyperdensity, no acute stroke.
   - f/u neuro recs
   - f/u keppra level
   - continue keppra at reduced dose
   - daily wake ups to assess mental status
   # C. Diff Infection: Decreasing diarrhea.
   - continue po vancomycin x 2 weeks
   # S/P PEA Arrest:  Concern for anxoic brain injury although MRI [**10-2**]
   showed pons pathology that neuro says could be possibly reversible.
   - follow mental status with decreasing sedation
   - monitor on tele
   - continue keppra
 will touch base with neuro about sz ppx dosing and
   duration
   # Anemia of iron def: trending down from baseline in ICU of 27, now 25
   but may be due to some operative blood loss
   - monitor hct
   - continue iron tablets
   - active T&S
   - guiaic all stools
   - Minimize blood draws
   # Sinus Tachycardia: had on admission, now returned after rewarming.
   Does not show evidence of bleeding. No PE on CTA. Bolused without
   improvement. No improvement with fentanyl. Continues to be stable. [**Month (only) 60**]
   be due to brain injury / multiple infections.
   - monitor
   # DM, type II:
   - continue SSI from nursing home
   .
   #Hypernatremia: increase free water flushes
   .
   # Depression: holding Celexa so as not to contribute to mental status
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-10**] 03:31 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-10-11 07:43:00 Physician Resident Progress Note
24 Hour Events:
 EEG - At [**2126-10-10**] 01:25 PM
   - 24h EEG started
   - ativan/propofol remained off
   - used liquid oxycodone for pain, with improvement in vital signs.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2126-10-10**] 12:00 PM
   Tobramycin - [**2126-10-10**] 06:00 PM
   Meropenem - [**2126-10-10**] 10:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2126-10-11**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-11**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.9
C (98.4
   HR: 107 (83 - 116) bpm
   BP: 116/64(75) {92/53(62) - 157/95(110)} mmHg
   RR: 23 (17 - 31) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77.1 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  2,654 mL
                                                                    736 mL
   PO:
             TF:
                                                                  1,454 mL
                                                                    459 mL
   IVF:
                                                                    640 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                    380 mL
   Urine:
                                                                  1,360 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,294 mL
                                                                    356 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 324 (139 - 484) mL
   PS : 8 cmH2O
   RR (Spontaneous): 23
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   SpO2: 95%
   ABG: ///44/
   Ve: 8.9 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   539 K/uL
   7.1 g/dL
   100 mg/dL
   0.5 mg/dL
   44 mEq/L
   4.5 mEq/L
   15 mg/dL
   102 mEq/L
   148 mEq/L
   23.8 %
   10.6 K/uL
        [image002.jpg]
                             [**2126-10-6**]  06:14 PM
                             [**2126-10-7**]  03:15 AM
                             [**2126-10-7**]  05:16 PM
                             [**2126-10-8**]  04:40 AM
                             [**2126-10-8**]  11:08 PM
                             [**2126-10-9**]  01:48 AM
                             [**2126-10-9**]  04:05 AM
                             [**2126-10-9**]  06:23 AM
                             [**2126-10-10**]  03:51 AM
                             [**2126-10-11**]  02:44 AM
   WBC
   12.9
   15.1
   11.2
   10.6
   11.3
   10.6
   Hct
   26.1
   26.8
   25.0
   24.2
   23.6
   23.8
   Plt
   [**Telephone/Fax (2) 10453**]
   Cr
   0.6
   0.5
   0.7
   0.6
   0.5
   0.6
   0.5
   TCO2
   51
   50
   49
   Glucose
   118
   96
   172
   153
   185
   155
   100
   Other labs: PT / PTT / INR:11.7/29.1/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L, Ca++:9.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.4 mg/dL
[**2126-10-1**] [**2126-10-1**] 8:14 pm CATHETER TIP-IV      Source: triple lumen.
                            **FINAL REPORT [**2126-10-7**]**
   WOUND CULTURE (Final [**2126-10-7**]):
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    >15 colonies.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             STAPHYLOCOCCUS, COAGULASE NEGATIVE
                             |
CLINDAMYCIN-----------   =>8 R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------  =>16 R
LEVOFLOXACIN----------     4 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
VANCOMYCIN------------     2 S
   [**10-3**] BCx: NGTD
   [**10-6**] BCx: NGTD
   [**10-6**] Ucx: Negative
   [**10-6**] Sputum Cx:
[**2126-10-6**] 11:09 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2126-10-6**]):
      >25 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Final [**2126-10-8**]):
      Commensal Respiratory Flora Absent.
      YEAST.    SPARSE GROWTH.
      PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 282-1598T
         [**2126-10-3**].
   [**10-10**] CXR
   FINDINGS: The body position of the patient has completely changed.
   Therefore, comparison is difficult. Major changes, however, are absent.
   Unchanged right pleural effusion with adjacent basilar atelectasis.
   Unchanged
   size of the cardiac silhouette, unchanged small left pleural effusion
   with
   potential suprabasal hypoventilation. There is no evidence of newly
   appeared
   focal parenchymal opacity suggesting pneumonia. Unchanged position of
   tracheostomy tube and left central venous access line.
   Assessment and Plan
   53 y.o. M admitted to MICU for respiratory distress s/p PEA arrest
   [**2126-9-20**] then completed Arctic Sun cooling protocol, course complicated
   by seizures, pseudomanas-pneumonia, agitation/delirium.
   # Agitation/Delirium: Currently treating pseudomonas in blood and
   sputum cultures, though likely this is no longer due to underlying
   infection. [**Month (only) 60**] be due to pain, particularly in post-operative setting,
   ICU delirium, infectious (although treating).
   - propofol off,  continue to hold lorazepam as EEG monitoring on
   - d/c bolus fentanyl, continue fentanyl patch
   - hold haldol due to prolonged QTc
   - continue clonidine 0.2 mg PO TID
   - EEG today
   # Infectious Disease: Afebrile, leukocytosis trending down
   - Continue meropenem and tobramycin per ID for 2 weeks (last day of abx
   [**2126-10-13**])
   - cont PO Vanc for Cdiff day (at least two weeks ending on [**2126-10-13**])
   - f/u all culture data
   - monitor fever curve
   # Respiratory Failure / Trach: Unclear etiology at this point.  NIF
   check unable to be adequately performed due to pt desat..  Maintaining
   on 10 of PEEP.
   - Will plan on bronchoscopy today to evaluate airways for dynamic
   collapse
   - continue to treat blood cultures with pseudomonas
 meropenem,
   tobramycin for pseudomonal infection
   - sputum culture
 for PCP, [**Name10 (NameIs) 1156**], AFB, gram stain
 NGTD but the PCP
   was insufficient for culture
   - RTC albuterol, ipratropirum nebs
   - I/O even
   - continue home steroids
   - continue bactrim ppx
   #  Wrist fracture: s/p ex-fix and ORIF of R elbow and wrist [**10-7**]
   - appreciate ortho recs
   - ROM for R fingers/elbow, wrist to remain in splint
   - pain control with Fentanyl patch and oxycodone liquid prn
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   # Seizure:  No seizures for > 1 week. Neuro believes that he could have
   a reasonable prognosis given his intermittent responsiveness to
   commands. MRI with pons hyperdensity, no acute stroke.
   - f/u neuro recs
   - f/u keppra level
   - continue keppra per Neuro
   - daily wake ups to assess mental status
   - continue EEG monitoring and f/u results
   # C. Diff Infection: Decreasing diarrhea.
   - continue po vancomycin x 2 weeks (last day [**2126-10-13**])
   .
   #Hypernatremia: increase free water flushes today to 150 cc q4 hours
   (free water deficit 960 cc), [**Hospital1 **] lytes
   # S/P PEA Arrest:  Concern for anxoic brain injury although MRI [**10-2**]
   showed pons pathology that neuro says could be possibly reversible.
   - follow mental status with decreasing sedation
   - monitor on tele
   - continue keppra
 will need to ask neuro for duration of this
   # Anemia of iron def: trending down from baseline in ICU of 27, now 25
   but may be due to some operative blood loss
   - monitor hct
   - continue iron tablets
   - active T&S
   - guiaic all stools
   - Minimize blood draws
   - transfuse for Hct < 21 or active bleeding
   # Sinus Tachycardia: had on admission, now returned after rewarming.
   Does not show evidence of bleeding. No PE on CTA. Bolused without
   improvement. No improvement with fentanyl. Continues to be stable. [**Month (only) 60**]
   be due to brain injury / multiple infections.
   - monitor
   # DM, type II:
   - continue SSI from nursing home
   .
   # Depression: holding Celexa so as not to contribute to mental status
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-10**] 07:20 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   Prophylaxis:
   DVT: Enoxaparin
   Stress ulcer: PPI
   VAP:  RSBI, Bundle, HOB
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2126-10-12 07:18:00 Physician Resident Progress Note
24 Hour Events:
 FEVER - 101.2
F - [**2126-10-11**] 08:00 PM
   - d/c fentanyl bolus
   - cultured for temp 100.5
   - neuro recs: no epileptiform discharges on EEG so far, Keppra 500 mg
   po BID until [**Year (4 digits) 570**] then decrease to 250 mg po BID
   - ortho recs: will watch radial incision, OT no wrist ROM, ex fix [**6-17**]
   weeks
   - increased free water to 150 cc q4 hours
   - 5 pm lytes - hypernatremic 148
   - wound care consulted
   - increased oxycondone to 15 mg po q4 hours
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Tobramycin - [**2126-10-11**] 06:00 PM
   Vancomycin - [**2126-10-11**] 06:00 PM
   Meropenem - [**2126-10-12**] 06:00 AM
   Infusions:
   Other ICU medications:
   Fondaparinux - [**2126-10-11**] 04:00 PM
   Pantoprazole (Protonix) - [**2126-10-12**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-12**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.7
C (99.9
   HR: 105 (82 - 119) bpm
   BP: 121/61(73) {94/46(57) - 166/84(107)} mmHg
   RR: 22 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77.1 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  2,954 mL
                                                                    834 mL
   PO:
             TF:
                                                                  1,454 mL
                                                                    441 mL
   IVF:
                                                                    541 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    470 mL
   Urine:
                                                                  1,150 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,804 mL
                                                                    364 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 2,316 (335 - 2,316) mL
   PS : 8 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 35%
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///41/
   Ve: 6 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   484 K/uL
   6.7 g/dL
   100 mg/dL
   0.6 mg/dL
   41 mEq/L
   3.9 mEq/L
   15 mg/dL
   104 mEq/L
   147 mEq/L
   22.9 %
   8.9 K/uL
        [image002.jpg]
                             [**2126-10-7**]  05:16 PM
                             [**2126-10-8**]  04:40 AM
                             [**2126-10-8**]  11:08 PM
                             [**2126-10-9**]  01:48 AM
                             [**2126-10-9**]  04:05 AM
                             [**2126-10-9**]  06:23 AM
                             [**2126-10-10**]  03:51 AM
                             [**2126-10-11**]  02:44 AM
                             [**2126-10-11**]  04:45 PM
                             [**2126-10-12**]  03:16 AM
   WBC
   15.1
   11.2
   10.6
   11.3
   10.6
   8.9
   Hct
   26.8
   25.0
   24.2
   23.6
   23.8
   22.9
   Plt
   536
   480
   469
   454
   539
   484
   Cr
   0.7
   0.6
   0.5
   0.6
   0.5
   0.7
   0.6
   TCO2
   51
   50
   49
   Glucose
   172
   153
   185
   155
   100
   128
   100
   Other labs: PT / PTT / INR:11.7/29.1/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   53 y.o. M admitted to MICU for respiratory distress s/p PEA arrest
   [**2126-9-20**] then completed Arctic Sun cooling protocol, course complicated
   by seizures, pseudomanas-pneumonia, agitation/delirium, now with fevers
   x 2 days.
   # Fever: Tmax 101 today, leukocytosis trending down
   - Continue meropenem and tobramycin per ID for 2 weeks (last day of abx
   [**2126-10-13**])
   - cont PO Vanc for Cdiff day (at least two weeks ending on [**2126-10-13**])
   - f/u all culture data
 recultured today with
   picc/peripheral/Ucx/sputum cultures
   - monitor fever curve
   - send mycolytic cultures today, galactomannan, glucan
   - consider LP if continues to spike fevers
   - consider MRI head repeat
   - add on diff to assess for eosinophilia [**2-11**] ? drug fever
   - continue terbinafine for rash
 if does not improve, will consult
   derm
   # Agitation/Delirium: Currently treating pseudomonas in blood and
   sputum cultures, though likely this is no longer due to underlying
   infection. [**Month (only) 60**] be due to pain, particularly in post-operative setting,
   ICU delirium, infectious (although treating).
   - propofol off,  continue to hold lorazepam as EEG monitoring on
   - continue fentanyl patch at decreased dose at 100 mcg q 72 hours,
   oxycodone at current dose
   - hold haldol due to prolonged QTc
   - continue clonidine 0.2 mg PO TID
   - slow taper off of keppra, on [**Last Name (LF) 570**], [**First Name3 (LF) 178**] decrease to 250 mg po
   keppra
   # Respiratory Failure / Trach: Unclear etiology at this point.  NIF
   check unable to be adequately performed due to pt desat. Maintaining on
   10 of PEEP.
   - attempt PS 5/5 with ABG afterwards
   - continue to treat blood cultures with pseudomonas
 meropenem,
   tobramycin for pseudomonal infection
   - sputum culture
 for PCP, [**Name10 (NameIs) 1156**], AFB, gram stain
 NGTD but the PCP
   was insufficient for culture
   - RTC albuterol, ipratropirum nebs
   - I/O even
   - decrease steroids 15 mg po daily starting in AM
   - continue bactrim ppx
   #  Wrist fracture: s/p ex-fix and ORIF of R elbow and wrist [**10-7**]
   - appreciate ortho recs
   - ROM for R fingers/elbow, wrist to remain in splint
   - pain control with Fentanyl patch and oxycodone liquid prn
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   # Seizure:  No seizures for > 1 week. Neuro believes that he could have
   a reasonable prognosis given his intermittent responsiveness to
   commands. MRI with pons hyperdensity, no acute stroke. EEG c/w
   encephalopathy, still with brain activity.
   - f/u neuro recs
   - continue keppra per Neuro; will lower dose to 250 mg po bid on [**Month/Year (2) 570**]
   - daily wake ups to assess mental status
   # C. Diff Infection: Decreasing diarrhea.
   - continue po vancomycin x 2 weeks (last day [**2126-10-13**])
   .
   #Hypernatremia: increase free water flushes today to 150 cc q4 hours
   (free water deficit 960 cc), [**Hospital1 **] lytes
   # S/P PEA Arrest:  Concern for anxoic brain injury although MRI [**10-2**]
   showed pons pathology that neuro says could be possibly reversible.
   - follow mental status with decreasing sedation
   - monitor on telemetry
   - continue keppra per neuro
   # Anemia of iron def: trending down from baseline in ICU of 27, now
   22.9 but may be due to some operative blood loss
   - monitor hct
   - continue iron tablets
   - active T&S
   - guiaic all stools
   - Minimize blood draws
   - transfuse for Hct < 21 or active bleeding
   - 1 pRBC after fever defervesces
   # Sinus Tachycardia: had on admission, now returned after rewarming.
   Does not show evidence of bleeding. No PE on CTA. Bolused without
   improvement. No improvement with fentanyl. Continues to be stable. [**Month (only) 60**]
   be due to brain injury / multiple infections.
   - monitor
   # DM, type II:
   - continue SSI from nursing home
   .
   # Depression: holding Celexa so as not to contribute to mental status
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-10**] 07:20 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   Prophylaxis:
   DVT: Enoxaparin
   Stress ulcer: PPI
   VAP:  RSBI, Bundle, HOB
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2126-10-13 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -spiked temp to 101.7, pan cultured including mycotic cultures, given
   2g tylenol x2
   -put on [**5-14**] throughout the day
   -betaglucan and galactomana sent
   -given 1 unit PRBC
   -decreased fentanyl patch to 100mcg today
   -changed protonic to famotidine
   -neuro:  EEG: no seizure activity going down on keppra to 250bid on
   [**Month/Day (1) **]
   -decreased steroids to 15mg daily
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Tobramycin - [**2126-10-12**] 06:00 PM
   Meropenem - [**2126-10-13**] 05:41 AM
   Vancomycin - [**2126-10-13**] 05:41 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-13**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.6
C (99.6
   HR: 84 (84 - 112) bpm
   BP: 106/65(75) {100/50(61) - 176/96(109)} mmHg
   RR: 18 (15 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.1 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  3,594 mL
                                                                  1,005 mL
   PO:
             TF:
                                                                  1,449 mL
                                                                    467 mL
   IVF:
                                                                    550 mL
                                                                    178 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,445 mL
                                                                    230 mL
   Urine:
                                                                  1,445 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,149 mL
                                                                    775 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 313 (237 - 484) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 72
   RSBI Deferred: PEEP > 10
   PIP: 11 cmH2O
   SpO2: 93%
   ABG: ///37/
   Ve: 4.9 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Bronchial: )
   Abdominal: Soft
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   443 K/uL
   8.2 g/dL
   142 mg/dL
   0.5 mg/dL
   37 mEq/L
   4.0 mEq/L
   15 mg/dL
   99 mEq/L
   141 mEq/L
   26.5 %
   15.1 K/uL
        [image002.jpg]
                             [**2126-10-8**]  11:08 PM
                             [**2126-10-9**]  01:48 AM
                             [**2126-10-9**]  04:05 AM
                             [**2126-10-9**]  06:23 AM
                             [**2126-10-10**]  03:51 AM
                             [**2126-10-11**]  02:44 AM
                             [**2126-10-11**]  04:45 PM
                             [**2126-10-12**]  03:16 AM
                             [**2126-10-12**]  05:05 PM
                             [**2126-10-13**]  03:04 AM
   WBC
   10.6
   11.3
   10.6
   8.9
   15.1
   Hct
   24.2
   23.6
   23.8
   22.9
   26.5
   Plt
   [**Telephone/Fax (3) 10477**]84
   443
   Cr
   0.5
   0.6
   0.5
   0.7
   0.6
   0.6
   0.5
   TCO2
   51
   50
   49
   Glucose
   185
   155
   100
   128
   100
   150
   142
   Other labs: PT / PTT / INR:11.7/29.1/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Differential-Neuts:68.2 %, Lymph:15.4 %, Mono:13.1 %, Eos:3.1 %, Lactic
   Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR
   EEG: This is an abnormal video-EEG study due to a show and
   disorganized mixed theta and delta frequency background. No
   epileptiform features or electrographic seizures were noted.
   Microbiology: [**2126-10-12**]  SPUTUM GRAM STAIN-FINAL-GRAM NEGATIVE RODS;
   RESPIRATORY CULTURE-PRELIMINARY; [**Year (4 digits) **] CULTURE-PRELIMINARY
   [**2126-10-3**]  SPUTUM: PsA.
   [**2126-10-12**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2126-10-12**]  BLOOD CULTURE ( MYCO/F LYTIC BOTTLE) BLOOD/[**Year (4 digits) **]
   CULTURE-PENDING; BLOOD/AFB CULTURE-PENDING
   [**2126-10-12**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2126-10-12**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2126-10-11**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2126-10-11**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2126-10-11**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2126-10-6**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2126-10-6**]
   URINE URINE CULTURE-NO GROWTH
   [**2126-10-6**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2126-10-3**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2126-10-3**]  BLOOD CULTURE Blood Culture, Routine-FINAL
   Assessment and Plan
   53 y.o. M admitted to MICU for respiratory distress s/p PEA arrest
   [**2126-9-20**] then completed Arctic Sun cooling protocol, course complicated
   by seizures, pseudomanas-pneumonia, agitation/delirium, now with fevers
   x 2 days.
   .
   # Fever: Tmax 102 today, leukocytosis worsened, differential includes
   Cdiff, drug fever, DVT
   - plain film of abdomen to look for e/o megacolon
   - DDx also includes drug fever: completes antibiotics course today.
   will peel off and reculture.
   - consider LENIs if
   - cont PO Vanc for Cdiff day (at least two weeks starting on [**2126-10-13**])
   - f/u all culture data
 recultured today with
   picc/peripheral/Ucx/sputum cultures
   - f/u mycolytic cultures , galactomannan, glucan
   - consider LP if continues to spike fevers
   - add on diff to assess for eosinophilia [**2-11**] ? drug fever
   - continue terbinafine for rash
 if does not improve, will consult
   derm
   # Agitation/Delirium: Currently treating pseudomonas in blood and
   sputum cultures, though likely this is no longer due to underlying
   infection. [**Month (only) 60**] be due to pain, particularly in post-operative setting,
   ICU delirium, infectious. EEG shows changes c/w encephalopathy
   - propofol off,  continue to hold lorazepam as EEG monitoring on
   - continue fentanyl patch at decreased dose at 100 mcg q 72 hours,
   - decrease oxycodone 10mg q6prn
   - hold haldol due to prolonged QTc
   - continue clonidine 0.2 mg PO TID
   - slow taper off of keppra, on [**Last Name (LF) 570**], [**First Name3 (LF) 178**] decrease to 250 mg po
   keppra
   # Respiratory Failure / Trach: Unclear etiology at this point.  NIF
   check unable to be adequately performed due to pt desat. Maintaining on
   10 of PEEP.
   -goal 1L negative diuresis
   - attempt PS 5/5 with ABG afterwards
   - sputum culture
 for PCP, [**Name10 (NameIs) 1156**], AFB, gram stain
 NGTD but the PCP
   was insufficient for culture
   - cont steroids 15 mg po daily starting in AM
   - continue bactrim ppx
   #  Wrist fracture: s/p ex-fix and ORIF of R elbow and wrist [**10-7**]
   - appreciate ortho recs
   - ROM for R fingers/elbow, wrist to remain in splint
   - pain control with Fentanyl patch and oxycodone liquid prn
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   # Seizure:  No seizures for > 1 week. Neuro believes that he could have
   a reasonable prognosis given his intermittent responsiveness to
   commands. MRI with pons hyperdensity, no acute stroke. EEG c/w
   encephalopathy, still with brain activity.
   - f/u neuro recs
   - continueto wean keppra per Neuro; will lower dose to 250 mg po bid
   today
   # C. Diff Infection:
   - continue po vancomycin x 2 weeks after cessation of other antibiotics
   #Hypernatremia: normalized today
   # S/P PEA Arrest:  Concern for anxoic brain injury although MRI [**10-2**]
   showed pons pathology that neuro says could be possibly reversible.
   - follow mental status with decreasing sedation
   - monitor on telemetry
   - continue keppra per neuro
   # Anemia of iron def: trending down from baseline in ICU of 27, now
   22.9 but may be due to some operative blood loss, s/p 1 unit
   transfusion [**10-12**]
   - monitor hct
   - continue iron tablets
   - active T&S
   - guiaic all stools
   - Minimize blood draws
   - transfuse for Hct < 21 or active bleeding
   # Sinus Tachycardia: had on admission, now returned after rewarming.
   Does not show evidence of bleeding. No PE on CTA. Bolused without
   improvement. No improvement with fentanyl. Continues to be stable. [**Month (only) 60**]
   be due to brain injury / multiple infections.
   - monitor
   # DM, type II:
   - continue SSI from nursing home
   # Depression: holding Celexa so as not to contribute to mental status
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-12**] 06:57 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-10-14 07:39:00 Physician Resident Progress Note
24 Hour Events:
   - found to be more alert, awake, following simple commands in the
   morning.
   - sputum culture continues to grow moderate pseudomonas
   - antibiotics were preliminarily discontinued after dosing completed
   last night given completed 14 day course for psa bactermia
   - KUB obtained given inc WBC, but no e/o colonic dilation.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Tobramycin - [**2126-10-13**] 05:53 PM
   Meropenem - [**2126-10-13**] 10:18 PM
   Vancomycin - [**2126-10-14**] 05:48 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2126-10-13**] 09:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-14**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 79 (64 - 91) bpm
   BP: 101/59(69) {78/43(52) - 126/72(82)} mmHg
   RR: 11 (9 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.1 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  3,779 mL
                                                                    855 mL
   PO:
             TF:
                                                                  1,446 mL
                                                                    450 mL
   IVF:
                                                                  1,138 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  1,290 mL
                                                                    350 mL
   Urine:
                                                                  1,290 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,489 mL
                                                                    505 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 378 (378 - 626) mL
   PS : 8 cmH2O
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 35%
   RSBI Deferred: RR >35
   PIP: 19 cmH2O
   SpO2: 97%
   ABG: ///40/
   Ve: 5.9 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Bronchial: )
   Abdominal: Soft
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   466 K/uL
   7.6 g/dL
   121 mg/dL
   0.5 mg/dL
   40 mEq/L
   4.0 mEq/L
   19 mg/dL
   98 mEq/L
   141 mEq/L
   24.6 %
   10.7 K/uL
        [image002.jpg]
                             [**2126-10-9**]  04:05 AM
                             [**2126-10-9**]  06:23 AM
                             [**2126-10-10**]  03:51 AM
                             [**2126-10-11**]  02:44 AM
                             [**2126-10-11**]  04:45 PM
                             [**2126-10-12**]  03:16 AM
                             [**2126-10-12**]  05:05 PM
                             [**2126-10-13**]  03:04 AM
                             [**2126-10-13**]  05:45 PM
                             [**2126-10-14**]  04:25 AM
   WBC
   10.6
   11.3
   10.6
   8.9
   15.1
   10.7
   Hct
   24.2
   23.6
   23.8
   22.9
   26.5
   24.6
   Plt
   [**Telephone/Fax (3) 10491**]
   Cr
   0.5
   0.6
   0.5
   0.7
   0.6
   0.6
   0.5
   0.6
   0.5
   TCO2
   49
   Glucose
   185
   155
   100
   128
   100
   150
   142
   150
   121
   Other labs: PT / PTT / INR:12.1/30.3/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Differential-Neuts:77.0 %, Band:0.0 %, Lymph:8.0 %, Mono:13.0 %,
   Eos:2.0 %, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   [**10-12**] Glucan
 PENDING; Galactomannan - PENDING
[**2126-10-6**] 11:09 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2126-10-6**]):
      >25 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Final [**2126-10-8**]):
      Commensal Respiratory Flora Absent.
      YEAST.    SPARSE GROWTH.
      PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 282-1598T
         [**2126-10-3**].
   [**10-6**] BCx x 2: no growth
   [**10-6**] Ucx: no growth
   [**10-11**] BCx x 2: NGTD
   [**10-11**] Ucx: no growth
   [**10-12**] BCx x 2: NGTD
   [**10-12**] Mycolytic BCx: NGTD
[**2126-10-12**] 9:35 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2126-10-12**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
      Further incubation required to determine the presence or absence of
      commensal respiratory flora.
      PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   PCXR [**2126-10-13**]
   Lungs are very low in volume but aside from mild atelectasis at the
   left lung
   base, no focal pulmonary abnormality is seen. Small bilateral pleural
   effusions are likely but unchanged and the heart is mildly enlarged.
   Tracheostomy tube in standard placement. Nasogastric tube passes below
   the
   diaphragm and out of view. No pneumothorax.
   [**10-13**] ABD XRAY
   HISTORY: Colitis and abdominal distention. Evaluate for megacolon.
   IMPRESSION:
   Supine AP view of the abdomen shows a nasogastric tube ending in a
   nondilated
   stomach, a caval umbrella filter at the level of L2, and no abnormality
   to the
   intestinal gas pattern.
   Assessment and Plan
   53 y.o. M admitted to MICU for respiratory distress s/p PEA arrest
   [**2126-9-20**] then completed Arctic Sun cooling protocol, course complicated
   by seizures, pseudomanas-pneumonia, agitation/delirium, now with
   slightly improving mental status.
   .
   # Fever: Fever curve improved, leukocytosis decreasing.
   - cont PO Vanc for Cdiff (at least two weeks, earliest end date [**10-27**])
   - f/u all culture data
   - f/u mycolytic cultures , galactomannan, glucan
   - consider LP if continues to spike fevers
   - continue terbinafine for rash - if does not improve, will consult
   derm
   # Agitation/Delirium: Improved with pt following simple commands after
   decreasing narcotics. Currently treating pseudomonas in blood and
   sputum cultures, though likely this is no longer due to underlying
   infection. [**Month (only) 60**] be due to pain, particularly in post-operative setting,
   too much narcotics, ICU delirium, infectious. EEG shows changes c/w
   encephalopathy
   - continue fentanyl patch at decreased dose at 100 mcg q 72 hours,
   - continue decreased oxycodone 10mg q4 hours prn
   - hold haldol due to prolonged QTc
   - continue clonidine 0.2 mg PO TID
   - continue Keppra 250 mg po BID, d/c tomorrow
   # Respiratory Failure / Trach: Unclear etiology at this point.  NIF
   check unable to be adequately performed due to pt desat. Maintaining on
   10 of PEEP. Sputum culture with persistent pseudomonas s/p complete
   treatment; ? colonization.
   - goal 1L negative diuresis with 20mg iv lasix now.
   - attempt PS 5/5 with ABG afterwards
   - cont steroids 15 mg po daily
   - continue bactrim ppx
   #  Wrist fracture: s/p ex-fix and ORIF of R elbow and wrist [**10-7**]
   - repeat xray
   - appreciate ortho recs
   - ROM for R fingers/elbow, wrist to remain in splint
   - pain control with Fentanyl patch and oxycodone liquid prn
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   # Seizure:  No seizures for > 2 week. Neuro believes that he could have
   a reasonable prognosis given his intermittent responsiveness to
   commands. MRI with pons hyperdensity, no acute stroke. Repeat EEG c/w
   encephalopathy, still with brain activity.
   - f/u neuro recs - ? duration of AED
   - continue Keppra 250 mg po BID
   # C. Diff Infection:
   - continue po vancomycin x 2 weeks (earliest end date [**2126-10-27**])
   # S/P PEA Arrest:  Concern for anxoic brain injury although MRI [**10-2**]
   showed pons pathology that neuro says could be possibly reversible.
   - follow mental status with decreasing sedation and narcotics
   - monitor on telemetry
   - continue keppra per neuro
   # Anemia of iron def: s/p 1 unit transfusion [**10-12**]
   - monitor hct
   - continue iron tablets
   - active T&S
   - guiaic all stools
   - Minimize blood draws
   - transfuse for Hct < 21 or active bleeding
   # Sinus Tachycardia: had on admission, now returned after rewarming.
   Does not show evidence of bleeding. No PE on CTA. Bolused without
   improvement. No improvement with fentanyl. Continues to be stable. [**Month (only) 60**]
   be due to brain injury / multiple infections.
   - monitor
   # DM, type II:
   - continue SSI from nursing home
   # Depression: holding Celexa so as not to contribute to mental status
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-14**] 02:46 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: H2 blocker
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2126-10-15 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - NGT in place
   - 20 IV lasix x 2, -144 cc
   - Neuro recs: keppra d/c tomorrow AM.
   - Ortho recs: daily dressing change over R wrist, watch ulnar sided
   ulcer, R elbow / wrist Xrays q monday
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Tobramycin - [**2126-10-13**] 05:53 PM
   Meropenem - [**2126-10-13**] 10:18 PM
   Vancomycin - [**2126-10-14**] 06:00 PM
   Infusions:
   Other ICU medications:
   Fondaparinux - [**2126-10-14**] 08:00 AM
   Furosemide (Lasix) - [**2126-10-14**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-15**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.4
C (97.6
   HR: 94 (83 - 129) bpm
   BP: 121/68(78) {101/51(73) - 160/88(101)} mmHg
   RR: 17 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.1 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  2,221 mL
                                                                    516 mL
   PO:
             TF:
                                                                  1,261 mL
                                                                    442 mL
   IVF:
                                                                    240 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  2,365 mL
                                                                    580 mL
   Urine:
                                                                  2,365 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -144 mL
                                                                    -64 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 456 (404 - 688) mL
   PS : 8 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 73
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///38/
   Ve: 10.7 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Bronchial: )
   Abdominal: Soft
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   576 K/uL
   8.3 g/dL
   129 mg/dL
   0.6 mg/dL
   38 mEq/L
   3.7 mEq/L
   13 mg/dL
   97 mEq/L
   142 mEq/L
   27.9 %
   12.7 K/uL
        [image002.jpg]
                             [**2126-10-10**]  03:51 AM
                             [**2126-10-11**]  02:44 AM
                             [**2126-10-11**]  04:45 PM
                             [**2126-10-12**]  03:16 AM
                             [**2126-10-12**]  05:05 PM
                             [**2126-10-13**]  03:04 AM
                             [**2126-10-13**]  05:45 PM
                             [**2126-10-14**]  04:25 AM
                             [**2126-10-14**]  04:51 PM
                             [**2126-10-15**]  04:17 AM
   WBC
   11.3
   10.6
   8.9
   15.1
   10.7
   12.7
   Hct
   23.6
   23.8
   22.9
   26.5
   24.6
   27.9
   Plt
   454
   539
   484
   [**Telephone/Fax (3) 10503**]
   Cr
   0.6
   0.5
   0.7
   0.6
   0.6
   0.5
   0.6
   0.5
   0.5
   0.6
   Glucose
   155
   100
   128
   100
   150
   142
   150
   121
   104
   129
   Other labs: PT / PTT / INR:12.4/30.0/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Differential-Neuts:77.0 %, Band:0.0 %, Lymph:8.0 %, Mono:13.0 %,
   Eos:2.0 %, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan:
   53 y.o. M admitted to MICU for respiratory distress s/p PEA arrest
   [**2126-9-20**] then completed Arctic Sun cooling protocol, course complicated
   by seizures, pseudomanas-pneumonia, agitation/delirium, now with
   slightly improving mental status.
   .
   # Fever: Fever curve improved, leukocytosis decreasing.
   - cont PO Vanc for Cdiff (at least two weeks, earliest end date [**10-27**])
   - f/u all culture data
   - f/u mycolytic cultures , galactomannan, glucan
   - consider LP if continues to spike fevers
   - continue terbinafine for rash - if does not improve, will consult
   derm
   # Agitation/Delirium: Improved with pt following simple commands after
   decreasing narcotics. Currently treating pseudomonas in blood and
   sputum cultures, though likely this is no longer due to underlying
   infection. [**Month (only) 60**] be due to pain, particularly in post-operative setting,
   too much narcotics, ICU delirium, infectious. EEG shows changes c/w
   encephalopathy
   - continue fentanyl patch at decreased dose at 100 mcg q 72 hours,
   - continue decreased oxycodone 10mg q4 hours prn
   - hold haldol due to prolonged QTc
   - continue clonidine 0.2 mg PO TID
   - continue Keppra 250 mg po BID, d/c tomorrow
   # Respiratory Failure / Trach: Unclear etiology at this point.  NIF
   check unable to be adequately performed due to pt desat. Maintaining on
   10 of PEEP. Sputum culture with persistent pseudomonas s/p complete
   treatment; ? colonization.
   - goal 1L negative diuresis with 20mg iv lasix now.
   - attempt PS 5/5 with ABG afterwards
   - cont steroids 15 mg po daily
   - continue bactrim ppx
   #  Wrist fracture: s/p ex-fix and ORIF of R elbow and wrist [**10-7**]
   - repeat xray
   - appreciate ortho recs
   - ROM for R fingers/elbow, wrist to remain in splint
   - pain control with Fentanyl patch and oxycodone liquid prn
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   # Seizure:  No seizures for > 2 week. Neuro believes that he could have
   a reasonable prognosis given his intermittent responsiveness to
   commands. MRI with pons hyperdensity, no acute stroke. Repeat EEG c/w
   encephalopathy, still with brain activity.
   - f/u neuro recs - ? duration of AED
   - continue Keppra 250 mg po BID
   # C. Diff Infection:
   - continue po vancomycin x 2 weeks (earliest end date [**2126-10-27**])
   # S/P PEA Arrest:  Concern for anxoic brain injury although MRI [**10-2**]
   showed pons pathology that neuro says could be possibly reversible.
   - follow mental status with decreasing sedation and narcotics
   - monitor on telemetry
   - continue keppra per neuro
   # Anemia of iron def: s/p 1 unit transfusion [**10-12**]
   - monitor hct
   - continue iron tablets
   - active T&S
   - guiaic all stools
   - Minimize blood draws
   - transfuse for Hct < 21 or active bleeding
   # Sinus Tachycardia: had on admission, now returned after rewarming.
   Does not show evidence of bleeding. No PE on CTA. Bolused without
   improvement. No improvement with fentanyl. Continues to be stable. [**Month (only) 60**]
   be due to brain injury / multiple infections.
   - monitor
   # DM, type II:
   - continue SSI from nursing home
   # Depression: holding Celexa so as not to contribute to mental status
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-14**] 02:46 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: H2 blocker
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2126-10-16 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -vomited, had high residuals 120, obtained portable, no obstruction
   tube feeds restarted
   -neuro came by and found him to be seizing, loaded keppra and given 2mg
   ativan and 500bid in the am, EEG planned for this am
   -was tachycardic to 120-130s, vomited pain beds, hct checked and normal
   -bolused 750cc for hypotension
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Tobramycin - [**2126-10-13**] 05:53 PM
   Meropenem - [**2126-10-13**] 10:18 PM
   Vancomycin - [**2126-10-16**] 12:00 AM
   Infusions:
   Other ICU medications:
   Fondaparinux - [**2126-10-15**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-16**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.2
   HR: 86 (82 - 126) bpm
   BP: 98/52(62) {76/44(54) - 145/83(97)} mmHg
   RR: 12 (12 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.1 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  1,676 mL
                                                                    657 mL
   PO:
             TF:
                                                                    816 mL
                                                                     79 mL
   IVF:
                                                                    490 mL
                                                                    579 mL
   Blood products:
   Total out:
                                                                  1,675 mL
                                                                    260 mL
   Urine:
                                                                  1,475 mL
                                                                    260 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                      1 mL
                                                                    397 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 657 (535 - 657) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 8
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI: 72
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.44/63/66/41/15
   Ve: 4.4 L/min
   PaO2 / FiO2: 189
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds:
   Rhonchorous and Coarse : )
   Abdominal: Soft, Non-tender
   Extremities: ex-fix pin mild increase in erythema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   509 K/uL
   7.8 g/dL
   113 mg/dL
   0.6 mg/dL
   41 mEq/L
   3.5 mEq/L
   15 mg/dL
   101 mEq/L
   146 mEq/L
   25.6 %
   15.8 K/uL
        [image002.jpg]
                             [**2126-10-12**]  03:16 AM
                             [**2126-10-12**]  05:05 PM
                             [**2126-10-13**]  03:04 AM
                             [**2126-10-13**]  05:45 PM
                             [**2126-10-14**]  04:25 AM
                             [**2126-10-14**]  04:51 PM
                             [**2126-10-15**]  04:17 AM
                             [**2126-10-15**]  05:42 PM
                             [**2126-10-15**]  06:34 PM
                             [**2126-10-16**]  03:20 AM
   WBC
   8.9
   15.1
   10.7
   12.7
   15.8
   Hct
   22.9
   26.5
   24.6
   27.9
   29.2
   25.6
   Plt
   [**Telephone/Fax (3) 10526**]76
   509
   Cr
   0.6
   0.6
   0.5
   0.6
   0.5
   0.5
   0.6
   0.6
   TCO2
   44
   Glucose
   100
   150
   142
   150
   121
   104
   129
   113
   Other labs: PT / PTT / INR:12.3/30.0/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Differential-Neuts:77.0 %, Band:0.0 %, Lymph:8.0 %, Mono:13.0 %,
   Eos:2.0 %, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:5.6 mg/dL
   Imaging: CXR: [**2126-10-15**] Interval development of bilateral lower lobe
   opacification compatible with
   history of aspiration. Bilateral small to moderate pleural effusions.
   Tracheostomy tube in stable position. NGT coursing below the diaphragm.
   KUB [**2126-10-15**]: No evidence of obstruction.
   Microbiology:
   [1][**2126-10-12**]
   SPUTUM
   PSEUDOMONAS AERUGINOSA
   INPATIENT
   [2][**2126-10-12**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [3][**2126-10-12**]
   BLOOD CULTURE ( MYCO/F LYTIC BOTTLE)
   BLOOD/FUNGAL CULTURE-PENDING; BLOOD/AFB CULTURE-PENDING
   INPATIENT
   [4][**2126-10-12**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [5][**2126-10-12**]
   URINE
   URINE CULTURE-NEGATIVE
   INPATIENT
   [6][**2126-10-11**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [7][**2126-10-11**]
   URINE
   URINE CULTURE-NEGATIVE
   INPATIENT
   [8][**2126-10-11**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [9][**2126-10-6**]
   SPUTUM
   PSEUDOMONAS AERUGINOSA
   INPATIENT
   [10][**2126-10-6**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   INPATIENT
   [11][**2126-10-6**]
   URINE
   URINE CULTURE-FINAL
   INPATIENT
   [12][**2126-10-6**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   INPATIENT
   [13][**2126-10-3**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   INPATIENT
   [14][**2126-10-3**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   ASPERGILLUS GALACTOMANNAN ANTIGEN
   B-GLUCAN
   LEVETIRACETAM (KEPPRA)
   [15][**2126-10-12**] 05:05PM
   PND
   [16][**2126-10-12**] 05:05PM
   PND
   Assessment and Plan
   53 y.o. M admitted to MICU for respiratory distress s/p PEA arrest
   [**2126-9-20**] then completed Arctic Sun cooling protocol, course complicated
   by seizures, pseudomanas-pneumonia, agitation/delirium, now with
   slightly improving mental status.
   # Seizure: Clinical seizure observed yesterday by neurology. Given
   absence of prior seizure activity, we had tapered the keppra off
   earlier in the week. We will obtain EEG this morning to look for
   seizure activity now that he is off keppra (prior EEG showed no
   epileptiform activity). Restarted keppra per neuro, will f/u neurology
   recommendations.
   # Vomiting/Aspiration event: Aspiration pneumonitis seen on cxr. Will
   follow fever curve clinically and defer antibiotics.
   Will continue on assist/control, elevated FiO2
   # Respiratory Failure / Trach:
   - AC; bronchoscopy today
   - cont steroids 15 mg po daily
 would decrease in future
   - continue bactrim ppx
   # Nutrition: Needs consistent method of nutrition.
   - Pt pulled NGT, replaced and pending cxr verification
   - consult IP for PEG tube pending sister
s decision/consent.
   .
   # C. difficile : Fever curve improved, leukocytosis decreasing.
   - cont PO Vanc for Cdiff (at least two weeks, earliest end date [**10-27**])
   # Agitation/Delirium:
   Acute worsening overnight likely related to aspiration event, dyspnea.
   Had been improving with pain treatment and decreasing keppra, now c/b
   seizure activity.
   - continue fentanyl patch at decreased dose at 75 mcg q 72 hours
   - continue decreased oxycodone 10mg q4hours prn
   - hold haldol due to prolonged QTc
   - continue clonidine 0.2 mg PO TID
   #  Wrist fracture: s/p ex-fix and ORIF of R elbow and wrist [**10-7**]
   - appreciate ortho recs and OT recs
   - ROM for R fingers/elbow, wrist to remain in splint
   - pain control with Fentanyl patch and oxycodone liquid prn as above
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   # S/P PEA Arrest:  Concern for anxoic brain injury although MRI [**10-2**]
   showed pons pathology that neuro says could be possibly reversible.
   - follow mental status with decreasing sedation and narcotics
   # Anemia of iron def: s/p 1 unit transfusion [**10-12**]
   - monitor hct
   - continue iron tablets
   - active T&S
   - guiaic all stools
   - Minimize blood draws
   - transfuse for Hct < 21 or active bleeding
   # Sinus Tachycardia: Resolving today with HR in 70-90s
   - monitor
   # DM, type II:
   - continue SSI from nursing home
   # Depression: holding Celexa so as not to contribute to mental status
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-16**] 12:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22,640,400,50,50,1);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22,640,400,50,50,1);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22,640,400,50,50,1);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_289%22);
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_290%22);

2126-10-17 07:42:00 Physician Resident Progress Note
24 Hour Events:
 EEG - At [**2126-10-16**] 01:09 PM
 BRONCHOSCOPY - At [**2126-10-16**] 05:17 PM
   - bronchoscopy performed for BAL
   - overall more agitated/less interactive than over the past 2-3 days.
   - EEG pending; neuro recommended keeping keppra at 500mg PO BID for
   now, while they review new EEG data.
   - CTA performed given mild respiratory decompensation and concern for
   new infiltrate which did not show PE but did show new LLL opacity
   ?atelectasis vs consolidation
   - Plan made for PEG tube.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2126-10-16**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-17**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.6
C (99.6
   HR: 83 (63 - 131) bpm
   BP: 99/56(66) {95/48(61) - 139/112(118)} mmHg
   RR: 15 (10 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.1 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  1,924 mL
                                                                    939 mL
   PO:
             TF:
                                                                    266 mL
                                                                    410 mL
   IVF:
                                                                    928 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                    820 mL
                                                                    300 mL
   Urine:
                                                                    820 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,104 mL
                                                                    639 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 17 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///37/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds:
   Rhonchorous and Coarse : )
   Abdominal: Soft, Non-tender
   Extremities: ex-fix pin mild increase in erythema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   466 K/uL
   7.6 g/dL
   128 mg/dL
   0.6 mg/dL
   37 mEq/L
   4.4 mEq/L
   18 mg/dL
   103 mEq/L
   143 mEq/L
   25.7 %
   11.2 K/uL
        [image002.jpg]
                             [**2126-10-12**]  05:05 PM
                             [**2126-10-13**]  03:04 AM
                             [**2126-10-13**]  05:45 PM
                             [**2126-10-14**]  04:25 AM
                             [**2126-10-14**]  04:51 PM
                             [**2126-10-15**]  04:17 AM
                             [**2126-10-15**]  05:42 PM
                             [**2126-10-15**]  06:34 PM
                             [**2126-10-16**]  03:20 AM
                             [**2126-10-17**]  03:38 AM
   WBC
   15.1
   10.7
   12.7
   15.8
   11.2
   Hct
   26.5
   24.6
   27.9
   29.2
   25.6
   25.7
   Plt
   [**Telephone/Fax (3) 10532**]09
   466
   Cr
   0.6
   0.5
   0.6
   0.5
   0.5
   0.6
   0.6
   0.6
   TCO2
   44
   Glucose
   150
   142
   150
   121
   104
   129
   113
   128
   Other labs: PT / PTT / INR:11.9/27.1/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Differential-Neuts:77.0 %, Band:0.0 %, Lymph:8.0 %, Mono:13.0 %,
   Eos:2.0 %, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L,
   Ca++:123.0, Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   [**10-11**] and [**10-12**] BCx pending
   B-Glucan 80 (+), Galactomannan 0.1 (negative)
[**2126-10-12**] 9:44 am BLOOD CULTURE ( MYCO/F LYTIC BOTTLE)
      Source: Venipuncture.
   BLOOD/FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
      BLOOD/AFB CULTURE (Preliminary):    NO MYCOBACTERIA ISOLATED
[**2126-10-16**] 5:24 pm BRONCHOALVEOLAR LAVAGE
   GRAM STAIN (Final [**2126-10-16**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):
   POTASSIUM HYDROXIDE PREPARATION (Preliminary):
   FUNGAL CULTURE (Preliminary):
   ACID FAST SMEAR (Preliminary):
[**2126-10-16**] 5:24 pm Rapid Respiratory Viral Screen & Culture
   Respiratory Viral Culture (Pending):
   Respiratory Viral Antigen Screen (Pending):
[**2126-10-16**] 5:26 pm BRONCHOALVEOLAR LAVAGE
   GRAM STAIN (Final [**2126-10-16**]):
      3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      1+    (<1 per 1000X FIELD):   BUDDING YEAST.
   RESPIRATORY CULTURE (Preliminary):
   POTASSIUM HYDROXIDE PREPARATION (Preliminary):
   FUNGAL CULTURE (Preliminary):
   ACID FAST SMEAR (Preliminary):
   ACID FAST CULTURE (Preliminary):
PORTABLE CXR [**2126-10-16**]
   The NG tube tip appears to be located proximally just at the
   gastroesophageal
   junction; it should be advanced for 10-15 cm. The IVC filter is re-
   demonstrated. Bilateral pleural effusions are noted. This study is
   suboptimal for evaluation of the lung fields.
   CTA - Provisional Findings Impression: YMf WED [**2126-10-16**] 7:28 PM
   No evidence of PE to the segmental levels. New small left effusion.
   Slightly
   increased right lower lobe atelectasis and left lower lobe opacity,
   which
   slightly more heterogeneous, but likely represents atelectasis.
   Assessment and Plan
   53 y.o. M admitted to MICU for respiratory distress s/p PEA arrest
   [**2126-9-20**] then completed Arctic Sun cooling protocol, course complicated
   by seizures, pseudomanas-pneumonia, agitation/delirium, now with ?
   recurrent sz activity.
   # Seizure: Clinical seizure observed by neurology. Given absence of
   prior seizure activity, we had tapered the keppra off earlier in the
   week.
   - f/u EEG
   - continue Keppra dosing per Neuro
   - appreciate Neurology input
   # Vomiting/Aspiration event: Aspiration pneumonitis seen on cxr. Will
   follow fever curve clinically and defer antibiotics.
   Will continue on assist/control, elevated FiO2
   # Respiratory Failure / Trach:  s/p bronchoscopy yesteday. Sputum
   cultures still with 3+ GNR, likely he is colonized with pseudomonas and
   is s/p 14 day treatment for pseudomonal bacteremia/pneuonia.
   Additionally, + galactomannan, PCP and fungal cultures still pending
   from bronch.  Mycolytic BCx negative to date.
   - for now, hold on abx and antifungals until culture evidence of
   infection
   - cont steroids 15 mg po daily - would decrease in future
   - continue bactrim ppx
   # Nutrition: Needs consistent method of nutrition.
   - appreciate IP recs for PEG
   .
   # C. difficile : Fever curve improved, leukocytosis decreasing.
   - cont PO Vanc for Cdiff (at least two weeks, earliest end date [**10-27**])
   # Agitation/Delirium: Acute worsening two nights ago likely related to
   aspiration event, dyspnea. Had been improving with pain treatment and
   decreasing keppra, now c/b seizure activity.
   - continue fentanyl patch at decreased dose at 75 mcg q 72 hours
   - continue decreased oxycodone 10mg q4hours prn
   - hold haldol due to prolonged QTc
   - continue clonidine 0.2 mg PO TID
   - continue Keppra per Neuro
   - f/u EEG
   #  Wrist fracture: s/p ex-fix and ORIF of R elbow and wrist [**10-7**]
   - appreciate ortho recs and OT recs
   - ROM for R fingers/elbow, wrist to remain in splint
   - pain control with Fentanyl patch and oxycodone liquid prn as above
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   # S/P PEA Arrest:  Concern for anxoic brain injury although MRI [**10-2**]
   showed pons pathology that neuro says could be possibly reversible.
   - follow mental status with decreasing sedation and narcotics
   # Anemia of iron def: s/p 1 unit transfusion [**10-12**]
   - monitor hct
   - continue iron tablets
   - active T&S
   - guiaic all stools
   - Minimize blood draws
   - transfuse for Hct < 21 or active bleeding
   # Sinus Tachycardia: Resolving today with HR in 70-90s
   - monitor
   # DM, type II:
   - continue SSI from nursing home
   # Depression: holding Celexa so as not to contribute to mental status
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-17**] 05:46 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2126-10-18 07:27:00 Physician Resident Progress Note
24 Hour Events:
   - ortho recs: nwb rue, okay to begin ROM of fingers and elbow, OT may
   unlock ex-fix for ROM, pin-care with h2O2/Nacl
   - neuro recs: propofol overnight masks seizure activity; keep on doing
   keppra --> 750 mg po BID as they don't believe that pt is sedated from
   keppra. Events are much less than prior on EEG. have not yet reviewed
   push-buttons, but appears that he is having clincal seizures
   - IP consulted for PEG, placed consult on hold for now
   - pt projectile vomited hemeoccult/gastroccult + emesis, stat hct 28,
   KUB with dilated loops of small bowel measuring up to 3.5 cm with air
   fluid levels, though air seen in the rectum, could represent ileus or
   early obstruction --> consulted surgery, likely ileus
   - placed back on AC with propofol
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2126-10-16**] 12:00 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-18**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.7
   HR: 95 (79 - 112) bpm
   BP: 115/57(69) {87/16(45) - 145/94(91)} mmHg
   RR: 22 (16 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.1 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  2,003 mL
                                                                    161 mL
   PO:
             TF:
                                                                  1,014 mL
   IVF:
                                                                    419 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                    185 mL
   Urine:
                                                                  1,140 mL
                                                                    185 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                    363 mL
                                                                    -24 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 447) mL
   Vt (Spontaneous): 340 (280 - 472) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 79
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 98%
   ABG: ///38/
   Ve: 7.3 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds:
   Rhonchorous and Coarse : )
   Abdominal: Soft, Non-tender, +BS today
   Extremities: ex-fix pin mild increase in erythema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   532 K/uL
   7.7 g/dL
   95 mg/dL
   0.6 mg/dL
   38 mEq/L
   4.2 mEq/L
   13 mg/dL
   103 mEq/L
   146 mEq/L
   25.6 %
   11.9 K/uL
        [image002.jpg]
                             [**2126-10-13**]  05:45 PM
                             [**2126-10-14**]  04:25 AM
                             [**2126-10-14**]  04:51 PM
                             [**2126-10-15**]  04:17 AM
                             [**2126-10-15**]  05:42 PM
                             [**2126-10-15**]  06:34 PM
                             [**2126-10-16**]  03:20 AM
                             [**2126-10-17**]  03:38 AM
                             [**2126-10-17**]  05:16 PM
                             [**2126-10-18**]  03:41 AM
   WBC
   10.7
   12.7
   15.8
   11.2
   13.7
   11.9
   Hct
   24.6
   27.9
   29.2
   25.6
   25.7
   28.5
   25.6
   Plt
   466
   576
   509
   466
   573
   532
   Cr
   0.6
   0.5
   0.5
   0.6
   0.6
   0.6
   0.6
   TCO2
   44
   Glucose
   150
   121
   104
   129
   113
   128
   95
   Other labs: PT / PTT / INR:12.2/29.7/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Differential-Neuts:77.0 %, Band:0.0 %, Lymph:8.0 %, Mono:13.0 %,
   Eos:2.0 %, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L,
   Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   53 y.o. M admitted to MICU for respiratory distress s/p PEA arrest
   [**2126-9-20**] then completed Arctic Sun cooling protocol, course complicated
   by seizures, pseudomanas-pneumonia, agitation/delirium, now with ?
   recurrent sz activity.
   # Ileus: Pt vomited yesterday and early in the week, surgery following,
   dilated loops of bowel on abd film, likely etiology is Cdiff
   - appreciate [**Doctor First Name 458**] involvement
   - NGT to suction
   -NPO
   -serial bowel exams
   # Seizure: Clinical seizure observed by neurology. Given absence of
   prior seizure activity, we had tapered the keppra off earlier in the
   week.
   - f/u EEG
   - continue Keppra dosing per Neuro
   - appreciate Neurology input
   # Respiratory Failure / Trach:  s/p bronchoscopy [**10-16**]. Sputum cultures
   still with 3+ GNR, likely he is colonized with pseudomonas and is s/p
   14 day treatment for pseudomonal bacteremia/pneuonia.  Additionally, +
   galactomannan, PCP and fungal cultures still pending from bronch.
   Mycolytic BCx negative to date.
   - for now, hold on abx and antifungals until culture evidence of
   infection
   - cont steroids 15 mg po daily (12mg methylprednisone daily while NPO)-
   would decrease in future, likely early next week
   - continue bactrim ppx
   - change to PS today from AC
   # Nutrition: NPO for ileues
   - needs PEG but will hold on it for now
   .
   # C. difficile : Fever curve improved, leukocytosis decreasing.
   -while NPO add on flagyl IV
   - hold PO Vanc for Cdiff for now (at least two weeks, earliest end date
   [**10-27**])
   # Agitation/Delirium: Acute worsening two nights ago likely related to
   aspiration event, dyspnea, and hypoxia. Had been improving with pain
   treatment and decreasing keppra, now c/b seizure activity.  Required
   propofol overnight.
   - continue fentanyl patch at decreased dose at 75 mcg q 72 hours
   - continue decreased oxycodone 10mg q4hours prn
   - hold haldol due to prolonged QTc
   - continue clonidine 0.2 mg PO TID
   - continue Keppra per Neuro
   - f/u EEG
   #  Wrist fracture: s/p ex-fix and ORIF of R elbow and wrist [**10-7**]
   - appreciate ortho recs and OT recs
   - ROM for R fingers/elbow, wrist to remain in splint
   - pain control with Fentanyl patch and oxycodone liquid prn as above
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   - bacitracin for pin hygiene
   # S/P PEA Arrest:  Concern for anxoic brain injury although MRI [**10-2**]
   showed pons pathology that neuro says could be possibly reversible.
   - follow mental status with decreasing sedation and narcotics
   # Anemia of iron def: s/p 1 unit transfusion [**10-12**]
   - monitor hct
   - continue iron tablets
   - active T&S
   - guiaic all stools
   - Minimize blood draws
   - transfuse for Hct < 21 or active bleeding
   # Sinus Tachycardia: Resolving today with HR in 70-90s
   - monitor
   # DM, type II:
   - continue SSI from nursing home
   # Depression: holding Celexa so as not to contribute to mental status
   ICU Care
   Nutrition: NPO
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2126-10-19 05:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2126-10-19**] 12:00 AM
   -sister upset because wasnt notified about not getting PEG, planning on
   coming in on tuesday [**10-22**] and if we need to reach her this weekend
   after 2:30pm then to call her at work
   -[**Doctor First Name 458**]: watch and wait
   -given 1L bolus to improve urine output
   -cont NPO
   -neuro rec: increase keppra to 750 [**Hospital1 **], pfi on EEG no seizures
   -put on MMV overnight, had relative bradycardia for him which improved
   by going down on PS
   -changed PPI to lansoprazole
   -started IV flagyl
   -given dialaudid as endorsing pain
   -had small BM
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Metronidazole - [**2126-10-19**] 04:00 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2126-10-19**] 04:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-19**] 05:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 89 (55 - 101) bpm
   BP: 131/67(80) {98/54(68) - 136/80(89)} mmHg
   RR: 20 (10 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.1 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  2,026 mL
                                                                    803 mL
   PO:
             TF:
   IVF:
                                                                  2,026 mL
                                                                    803 mL
   Blood products:
   Total out:
                                                                    710 mL
                                                                    255 mL
   Urine:
                                                                    710 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,316 mL
                                                                    548 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 427 (259 - 470) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 69
   PIP: 17 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: ///32/
   Ve: 8.1 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds:
   Rhonchorous and Coarse : )
   Abdominal: Soft, Non-tender, +BS today
   Extremities: ex-fix pin mild increase in erythema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   518 K/uL
   7.2 g/dL
   118 mg/dL
   0.5 mg/dL
   32 mEq/L
   4.2 mEq/L
   13 mg/dL
   106 mEq/L
   146 mEq/L
   24.0 %
   10.6 K/uL
        [image002.jpg]
                             [**2126-10-14**]  04:51 PM
                             [**2126-10-15**]  04:17 AM
                             [**2126-10-15**]  05:42 PM
                             [**2126-10-15**]  06:34 PM
                             [**2126-10-16**]  03:20 AM
                             [**2126-10-17**]  03:38 AM
                             [**2126-10-17**]  05:16 PM
                             [**2126-10-18**]  03:41 AM
                             [**2126-10-18**]  11:03 PM
                            [**2126-10-19**]  03:58 AM
   WBC
   12.7
   15.8
   11.2
   13.7
   11.9
   10.6
   Hct
   27.9
   29.2
   25.6
   25.7
   28.5
   25.6
   25.2
   24.0
   Plt
   576
   509
   466
   [**Telephone/Fax (3) 10544**]
   Cr
   0.5
   0.6
   0.6
   0.6
   0.6
   0.5
   TCO2
   44
   Glucose
   104
   129
   113
   128
   95
   118
   Other labs: PT / PTT / INR:12.2/29.7/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Differential-Neuts:77.0 %, Band:0.0 %, Lymph:8.0 %, Mono:13.0 %,
   Eos:2.0 %, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L,
   Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.2 mg/dL
   [1][**2126-10-16**]
   Rapid Respiratory Viral Screen & Culture
   Respiratory Viral Culture-PRELIMINARY; Respiratory Viral Antigen
   Screen-FINAL
   [2][**2126-10-16**]
   BRONCHOALVEOLAR LAVAGE
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {PSEUDOMONAS AERUGINOSA};
   POTASSIUM HYDROXIDE PREPARATION-FINAL; FUNGAL CULTURE-PRELIMINARY
   {YEAST}; ACID FAST SMEAR-FINAL; ACID FAST CULTURE-PRELIMINARY
   [3][**2126-10-16**]
   Rapid Respiratory Viral Screen & Culture
   Respiratory Viral Culture-FINAL; Respiratory Viral Antigen Screen-FINAL
   [4][**2126-10-16**]
   BRONCHOALVEOLAR LAVAGE
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL; POTASSIUM HYDROXIDE
   PREPARATION-FINAL; FUNGAL CULTURE-PRELIMINARY {YEAST}; ACID FAST
   SMEAR-FINAL; ACID FAST CULTURE-PRELIMINARY
   [5][**2126-10-12**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {PSEUDOMONAS AERUGINOSA};
   FUNGAL CULTURE-PRELIMINARY {YEAST}
   [6][**2126-10-12**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   [7][**2126-10-12**]
   BLOOD CULTURE ( MYCO/F LYTIC BOTTLE)
   BLOOD/FUNGAL CULTURE-PRELIMINARY; BLOOD/AFB CULTURE-PRELIMINARY
   [8][**2126-10-12**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   [9][**2126-10-12**]
   URINE
   URINE CULTURE-FINAL
   Assessment and Plan:
   53 y.o. M admitted to MICU for respiratory distress s/p PEA arrest
   [**2126-9-20**] then completed Arctic Sun cooling protocol, course complicated
   by seizures, pseudomanas-pneumonia, agitation/delirium, now with ?
   recurrent sz activity.
   # Ileus: Pt vomited yesterday and early in the week, surgery following,
   dilated loops of bowel on abd film. Electrolytes are all within normal
   limits.
   - appreciate [**Doctor First Name 458**] involvement
   - NGT to suction
   -NPO, advance when BM
   -serial bowel exams
   # Seizure: Clinical seizure observed by neurology. Given absence of
   prior seizure activity, we had tapered the keppra off earlier in the
   week.
   - f/u EEG
   - continue Keppra dosing per Neuro at lowest dose possible.
   - appreciate Neurology input
   # Respiratory Failure / Trach:  s/p bronchoscopy [**10-16**]. Sputum cultures
   still with 3+ GNR, likely he is colonized with pseudomonas and is s/p
   14 day treatment for pseudomonal bacteremia/pneuonia.  Additionally, +
   glucan, and PCP and fungal cultures still pending from bronch.
   Mycolytic BCx negative to date.
   - for now, hold on abx and antifungals until culture evidence of
   infection
   - cont steroids 15 mg po daily (12mg methylprednisone daily while NPO)-
   would decrease in future, likely early next week
   - continue bactrim ppx
   - change to PS today from AC
   # Nutrition: NPO for ileues
   - needs PEG but will hold on it for now
   .
   # C. difficile : Fever curve improved, leukocytosis decreasing.
   -while NPO add on flagyl IV
   - hold PO Vanc for Cdiff for now (earliest end date [**10-27**])
   # Agitation/Delirium: Acute worsening two nights ago likely related to
   aspiration event, dyspnea, and hypoxia. Had been improving with pain
   treatment and decreasing keppra, now c/b seizure activity.  Required
   propofol overnight.
   - continue fentanyl patch at decreased dose at 75 mcg q 72 hours
   - continue decreased oxycodone 10mg q4hours prn
   - hold haldol due to prolonged QTc
   - continue clonidine 0.2 mg PO TID
   - continue Keppra per Neuro
   - f/u EEG
   #  Wrist fracture: s/p ex-fix and ORIF of R elbow and wrist [**10-7**]
   - appreciate ortho recs and OT recs
   - ROM for R fingers/elbow, wrist to remain in splint
   - pain control with Fentanyl patch and oxycodone liquid prn as above
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   - bacitracin for pin hygiene
   # S/P PEA Arrest:  Concern for anxoic brain injury although MRI [**10-2**]
   showed pons pathology that neuro says could be possibly reversible.
   - follow mental status with decreasing sedation and narcotics
   # Anemia of iron def: s/p 1 unit transfusion [**10-12**]
   - monitor hct
   - continue iron tablets
   - active T&S
   - guiaic all stools
   - Minimize blood draws
   - transfuse for Hct < 21 or active bleeding
   # Sinus Tachycardia: Resolving today with HR in 70-90s
   - monitor
   # DM, type II:
   - continue SSI from nursing home
   # Depression: holding Celexa so as not to contribute to mental status
   ICU Care
   Nutrition: NPO
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);

2126-10-19 08:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    78yo man with tracheobronchomalacia, steroid-dependent COPD and
   diastolic heart failure as well as chronic trach (not on vent
   chronically) who p/w on [**2126-9-20**] with a comminuted wrist fracture and in
   setting of pain meds developed hypercarbic resp failure. Course
   complicated by hypoxemic PEA when transitioning from vent to trach
   mask, mucous plugging vs bronchospasm. Now s/p cooling with slowly
   improving mental status. Head CT negative for stroke.  MRI negative for
   anoxic brain injury but showed lesion in the pons microvascular changes
   vs demylenation. He has been off and on (currently on since [**10-15**])
   Keppra for possible seizures v. abnormal motor movements.
   24 Hour Events:
 EKG - At [**2126-10-19**] 12:00 AM
   EEG: no epileptiform activity
   Allergies:
   Codeine
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Metronidazole - [**2126-10-19**] 04:00 AM
   Vancomycin 125 mg po q6
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2126-10-19**] 04:57 AM
   Other medications:
   ASA 325, senna, fondaparinux, atrovent, RISS, free H2O boluses,
   fentanyl patch 50 mcg
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-19**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 104 (55 - 104) bpm
   BP: 137/71(105) {98/54(68) - 137/80(105)} mmHg
   RR: 23 (10 - 25) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77.1 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  2,026 mL
                                                                    865 mL
   PO:
             TF:
   IVF:
                                                                  2,026 mL
                                                                    865 mL
   Blood products:
   Total out:
                                                                    710 mL
                                                                    290 mL
   Urine:
                                                                    710 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,316 mL
                                                                    575 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 427 (259 - 470) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 69
   PIP: 17 cmH2O
   SpO2: 94%
   ABG: ///33/
   Ve: 8.1 L/min
   Physical Examination
   Gen: trached
   CV: RRR, no m/r/g
   Pulm: coarse breath sounds bilat, no wheezing
   Abd:soft, NTND
   Extrem:no edema
   Neuro: nods yes and no, follows some commands
   Labs / Radiology
   7.2 g/dL
   518 K/uL
   105 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.7 mEq/L
   11 mg/dL
   104 mEq/L
   144 mEq/L
   24.0 %
   10.6 K/uL
        [image002.jpg]
                             [**2126-10-14**]  04:51 PM
                             [**2126-10-15**]  04:17 AM
                             [**2126-10-15**]  05:42 PM
                             [**2126-10-15**]  06:34 PM
                             [**2126-10-16**]  03:20 AM
                             [**2126-10-17**]  03:38 AM
                             [**2126-10-17**]  05:16 PM
                             [**2126-10-18**]  03:41 AM
                             [**2126-10-18**]  11:03 PM
                            [**2126-10-19**]  03:58 AM
   WBC
   12.7
   15.8
   11.2
   13.7
   11.9
   10.6
   Hct
   27.9
   29.2
   25.6
   25.7
   28.5
   25.6
   25.2
   24.0
   Plt
   576
   509
   466
   [**Telephone/Fax (3) 10544**]
   Cr
   0.5
   0.6
   0.6
   0.6
   0.6
   0.5
   0.5
   TCO2
   44
   Glucose
   104
   129
   113
   128
   95
   118
   105
   Other labs: PT / PTT / INR:12.2/29.7/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Differential-Neuts:77.0 %, Band:0.0 %, Lymph:8.0 %, Mono:13.0 %,
   Eos:2.0 %, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L,
   Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
   His mental status has overall improved, but he continues to wax and
   wane over the past week. He has had a reassuring EEG and MRI this
   hospitalization. The most likely explanation for his persistent altered
   mental status appears to be medication effects in the setting of acute
   illness. We have decreased the dose of opiates that he had been on,
   specifically his Fentanyl patch has been decreased from 112 to 100 to
   75mcg ([**10-15**].) Continue oxycodone 10mg q6h PRN with a preference to use
   Tylenol first. He is now on Keppra 500mg [**Hospital1 **] although there is no EEG
   evidence of seizing, Neuro is concerned that clinically he is having
   seizing episodes. His perceived anxiety, tachycardia and increased
   movements may have been [**2-11**] respiratory distress as it appears that the
   majority of these episodes were in the setting of hypoxia. The etiology
   of his respiratory distress may be secondary to an aspiration
   pneumonitis in the setting of his emesis on [**10-15**] and again on [**10-17**]. He
   is s/p CTA (no clot, increased bibasilar opacities) and bronch (studies
   pending) on [**10-16**].  Doing well now off propafol.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 RESPIRATORY FAILURE, CHRONIC
            -stable on the vent.  On home dose of prednisone.  Continue
   present settings.
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   He has been on PS for the several days this week, but went back on A/C
   on the evening of [**10-15**] after receiving Ativan and oxycodone. He did
   tolerate PS 0/0 for several minutes on [**10-14**] with good tidal volumes and
   respiratory rate. As his clinical status allows, we will pursue trach
   mask trials. Currently on Prednisone 15mg q24h (down from alternating
   20mg / 15mg.). Will attempt PSV when he is off of Propofol this
   morning.
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
   Completed a course of antibiotics for Pseudomonas. He continues to have
   positive sputum cultures which likely represent colonization. Would not
   treat for sputum culture data alone; rather, would treat only in the
   appropriate clinical context.
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   Continue PO vanc for ~2 weeks after having completed antibiotics (i.e.,
   ~[**2126-10-27**].)  IV flagyl added due to ileus. Restarting po vanco now that
   had BM, and will d/c flagyl this afternoon if tolerating po still
 FRACTURE, OTHER
   Stable from an Orthopedic perspective. Pain control as above. Hardware
   will be in place for ~6 weeks. Elbow / wrist x-ray performed each
   Monday per Ortho; will f/u Ortho recs.
 HYPERNATREMIA
   Sodium better at 144 today.  Daily lytes
   -ILEUS:  all po feeds/meds held due to ileus, but now moving his bowels
   so restarting feeds and po meds.  Will monitor closely to make sure he
   tolerates.
   ICU Care
   Nutrition: restarting TF
   Glycemic Control:  RISS
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   Prophylaxis:
   DVT: fondaparinux
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 min
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   fellow for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.  To that I would add the
   following: responding to some commands today, up in chair.  Ongoing
   ileus.
   Pt is critically ill.  Time spent 30 min.
   ------ Protected Section Addendum Entered By:[**Name (NI) 6010**] [**Name8 (MD) 6011**], MD
   on:[**2126-10-19**] 18:42 ------

2126-10-20 07:37:00 Physician Resident Progress Note
24 Hour Events:
   - Ileus resolved, stopped IV metronidazole
   - Remained more alert/engaging yesterday, following commands
   - EEG pending
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Metronidazole - [**2126-10-20**] 04:00 AM
   Vancomycin - [**2126-10-20**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-20**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.4
C (97.6
   HR: 74 (53 - 101) bpm
   BP: 113/63(75) {110/56(71) - 135/98(102)} mmHg
   RR: 20 (15 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.1 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  1,674 mL
                                                                    860 mL
   PO:
             TF:
                                                                    294 mL
                                                                    325 mL
   IVF:
                                                                  1,290 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  1,020 mL
                                                                    175 mL
   Urine:
                                                                  1,020 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    654 mL
                                                                    685 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 261 (261 - 532) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: ///35/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds:
   Rhonchorous and Coarse : )
   Abdominal: Soft, Non-tender, +BS today
   Extremities: ex-fix pin mild increase in erythema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   508 K/uL
   7.6 g/dL
   116 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.6 mEq/L
   9 mg/dL
   103 mEq/L
   143 mEq/L
   25.7 %
   9.3 K/uL
        [image002.jpg]
                             [**2126-10-15**]  04:17 AM
                             [**2126-10-15**]  05:42 PM
                             [**2126-10-15**]  06:34 PM
                             [**2126-10-16**]  03:20 AM
                             [**2126-10-17**]  03:38 AM
                             [**2126-10-17**]  05:16 PM
                             [**2126-10-18**]  03:41 AM
                             [**2126-10-18**]  11:03 PM
                            [**2126-10-19**]  03:58 AM
                            [**2126-10-20**]  05:09 AM
   WBC
   12.7
   15.8
   11.2
   13.7
   11.9
   10.6
   9.3
   Hct
   27.9
   29.2
   25.6
   25.7
   28.5
   25.6
   25.2
   24.0
   25.7
   Plt
   576
   509
   466
   [**Telephone/Fax (3) 10544**]
   508
   Cr
   0.6
   0.6
   0.6
   0.6
   0.5
   0.5
   0.5
   TCO2
   44
   Glucose
   129
   113
   128
   95
   118
   105
   116
   Other labs: PT / PTT / INR:12.2/29.7/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Differential-Neuts:77.0 %, Band:0.0 %, Lymph:8.0 %, Mono:13.0 %,
   Eos:2.0 %, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L,
   Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   [1][**2126-10-16**]
   Rapid Respiratory Viral Screen & Culture
   Respiratory Viral Culture-FINAL; Respiratory Viral Antigen Screen-FINAL
   [2][**2126-10-16**]
   BRONCHOALVEOLAR LAVAGE
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {PSEUDOMONAS AERUGINOSA};
   POTASSIUM HYDROXIDE PREPARATION-FINAL; FUNGAL CULTURE-PRELIMINARY
   {YEAST}; ACID FAST SMEAR-FINAL; ACID FAST CULTURE-PRELIMINARY
   [3][**2126-10-16**]
   Rapid Respiratory Viral Screen & Culture
   Respiratory Viral Culture-FINAL; Respiratory Viral Antigen Screen-FINAL
   [4][**2126-10-16**]
   BRONCHOALVEOLAR LAVAGE
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL; POTASSIUM HYDROXIDE
   PREPARATION-FINAL; FUNGAL CULTURE-PRELIMINARY {YEAST}; ACID FAST
   SMEAR-FINAL; ACID FAST CULTURE-PRELIMINARY
   [5][**2126-10-12**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {PSEUDOMONAS AERUGINOSA};
   FUNGAL CULTURE-PRELIMINARY {YEAST}
   [6][**2126-10-12**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   [7][**2126-10-12**]
   BLOOD CULTURE ( MYCO/F LYTIC BOTTLE)
   BLOOD/FUNGAL CULTURE-PRELIMINARY; BLOOD/AFB CULTURE-PRELIMINARY
   [8][**2126-10-12**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   [9][**2126-10-12**]
   URINE
   URINE CULTURE-FINAL
   [10][**2126-10-11**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   [11][**2126-10-11**]
   URINE
   URINE CULTURE-FINAL
   CXR [**10-19**]
   Tracheostomy is in the midline. Nasogastric tube courses to the
   stomach.
   There are large bilateral pleural effusions as well as bibasilar
   atelectasis.
   Heart is enlarged. There is mild congestive failure. Essentially, no
   change
   from the prior study.
   EEG: [**2126-10-18**]: This is an abnormal video EEG due to low voltage and
   slowing of the background activity. There were no epileptiform
   discharges or electrographic seizures. This telemetry captured three
   pushbutton activations, two involving sudden elevation of the arm(s)
   without obvious EEG correlate. These findings are consistent with a
   moderate to severe encephalopathy secondary to anoxic injury. On video,
   abrupt episode of bilateral arm elevation with sustained elevation for
   a couple of seconds suggests frontal seizure activity that may not be
   detected on current study. Clinical correlation is recommended.
   Compared to EEG from prior 24 hours, this study is unchanged.
   ASSESSMENT & PLAN: 53 y.o. M admitted to MICU for respiratory distress
   s/p PEA arrest [**2126-9-20**] then completed Arctic Sun cooling protocol,
   course complicated by seizures, pseudomanas-pneumonia,
   agitation/delirium.
   His mental status is remarkably improved!  He is able to answer yes and
   no questions, knows he
s in [**State 877**].
   # Respiratory Failure / Trach:  s/p bronchoscopy [**10-16**]. Sputum cultures
   still with 3+ GNR, likely he is colonized with pseudomonas and is s/p
   14 day treatment for pseudomonal bacteremia/pneuonia.  Additionally, +
   glucan, and PCP and fungal cultures still pending from bronch.
   Mycolytic BCx negative to date.
   - for now, hold on abx and antifungals until culture evidence of
   infection
   - cont steroids 15 mg po daily , decrease to 10mg tomorrow.
   - continue bactrim ppx
   - continue PS
   # Ileus: Resolved, now stooling
   - appreciate [**Doctor First Name 458**] involvement
   - advance tube feeds slowly
   - switch meds to PO from IV
   # Seizure: Clinical seizure observed by neurology. Given absence of
   prior seizure activity, we had tapered the keppra off earlier in the
   week.
   - EEG still without epileptiform activity.
   - continue Keppra dosing per Neuro
   - appreciate Neurology input
   # Nutrition:
   - resuming tube feeds, follow residuals
   - needs PEG, likely on Tuesday but need to follow up with IP Last
   albumin 3.1
   .
   # C. difficile : Fever curve improved, leukocytosis decreasing.
   -cont IV flagyl until tolerating PO well
   - PO Vanc for Cdiff for now (earliest end date [**10-27**])
   # Agitation/Delirium: Overall improved!
   - continue fentanyl patch at decreased dose at 50 mcg q 72 hours([**10-19**])
   - continue decreased oxycodone 10mg q4hours prn
   - hold haldol due to prolonged QTc
   - continue clonidine 0.2 mg PO TID
   - continue Keppra per Neuro
   #  Wrist fracture: s/p ex-fix and ORIF of R elbow and wrist [**10-7**]
   - appreciate ortho recs and OT recs
   - ROM for R fingers/elbow, wrist to remain in splint
   - pain control with Fentanyl patch and oxycodone liquid prn as above
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   - bacitracin for pin hygiene
   # S/P PEA Arrest:  Concern for anxoic brain injury although MRI [**10-2**]
   showed pons pathology that neuro says could be possibly reversible.
   - follow mental status with decreasing sedation and narcotics
   # Anemia of iron def: s/p 1 unit transfusion [**10-12**]
   - monitor hct
   - continue iron tablets
   - active T&S
   - guaiac all stools
   - Minimize blood draws
   - transfuse for Hct < 21 or active bleeding
   # Sinus Tachycardia: Resolving today with HR in 70-90s
   - monitor
   # DM, type II:
   - continue SSI from nursing home
   ICU Care
   Nutrition: tube feeds resuming
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU, starting to screen
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);

2126-10-20 08:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    78yo man with tracheobronchomalacia, steroid-dependent COPD and
   diastolic heart failure as well as chronic trach (not on vent
   chronically) who p/w on [**2126-9-20**] with a comminuted wrist fracture and in
   setting of pain meds developed hypercarbic resp failure. Course
   complicated by hypoxemic PEA when transitioning from vent to trach
   mask, mucous plugging vs bronchospasm. Now s/p cooling with slowly
   improving mental status. Head CT negative for stroke.  MRI negative for
   anoxic brain injury but showed lesion in the pons microvascular changes
   vs demylenation. He has been off and on (currently on since [**10-15**])
   Keppra for possible seizures v. abnormal motor movements.
   24 Hour Events:
   Ileus resolved, so PO meds and tube feeds restarted yesterday
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin po
   Infusions:
   Other ICU medications:
   Other medications:
   Iron sulfate, calcium, bactrim DC [**Last Name (LF) 10552**], [**First Name3 (LF) 369**], vit D, senna, fondaparinux,
   albuterol, RISS, clonidine, coalce, lansoprazole, fentanyls patch 50
   mcg, keppra 750mg po BID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-20**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.7
C (98.1
   HR: 74 (53 - 101) bpm
   BP: 113/63(75) {110/56(71) - 135/98(102)} mmHg
   RR: 20 (15 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.1 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  1,674 mL
                                                                  1,129 mL
   PO:
             TF:
                                                                    294 mL
                                                                    349 mL
   IVF:
                                                                  1,290 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                  1,020 mL
                                                                    195 mL
   Urine:
                                                                  1,020 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    654 mL
                                                                    934 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 261 (261 - 532) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: ///35/
   Ve: 6.8 L/min
   Physical Examination
   General: alert, NAD
   CV:RRR
   Pulm:
   Abd:
   Extrem:
   Neuro:
   Labs / Radiology
   7.6 g/dL
   508 K/uL
   116 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.6 mEq/L
   9 mg/dL
   103 mEq/L
   143 mEq/L
   25.7 %
   9.3 K/uL
        [image002.jpg]
                             [**2126-10-15**]  04:17 AM
                             [**2126-10-15**]  05:42 PM
                             [**2126-10-15**]  06:34 PM
                             [**2126-10-16**]  03:20 AM
                             [**2126-10-17**]  03:38 AM
                             [**2126-10-17**]  05:16 PM
                             [**2126-10-18**]  03:41 AM
                             [**2126-10-18**]  11:03 PM
                            [**2126-10-19**]  03:58 AM
                            [**2126-10-20**]  05:09 AM
   WBC
   12.7
   15.8
   11.2
   13.7
   11.9
   10.6
   9.3
   Hct
   27.9
   29.2
   25.6
   25.7
   28.5
   25.6
   25.2
   24.0
   25.7
   Plt
   576
   509
   466
   [**Telephone/Fax (3) 10544**]
   508
   Cr
   0.6
   0.6
   0.6
   0.6
   0.5
   0.5
   0.5
   TCO2
   44
   Glucose
   129
   113
   128
   95
   118
   105
   116
   Other labs: PT / PTT / INR:12.2/29.7/1.0, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Differential-Neuts:77.0 %, Band:0.0 %, Lymph:8.0 %, Mono:13.0 %,
   Eos:2.0 %, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L,
   Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
   His mental status has overall improved, but he continues to wax and
   wane over the past week. He has had a reassuring EEG and MRI this
   hospitalization. The most likely explanation for his persistent altered
   mental status appears to be medication effects in the setting of acute
   illness. We have decreased the dose of opiates that he had been on,
   specifically his Fentanyl patch has been decreased from 112 to 100 to
   75mcg ([**10-15**].) Continue oxycodone 10mg q6h PRN with a preference to use
   Tylenol first. He is now on Keppra 500mg [**Hospital1 **] although there is no EEG
   evidence of seizing, Neuro is concerned that clinically he is having
   seizing episodes. His perceived anxiety, tachycardia and increased
   movements may have been [**2-11**] respiratory distress as it appears that the
   majority of these episodes were in the setting of hypoxia. The etiology
   of his respiratory distress may be secondary to an aspiration
   pneumonitis in the setting of his emesis on [**10-15**] and again on [**10-17**]. He
   is s/p CTA (no clot, increased bibasilar opacities) and bronch (studies
   pending) on [**10-16**].  Doing well now off propafol, and respiratory status
   now improved.  Stable on [**10-14**].
 RESPIRATORY FAILURE, CHRONIC
     -secondary to COPD, tracheobronchomalacia (severe), complicated by
   VAP, which has been treated.  Now stable on PSV, weaning pressure
   support.  Will try [**5-14**] today
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
   Completed a course of antibiotics for Pseudomonas. He continues to have
   positive sputum cultures which likely represent colonization. Would not
   treat for sputum culture data alone; rather, would treat only in the
   appropriate clinical context.
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   Continue PO vanc for ~2 weeks after having completed antibiotics (i.e.,
   ~[**2126-10-27**].)  IV flagyl added due to ileus. Restarting po vanco now that
   had BM, and will d/c flagyl this afternoon if tolerating po still
 FRACTURE, OTHER
   Stable from an Orthopedic perspective. Pain control as above. Hardware
   will be in place for ~6 weeks. Elbow / wrist x-ray performed each
   Monday per Ortho; will f/u Ortho recs.
   -ILEUS:  resolved
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-20**] 05:11 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   Prophylaxis:
   DVT: fondaparinux
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, to rehab this weel
   Total time spent: 30 min
   ------ Protected Section ------
   MICU Attending Addendum
   On this day I examined the patient, reviewed his hospital course, and
   was present for the key portions of the services provided.  I have
   reviewed Dr [**Last Name (STitle) **]
s note above and agree with her findings and plan of
   care.  Mr [**Known lastname 6115**] is comfortable on the vent today and interactive,
   showing significant improvement in hypoxic encephalopathy. Narcotics
   being weaned but efforts so far to get him down to PSV 5/5 have been
   unsuccessful. Bowel sounds excellent and NGT feedings have been
   resumed. WBC has greadually improved and pt is now on p.o Vanco for C
   diff.  Hopefully to  rehab next week some time.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2045**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 4513**] [**Last Name (NamePattern1) 2045**], MD
   on:[**2126-10-20**] 20:18 ------

2126-10-21 08:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    78yo man with tracheobronchomalacia, steroid-dependent COPD and
   diastolic heart failure as well as chronic trach (not on vent
   chronically) who p/w on [**2126-9-20**] with a comminuted wrist fracture and in
   setting of pain meds developed hypercarbic resp failure. Course
   complicated by hypoxemic PEA when transitioning from vent to trach
   mask, mucous plugging vs bronchospasm. Now s/p cooling with slowly
   improving mental status. Head CT negative for stroke.  MRI negative for
   anoxic brain injury but showed lesion in the pons microvascular changes
   vs demylenation. He has been off and on (currently on since [**10-15**])
   Keppra for possible seizures v. abnormal motor movements.
   24 Hour Events:
   Did not do well with 5/5 trial yesterday
   Fell out of bed overnight [**10-20**], had to have orthopedic pin adjusted.
   CT head neg
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vanco po
   Infusions:
   Other ICU medications:
   Other medications:
   Bactrim [**Last Name (LF) 10552**], [**First Name3 (LF) **], vit D, Calcium, fondaparinux, clonidine,
   lansoprazole, fentanyl patch 50, keppra, prednisone 10mg
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-21**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (99
   HR: 74 (64 - 86) bpm
   BP: 116/70(79) {93/53(61) - 141/97(103)} mmHg
   RR: 19 (12 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.1 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  2,635 mL
                                                                    865 mL
   PO:
             TF:
                                                                  1,155 mL
                                                                    404 mL
   IVF:
                                                                    340 mL
                                                                     81 mL
   Blood products:
   Total out:
                                                                    995 mL
                                                                    330 mL
   Urine:
                                                                    995 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,640 mL
                                                                    535 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 77 (77 - 486) mL
   PS : 10 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: ///32/
   Ve: 8.4 L/min
   Physical Examination
   General: alert, more interactive
   HEENT:PERRL, no JVD
   CV:RRR, no m/r/g
   PULM: CTA bilat
   GI:soft, NTND, no HSM
   EXTREM:no edema
   NEURO: more alert, able to answer more questions and is trying to mouth
   words
   Labs / Radiology
   8.3 g/dL
   525 K/uL
   133 mg/dL
   0.5 mg/dL
   32 mEq/L
   4.4 mEq/L
   10 mg/dL
   103 mEq/L
   143 mEq/L
   27.2 %
   10.9 K/uL
        [image002.jpg]
                             [**2126-10-15**]  05:42 PM
                             [**2126-10-15**]  06:34 PM
                             [**2126-10-16**]  03:20 AM
                             [**2126-10-17**]  03:38 AM
                             [**2126-10-17**]  05:16 PM
                             [**2126-10-18**]  03:41 AM
                             [**2126-10-18**]  11:03 PM
                            [**2126-10-19**]  03:58 AM
                            [**2126-10-20**]  05:09 AM
                            [**2126-10-21**]  04:36 AM
   WBC
   15.8
   11.2
   13.7
   11.9
   10.6
   9.3
   10.9
   Hct
   29.2
   25.6
   25.7
   28.5
   25.6
   25.2
   24.0
   25.7
   27.2
   Plt
   [**Telephone/Fax (3) 10558**]32
   518
   508
   525
   Cr
   0.6
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   TCO2
   44
   Glucose
   113
   128
   95
   118
   105
   116
   133
   Other labs: PT / PTT / INR:12.9/28.4/1.1, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Differential-Neuts:77.0 %, Band:0.0 %, Lymph:8.0 %, Mono:13.0 %,
   Eos:2.0 %, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
   His mental status has overall improved, but he continues to wax and
   wane over the past week. He has had a reassuring EEG and MRI this
   hospitalization. The most likely explanation for his persistent altered
   mental status appears to be medication effects in the setting of acute
   illness. We have decreased the dose of opiates that he had been on,
   specifically his Fentanyl patch has been decreased from 112 to 100 to
   75mcg ([**10-15**].) Continue oxycodone 10mg q6h PRN with a preference to use
   Tylenol first. He is now on Keppra 500mg [**Hospital1 **] although there is no EEG
   evidence of seizing, Neuro is concerned that clinically he is having
   seizing episodes. His perceived anxiety, tachycardia and increased
   movements may have been [**2-11**] respiratory distress as it appears that the
   majority of these episodes were in the setting of hypoxia. The etiology
   of his respiratory distress may be secondary to an aspiration
   pneumonitis in the setting of his emesis on [**10-15**] and again on [**10-17**]. He
   is s/p CTA (no clot, increased bibasilar opacities) and bronch (studies
   pending) on [**10-16**].  Doing well now off propafol, and respiratory status
   now improved.  Stable on [**10-14**].
           -head CT done last night after fall
 RESPIRATORY FAILURE, CHRONIC
     -secondary to COPD, tracheobronchomalacia (severe), complicated by
   VAP, which has been treated.  Now stable on PSV, weaning pressure
   support.  Does not do well with daily trials of [**5-14**], but very stable on
   [**10-14**].  Will need slow wean at pulm rehab.  Decreased prednisone to 10mg
   daily.  Continuing inhalers
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
   Completed a course of antibiotics for Pseudomonas. He continues to have
   positive sputum cultures which likely represent colonization. Would not
   treat for sputum culture data alone; rather, would treat only in the
   appropriate clinical context.
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   Continue PO vanc for ~2 weeks after having completed antibiotics (i.e.,
   ~[**2126-10-27**].)  IV flagyl added due to ileus. Now back on po vanco and off
   flagyl
 FRACTURE, OTHER
   Stable from an Orthopedic perspective. Pain control as above. Hardware
   will be in place for ~6 weeks. Elbow / wrist x-ray performed each
   Monday per Ortho; will f/u Ortho recs.  Fell out of bed last night and
   dislodged pin, but ortho was able to replace it at bedside
   -GI-Ileus last week, now resolved.  PEG in am.
   ICU Care
   Nutrition: tube feeds, getting PEG in AM
   Fibersource HN (Full) - [**2126-10-21**] 01:02 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   Prophylaxis:
   DVT: fondaparinux
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU. Screening for pulm rehab
   Total time spent: 30 min
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   fellow for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.  To that I would add the
   following:  Mr. [**Known lastname 6115**] fell from bed overnight and had to have
   external orthopedic hardware adjusted.  Despite this, his mental status
   is significantly improved today.  He is alert and interactive. Will try
   again today to see if he can tolerate PSV 5/5.  Pt is critically ill.
   Time spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 6010**] [**Name8 (MD) 6011**], MD
   on:[**2126-10-21**] 17:41 ------

2126-10-21 09:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ortho: continue pin care, NWB RUE, OT
   - [**Doctor First Name 458**]: NGT/NPO per primary team
   - neuro: no new recs
   - consulted IP again for PEG but no recs
   - decreased prednisone
   - EEG with encephalopathy
   - improved mental status with answering yes/no
   - [**5-14**] PS trial with poor volumes --> changed to 15/5 as pt communicated
   that this was more comfortable
   - pt fell off bed, RUE ex-fix broke, ortho notified, CT head and XR
   wrist/elbow completed
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Metronidazole - [**2126-10-20**] 04:00 AM
   Vancomycin - [**2126-10-20**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-21**] 09:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.6
   HR: 78 (64 - 86) bpm
   BP: 118/76(86) {93/53(61) - 127/82(90)} mmHg
   RR: 26 (12 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.1 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  2,635 mL
                                                                  1,112 mL
   PO:
             TF:
                                                                  1,155 mL
                                                                    460 mL
   IVF:
                                                                    340 mL
                                                                     92 mL
   Blood products:
   Total out:
                                                                    995 mL
                                                                    450 mL
   Urine:
                                                                    995 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,640 mL
                                                                    663 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 326 (77 - 486) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///32/
   Ve: 6 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   525 K/uL
   8.3 g/dL
   133 mg/dL
   0.5 mg/dL
   32 mEq/L
   4.4 mEq/L
   10 mg/dL
   103 mEq/L
   143 mEq/L
   27.2 %
   10.9 K/uL
        [image002.jpg]
                             [**2126-10-15**]  05:42 PM
                             [**2126-10-15**]  06:34 PM
                             [**2126-10-16**]  03:20 AM
                             [**2126-10-17**]  03:38 AM
                             [**2126-10-17**]  05:16 PM
                             [**2126-10-18**]  03:41 AM
                             [**2126-10-18**]  11:03 PM
                            [**2126-10-19**]  03:58 AM
                            [**2126-10-20**]  05:09 AM
                            [**2126-10-21**]  04:36 AM
   WBC
   15.8
   11.2
   13.7
   11.9
   10.6
   9.3
   10.9
   Hct
   29.2
   25.6
   25.7
   28.5
   25.6
   25.2
   24.0
   25.7
   27.2
   Plt
   [**Telephone/Fax (3) 10558**]32
   518
   508
   525
   Cr
   0.6
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   TCO2
   44
   Glucose
   113
   128
   95
   118
   105
   116
   133
   Other labs: PT / PTT / INR:12.9/28.4/1.1, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Differential-Neuts:77.0 %, Band:0.0 %, Lymph:8.0 %, Mono:13.0 %,
   Eos:2.0 %, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   ASSESSMENT & PLAN: 53 y.o. M admitted to MICU for respiratory distress
   s/p PEA arrest [**2126-9-20**] then completed Arctic Sun cooling protocol,
   course complicated by seizures, pseudomanas-pneumonia,
   agitation/delirium.
    His mental status is remarkably improved!  He is able to answer yes
   and no questions, knows he
s in [**State 877**].
    # Respiratory Failure / Trach:  s/p bronchoscopy [**10-16**]. Sputum cultures
   still with 3+ GNR, likely he is colonized with pseudomonas and is s/p
   14 day treatment for pseudomonal bacteremia/pneuonia.  Additionally, +
   glucan, and PCP and fungal cultures still pending from bronch.
   Mycolytic BCx negative to date.
   - for now, hold on abx and antifungals until culture evidence of
   infection
   - cont steroids 15 mg po daily , decrease to 10mg tomorrow.
   - continue bactrim ppx
   - continue PS
   # Ileus: Resolved, now stooling
   - appreciate [**Doctor First Name 458**] involvement
   - advance tube feeds slowly
   - switch meds to PO from IV
   # Seizure: Clinical seizure observed by neurology. Given absence of
   prior seizure activity, we had tapered the keppra off earlier in the
   week.
   - EEG still without epileptiform activity.
   - continue Keppra dosing per Neuro
   - appreciate Neurology input
   # Nutrition:
   - resuming tube feeds, follow residuals
   - needs PEG, likely on Tuesday but need to follow up with IP Last
   albumin 3.1
   # C. difficile : Fever curve improved, leukocytosis decreasing.
   -cont IV flagyl until tolerating PO well
   - PO Vanc for Cdiff for now (earliest end date [**10-27**])
   # Agitation/Delirium: Overall improved!
   - continue fentanyl patch at decreased dose at 50 mcg q 72 hours([**10-19**])
   - continue decreased oxycodone 10mg q4hours prn
   - hold haldol due to prolonged QTc
   - continue clonidine 0.2 mg PO TID
   - continue Keppra per Neuro
   #  Wrist fracture: s/p ex-fix and ORIF of R elbow and wrist [**10-7**]
   - appreciate ortho recs and OT recs
   - ROM for R fingers/elbow, wrist to remain in splint
   - pain control with Fentanyl patch and oxycodone liquid prn as above
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   - bacitracin for pin hygiene
   # S/P PEA Arrest:  Concern for anxoic brain injury although MRI [**10-2**]
   showed pons pathology that neuro says could be possibly reversible.
   - follow mental status with decreasing sedation and narcotics
   # Anemia of iron def: s/p 1 unit transfusion [**10-12**]
   - monitor hct
   - continue iron tablets
   - active T&S
   - guaiac all stools
   - Minimize blood draws
   - transfuse for Hct < 21 or active bleeding
   # Sinus Tachycardia: Resolving today with HR in 70-90s
   - monitor
   # DM, type II:
   - continue SSI from nursing home
   ICU Care
   Nutrition: tube feeds resuming
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU, starting to screen
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-21**] 01:02 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-10-22 07:13:00 Physician Resident Progress Note
Chief Complaint: Wrist fracture, severe COPD, PEA arrest
   24 Hour Events:
   -ortho came to assess the broken ex-fix, xrays taken
   -much more verbal, seems frustrated
   -sister updated re:fall
   -NPO for peg today
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Metronidazole - [**2126-10-20**] 04:00 AM
   Vancomycin - [**2126-10-20**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-22**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 69 (58 - 96) bpm
   BP: 154/97(111) {97/59(69) - 164/97(111)} mmHg
   RR: 28 (20 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.1 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  2,591 mL
                                                                     70 mL
   PO:
             TF:
                                                                  1,201 mL
   IVF:
                                                                    240 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  1,185 mL
                                                                    330 mL
   Urine:
                                                                  1,185 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,406 mL
                                                                   -260 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 353 (260 - 353) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 116
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 8.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   567 K/uL
   8.8 g/dL
   99 mg/dL
   0.5 mg/dL
   32 mEq/L
   4.1 mEq/L
   6 mg/dL
   101 mEq/L
   140 mEq/L
   28.6 %
   14.7 K/uL
        [image002.jpg]
                             [**2126-10-15**]  06:34 PM
                             [**2126-10-16**]  03:20 AM
                             [**2126-10-17**]  03:38 AM
                             [**2126-10-17**]  05:16 PM
                             [**2126-10-18**]  03:41 AM
                             [**2126-10-18**]  11:03 PM
                            [**2126-10-19**]  03:58 AM
                            [**2126-10-20**]  05:09 AM
                            [**2126-10-21**]  04:36 AM
                            [**2126-10-22**]  04:53 AM
   WBC
   15.8
   11.2
   13.7
   11.9
   10.6
   9.3
   10.9
   14.7
   Hct
   25.6
   25.7
   28.5
   25.6
   25.2
   24.0
   25.7
   27.2
   28.6
   Plt
   [**Telephone/Fax (3) 10558**]32
   [**Telephone/Fax (2) 10563**]67
   Cr
   0.6
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   44
   Glucose
   113
   128
   95
   118
   105
   116
   133
   99
   Other labs: PT / PTT / INR:12.9/28.4/1.1, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/28, Alk Phos / T Bili:116/0.4,
   Differential-Neuts:77.0 %, Band:0.0 %, Lymph:8.0 %, Mono:13.0 %,
   Eos:2.0 %, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:374 IU/L,
   Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 FALL(S)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 BRADYCARDIA
 IMPAIRED SKIN INTEGRITY
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 VENTILATION, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 TRANSFERS, IMPAIRED
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 RESPIRATORY FAILURE, CHRONIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
 .H/O CARDIAC ARREST
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 FRACTURE, OTHER
   ASSESSMENT & PLAN: 53 y.o. M admitted to MICU for respiratory distress
   s/p PEA arrest [**2126-9-20**] then completed Arctic Sun cooling protocol,
   course complicated by seizures, pseudomanas-pneumonia,
   agitation/delirium.
   # Respiratory Failure / Trach:  s/p bronchoscopy [**10-16**]. Sputum cultures
   still with 3+ GNR, likely he is colonized with pseudomonas and is s/p
   14 day treatment for pseudomonal bacteremia/pneuonia.  Additionally, +
   glucan and fungal cultures growing yeast thus far from bronch.
   Mycolytic BCx negative to date.  AFB cultures from bronch pending.
   - for now, hold on abx and antifungals until culture evidence of
   infection
   - cont steroids 10 mg po daily
   - continue bactrim ppx
   - continue PS
   - PEG today
   # Leukocytosis:  [**Month (only) 60**] be due to stress reaction from fall +/- steroids.
   No evidence of acute infection.
   # Ileus: Resolved, now stooling
   - advance tube feeds slowly after PEG placement
   - switch meds to PO from IV
   # Seizure: Clinical seizure observed by neurology. Given absence of
   prior seizure activity, we had tapered the keppra off earlier in the
   week.
   - EEG still without epileptiform activity.
   - continue Keppra dosing per Neuro
   - appreciate Neurology input
   # C. difficile : Fever curve improved.
   - PO Vanc for Cdiff for now (earliest end date [**10-27**])
   # Agitation/Delirium: Overall improved! Able to communicate/mouth words
   appropriately
   - continue fentanyl patch at decreased dose at 50 mcg q 72 hours([**10-19**])
   - continue decreased oxycodone 10mg q4hours prn
   - hold haldol due to prolonged QTc
   - continue clonidine 0.2 mg PO TID
   - continue Keppra per Neuro
   #  Wrist fracture: s/p ex-fix and ORIF of R elbow and wrist [**10-7**]
   - appreciate ortho recs and OT recs
   - ROM for R fingers/elbow, wrist to remain in splint
   - pain control with Fentanyl patch and oxycodone liquid prn as above
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   - bacitracin for pin hygiene
   # S/P PEA Arrest:  Concern for anxoic brain injury although MRI [**10-2**]
   showed pons pathology that neuro says could be possibly reversible.
   - follow mental status with decreasing sedation and narcotics
   # Anemia of iron def: s/p 1 unit transfusion [**10-12**]
   - monitor hct
   - continue iron tablets
   - active T&S
   - guaiac all stools
   - Minimize blood draws
   - transfuse for Hct < 21 or active bleeding
   # DM, type II:
   - continue SSI from nursing home
   ICU Care
   Nutrition:
   Comments: Tube feeds on hold for PEG placement
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:starting to screen for rehab

2126-10-23 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2126-10-22**] 09:51 AM
 PEG INSERTION - At [**2126-10-22**] 09:51 AM
 PAN CULTURE - At [**2126-10-22**] 02:27 PM
 FEVER - 103.0
F - [**2126-10-22**] 02:00 PM
   -PEG placed w/o complication
   -T103 pan-Cx sputum gram stain showed 4+ GNR started on
   vanc/cefepime/gent given prior MDR pseudomonas
   -gent trough to be drawn 2 hrs prior to [**10-23**] dose
   -PEEP incr to 10 cmH20 to recruit collapsed RLL on pCXR
   -elbow xray showed incongruency of the radiocapitellar joint, ortho
   aware
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Gentamicin - [**2126-10-22**] 06:00 PM
   Cefipime - [**2126-10-22**] 08:00 PM
   Fluconazole - [**2126-10-22**] 08:15 PM
   Vancomycin - [**2126-10-23**] 06:23 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2126-10-22**] 09:30 AM
   Propofol - [**2126-10-22**] 09:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-23**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 36.8
C (98.2
   HR: 74 (73 - 132) bpm
   BP: 91/59(66) {87/55(62) - 155/99(114)} mmHg
   RR: 20 (16 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.1 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  1,700 mL
                                                                    525 mL
   PO:
             TF:
   IVF:
                                                                  1,390 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  1,970 mL
                                                                    530 mL
   Urine:
                                                                  1,970 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -270 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 317 (317 - 317) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: ///34/
   Ve: 7.6 L/min
   Physical Examination
   General:  Mouthing words appropriately
   CV:  RRR
   Pulm:  decreased breath sounds at bases
   Abd:  +Bs, soft, NT, ND
   Ext:  RUE in ex-fix, 2+pedal edema bilaterally
   Labs / Radiology
   478 K/uL
   8.1 g/dL
   90 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.6 mEq/L
   8 mg/dL
   99 mEq/L
   139 mEq/L
   26.8 %
   15.8 K/uL
        [image002.jpg]
                             [**2126-10-16**]  03:20 AM
                             [**2126-10-17**]  03:38 AM
                             [**2126-10-17**]  05:16 PM
                             [**2126-10-18**]  03:41 AM
                             [**2126-10-18**]  11:03 PM
                            [**2126-10-19**]  03:58 AM
                            [**2126-10-20**]  05:09 AM
                            [**2126-10-21**]  04:36 AM
                            [**2126-10-22**]  04:53 AM
                            [**2126-10-23**]  05:42 AM
   WBC
   15.8
   11.2
   13.7
   11.9
   10.6
   9.3
   10.9
   14.7
   15.8
   Hct
   25.6
   25.7
   28.5
   25.6
   25.2
   24.0
   25.7
   27.2
   28.6
   26.8
   Plt
   [**Telephone/Fax (3) 10558**]32
   [**Telephone/Fax (2) 10563**]67
   478
   Cr
   0.6
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   Glucose
   113
   128
   95
   118
   105
   116
   133
   99
   90
   Other labs: PT / PTT / INR:12.9/28.4/1.1, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/30, Alk Phos / T Bili:132/0.3,
   Amylase / Lipase:/27, Differential-Neuts:81.4 %, Band:0.0 %, Lymph:8.5
   %, Mono:8.4 %, Eos:1.4 %, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL,
   LDH:374 IU/L, Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 FALL(S)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 BRADYCARDIA
 IMPAIRED SKIN INTEGRITY
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 VENTILATION, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 TRANSFERS, IMPAIRED
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 RESPIRATORY FAILURE, CHRONIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
 .H/O CARDIAC ARREST
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 FRACTURE, OTHER
   ASSESSMENT & PLAN: 53 y.o. M admitted to MICU for respiratory distress
   s/p PEA arrest [**2126-9-20**] then completed Arctic Sun cooling protocol,
   course complicated by seizures, pseudomanas-pneumonia,
   agitation/delirium.
   # Respiratory Failure / Trach:  Spiked a fever to [**Age over 90 **] yesterday, felt
   to have aspirated prior to PEG tube placement, repeat sputum cx with 4+
   GNRs.  Last bronchoscopy [**10-16**]. Then sputum cultures had 3+ GNR, grew
   pseudomonas, felt to be colonization s/p 14 day treatment for
   pseudomonal bacteremia/pneuonia.  Additionally, + glucan and fungal
   cultures growing yeast thus far from bronch.  Mycolytic BCx negative to
   date.  AFB cultures from bronch pending.
   - cont. vanc/cefepime/gent for total 8 day course
   - check gent trough
   - cont steroids 10 mg po daily , slow taper
   - continue bactrim ppx
   - PEEP incr to 10 cmH20 to recruit collapsed RLL on pCXR, return to PS
   # Fever, leukocytosis:  Likely persistent pneumonia, may have aspirated
   during vomiting episodes.  Fungal rash improving, unlikely to be
   source.
   - cont. vanc/cefepime/gent given prior MDR pseudomonas
   - follow up sputum cx, bcx, ucx
   - resite PICC after afebrile x 24 hours
   - monitor RUE for s/sxs of infection
   # Ileus: Resolved, now stooling
   - advance tube feeds slowly after PEG placement
   - switch meds to PO from IV
   # Seizure: Clinical seizure observed by neurology. Given absence of
   prior seizure activity, we had tapered the keppra off earlier in the
   week.
   - EEG still without epileptiform activity.
   - continue Keppra dosing per Neuro
   - appreciate Neurology input
   # C. difficile : Fever curve improved.
   - PO Vanc for Cdiff for now (earliest end date [**10-27**], likely has to be
   prolonged)
   # Agitation/Delirium: Overall improved! Able to communicate/mouth words
   appropriately
   - continue fentanyl patch at decreased dose at 50 mcg q 72 hours([**10-19**])
   - continue decreased oxycodone 10mg q4hours prn
   - hold haldol due to prolonged QTc
   - continue clonidine 0.2 mg PO TID
   - continue Keppra per Neuro
   #  Wrist fracture: s/p ex-fix and ORIF of R elbow and wrist [**10-7**]
   - appreciate ortho recs and OT recs
   - ROM for R fingers/elbow, wrist to remain in splint
   - pain control with Fentanyl patch and oxycodone liquid prn as above
   - continue calcium and vitamin D
   - will need to be on bisphosphonate at discharge
   - bacitracin for pin hygiene
   # S/P PEA Arrest:  Concern for anxoic brain injury although MRI [**10-2**]
   showed pons pathology that neuro says could be possibly reversible.
   - follow mental status with decreasing sedation and narcotics
   # Anemia of iron def: s/p 1 unit transfusion [**10-12**]
   - monitor hct
   - continue iron tablets
   - active T&S
   - guaiac all stools
   - Minimize blood draws
   - transfuse for Hct < 21 or active bleeding
   # DM, type II:
   - continue SSI from nursing home
   # Posterior fungal rash:  Failed antifungal cream
   - try po fluconazole
   - if no improvement, consider derm cs
   ICU Care
   Nutrition: restart tubefeeds
   Glycemic Control:
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM, plan to resite after afebrile x 24
   hours
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU to rehab after picc replacement (afebrile x 24 hours)

2126-10-24 07:09:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   - afebrile since 8PM on [**10-22**], PICC via IR ordered
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsCodeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Fluconazole - [**2126-10-22**] 08:15 PM
   Gentamicin - [**2126-10-23**] 07:50 PM
   Cefipime - [**2126-10-23**] 08:50 PM
   Vancomycin - [**2126-10-24**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Denies chest pain, shortness of breath, abd pain, nausea
   Flowsheet Data as of  [**2126-10-24**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 70 (63 - 99) bpm
   BP: 126/67(81) {75/51(59) - 151/89(101)} mmHg
   RR: 17 (12 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  2,421 mL
                                                                    940 mL
   PO:
             TF:
                                                                    601 mL
                                                                    451 mL
   IVF:
                                                                    590 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  1,161 mL
                                                                    275 mL
   Urine:
                                                                  1,161 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,260 mL
                                                                    665 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 391 (340 - 436) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 35%
   RSBI: 58
   PIP: 14 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 5.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Bronchial: , Rhonchorous: scattered bilat )
   Abdominal: Soft, Bowel sounds present, Tender: minimally RUQ>other 3
   quadrants, PEG tube site c/d/i no erythema
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   478 K/uL
   8.1 g/dL
   90 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.6 mEq/L
   8 mg/dL
   99 mEq/L
   139 mEq/L
   26.8 %
   15.8 K/uL
        [image002.jpg]
                             [**2126-10-16**]  03:20 AM
                             [**2126-10-17**]  03:38 AM
                             [**2126-10-17**]  05:16 PM
                             [**2126-10-18**]  03:41 AM
                             [**2126-10-18**]  11:03 PM
                            [**2126-10-19**]  03:58 AM
                            [**2126-10-20**]  05:09 AM
                            [**2126-10-21**]  04:36 AM
                            [**2126-10-22**]  04:53 AM
                            [**2126-10-23**]  05:42 AM
   WBC
   15.8
   11.2
   13.7
   11.9
   10.6
   9.3
   10.9
   14.7
   15.8
   Hct
   25.6
   25.7
   28.5
   25.6
   25.2
   24.0
   25.7
   27.2
   28.6
   26.8
   Plt
   [**Telephone/Fax (3) 10558**]32
   [**Telephone/Fax (2) 10563**]67
   478
   Cr
   0.6
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   Glucose
   113
   128
   95
   118
   105
   116
   133
   99
   90
   Other labs: PT / PTT / INR:12.9/28.4/1.1, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/30, Alk Phos / T Bili:132/0.3,
   Amylase / Lipase:/27, Differential-Neuts:81.4 %, Band:0.0 %, Lymph:8.5
   %, Mono:8.4 %, Eos:1.4 %, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL,
   LDH:374 IU/L, Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Imaging: [**10-23**] pCXR
    IMPRESSION: Interval increase in subsegmental left lower lobe
   atelectasis.
   Stable bilateral pleural effusions and right basilar atelectasis.
   Assessment and Plan
   ASSESSMENT & PLAN: 53M admitted with MICU for respiratory failure s/p
   PEA arrest [**2126-9-20**] treated with cooling protocol, ICU course
   complicated by anoxic brain injury, seizure disorder, pseudomonas VAP,
   c. diff colitis, and fall.
   #Respiratory Failure s/p tracheostomy - stable on PSV with VAP and
   copious secretions a barrier to weaning
   - cont. cefepime/gent for total 8 day course
   - d/c vanc as no GPCs
   - cont steroids 10 mg po daily
   - d/c bactrim ppx as now on less than 15 mg prednisone daily
   #VAP - fever defervesced since [**10-22**], but WBC# rising; GNR on sputum
   grain stain & prelim Cx
   - cont. cefepime/gent given prior isolate MDR pseudomonas (gent trough
   adequate at <1)
   - follow up sputum culture, sensitivities
   - plan to resite PICC today
   # UTI:  Multidrug R e.coli:
   - should be covered by cefepime, will ask micro lab to add on
   # Ileus s/p PEG placement
   - cont tube feed
   # Anoxic brain injury complicated by seizure disorder - Clinical
   seizure observed by neurology. Given absence of prior seizure activity,
   tapered keppra, EEG w/o epileptiform activity
   -cont keppra
   - wean down clonidine
   - wean down Fentanyl patch to 25 mcg starting tomorrow
   - appreciate neurology involvement
   # C. difficile coliitis - abd benign, having BM, afebrile
   - extend course of PO Vanc for Cdiff for now (earliest end date [**11-12**])
   #  Wrist fracture: s/p ex-fix and ORIF of R elbow and wrist [**10-7**]
   - appreciate ortho and OT recs
   - ROM for R fingers/elbow, wrist to remain in splint
   - pain control with fentanyl patch and oxycodone liquid prn
   - continue calcium and vitamin D
   - bisphosphonate at discharge
   - bacitracin for pin hygiene
   # S/P PEA Arrest:  Concern for anxoic brain injury although MRI [**10-2**]
   showed pons pathology that neuro says could be possibly reversible.
   - follow mental status with decreasing sedation and narcotics
   # Anemia of FE-deficiency - s/p 1U PRBC [**10-12**]
   - cont monitor hct daily
   - continue iron supplements
   - active T&S
   - guaiac all stools
   - transfuse for Hct < 21 or active bleeding
   # DM II:
   - continue SSI
   # Posterior fungal rash - not responsive to topical therapy
   - cont fluconazole x 2 weeks, monitor LFTs
   -appreciate wound care recs
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-24**] 06:08 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM, awaiting resiting by IR
   Prophylaxis:
   DVT: Fondaparinux
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:Transfer to rehab / long term care facility pending PICC
   placement, bed availability

2126-10-25 07:24:00 Physician Resident Progress Note
Chief Complaint: Wrist pain, PEA arrest, respiratory failure
   24 Hour Events:
   - PICC exchanged
   - Clonidine decreased to start [**10-25**]
   - Vanc d/c'd, bactrim d/c'd
   History obtained from Patient
   Allergies:
   History obtained from PatientCodeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Fluconazole - [**2126-10-22**] 08:15 PM
   Cefipime - [**2126-10-24**] 08:00 PM
   Gentamicin - [**2126-10-24**] 08:30 PM
   Vancomycin - [**2126-10-25**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Gastrointestinal: Abdominal pain, minimal abdominal pain
   Musculoskeletal: Myalgias, RUE pain
   Flowsheet Data as of  [**2126-10-25**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 99 (49 - 110) bpm
   BP: 129/77(86) {100/49(28) - 179/83(111)} mmHg
   RR: 26 (13 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  3,025 mL
                                                                    995 mL
   PO:
             TF:
                                                                  1,423 mL
                                                                    472 mL
   IVF:
                                                                    662 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  2,365 mL
                                                                  1,000 mL
   Urine:
                                                                  2,365 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    660 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 286 (286 - 627) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 8 cmH2O
   FiO2: 35%
   RSBI: 87
   PIP: 14 cmH2O
   SpO2: 96%
   ABG: ///40/
   Ve: 7.7 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: at bases)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   447 K/uL
   8.1 g/dL
   99 mg/dL
   0.5 mg/dL
   40 mEq/L
   4.1 mEq/L
   7 mg/dL
   100 mEq/L
   143 mEq/L
   25.8 %
   13.5 K/uL
        [image002.jpg]
                             [**2126-10-17**]  05:16 PM
                             [**2126-10-18**]  03:41 AM
                             [**2126-10-18**]  11:03 PM
                            [**2126-10-19**]  03:58 AM
                            [**2126-10-20**]  05:09 AM
                            [**2126-10-21**]  04:36 AM
                            [**2126-10-22**]  04:53 AM
                            [**2126-10-23**]  05:42 AM
                            [**2126-10-24**]  07:37 AM
                            [**2126-10-25**]  05:27 AM
   WBC
   13.7
   11.9
   10.6
   9.3
   10.9
   14.7
   15.8
   12.8
   13.5
   Hct
   28.5
   25.6
   25.2
   24.0
   25.7
   27.2
   28.6
   26.8
   27.8
   25.8
   Plt
   [**Telephone/Fax (3) 10584**]
   [**Telephone/Fax (3) 10585**]
   Cr
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.6
   0.5
   Glucose
   95
   118
   105
   116
   133
   99
   90
   123
   99
   Other labs: PT / PTT / INR:12.9/28.4/1.1, CK / CKMB /
   Troponin-T:227/8/0.03, ALT / AST:23/30, Alk Phos / T Bili:132/0.3,
   Amylase / Lipase:/27, Differential-Neuts:81.4 %, Band:0.0 %, Lymph:8.5
   %, Mono:8.4 %, Eos:1.4 %, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL,
   LDH:374 IU/L, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Microbiology: [**2126-10-22**] 2:42 pm URINE      Source: Catheter.
      URINE CULTURE (Preliminary):
         ESCHERICHIA COLI.    10,000-100,000 ORGANISMS/ML..
            PRESUMPTIVE IDENTIFICATION.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                ESCHERICHIA COLI
                                |
   AMIKACIN--------------   <=2 S
   AMPICILLIN------------  =>32 R
   AMPICILLIN/SULBACTAM--    16 I
   CEFAZOLIN-------------  =>64 R
   CEFTRIAXONE-----------  =>64 R
   CEFUROXIME------------  =>64 R
   CIPROFLOXACIN---------   =>4 R
   GENTAMICIN------------  =>16 R
   MEROPENEM-------------<=0.25 S
   NITROFURANTOIN--------  <=16 S
   PIPERACILLIN---------- =>128 R
   PIPERACILLIN/TAZO-----   <=4 S
   TOBRAMYCIN------------     8 I
   TRIMETHOPRIM/SULFA----  =>16 R
   [**2126-10-22**] 2:42 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2126-10-22**]):
         >25 PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
         Further incubation required to determine the presence or absence
   of
         commensal respiratory flora.
         GRAM NEGATIVE ROD(S).    HEAVY GROWTH.
   Assessment and Plan
 FALL(S)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 BRADYCARDIA
 IMPAIRED SKIN INTEGRITY
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 VENTILATION, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 TRANSFERS, IMPAIRED
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 RESPIRATORY FAILURE, CHRONIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
 .H/O CARDIAC ARREST
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 FRACTURE, OTHER
   ASSESSMENT & PLAN: 53M admitted with MICU for respiratory failure s/p
   PEA arrest [**2126-9-20**] treated with cooling protocol, ICU course
   complicated by anoxic brain injury, seizure disorder, pseudomonas VAP,
   c. diff colitis, and fall.
   #Respiratory Failure s/p tracheostomy - stable on PSV with VAP and
   copious secretions a barrier to weaning
   - cont. cefepime/gent for total 8 day course
   - cont steroids 10 mg po daily
   - consider Passy-Muir valve
   #VAP - fever defervesced since [**10-22**], but WBC# rising; GNR on sputum
   grain stain & prelim Cx
   - cont. cefepime/gent given prior isolate MDR pseudomonas (gent trough
   adequate at <1)
   - follow up sputum culture, sensitivities
    # UTI:  Multidrug R e.coli.
   - should be covered by cefepime, f/u sensitivities from micro lab
   # Ileus s/p PEG placement:  resolved
   - cont tube feed
   # Anoxic brain injury complicated by seizure disorder - Clinical
   seizure observed by neurology. Given absence of prior seizure activity,
   tapered keppra, EEG w/o epileptiform activity
   -cont keppra
   - wean down clonidine
   - wean down Fentanyl patch to 25 mcg starting today
   - appreciate neurology involvement
   # C. difficile coliitis - abd benign, having BM, afebrile
   - extend course of PO Vanc for Cdiff for now (earliest end date [**11-12**])
   #  Wrist fracture: s/p ex-fix and ORIF of R elbow and wrist [**10-7**]
   - appreciate ortho and OT recs
   - ROM for R fingers/elbow, wrist to remain in splint
   - pain control with fentanyl patch and oxycodone liquid prn
   - continue calcium and vitamin D
   - bisphosphonate at discharge
   - bacitracin for pin hygiene
   - foundopariux for dvt ppx
   # S/P PEA Arrest:  Concern for anxoic brain injury although MRI [**10-2**]
   showed pons pathology that neuro says could be possibly reversible.
   - follow mental status with decreasing sedation and narcotics
   # Anemia of FE-deficiency - s/p 1U PRBC [**10-12**]
   - cont monitor hct daily
   - continue iron supplements
   - active T&S
   - guaiac all stools
   - transfuse for Hct < 21 or active bleeding
    # DM II:
   - continue SSI
    # Posterior fungal rash - not responsive to topical therapy
   - cont fluconazole x 2 weeks, monitor LFTs at rehab
   -appreciate wound care recs
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-24**] 11:38 PM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-10-3**] 05:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to rehab / long term care facility